2156-02-01 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2156-1-31**] 10:00 PM
   rt groin rt tlc p;aced [**Last Name (un) **]
 INVASIVE VENTILATION - START [**2156-1-31**] 11:00 PM
   Tine approx, pt intubated and vented in EU
 STOOL CULTURE - At [**2156-2-1**] 12:34 AM
   for c-diff
 NASAL SWAB - At [**2156-2-1**] 12:34 AM
   upon admisssion to r/oMRSA
   - head CT given AMS; per radiology, multiple old CVAs, ? acute to
   subacute L temporal focus, rec non-con MRI (ordered)
   - getting NS boluses and levophed .03-.05 to maintain MAP >65
   - lactate stable
   - K rose to 5.4 (from 2.9) with 40 MeQ in the ED
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-2-1**] 04:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-1**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 113 (98 - 113) bpm
   BP: 91/52(60) {85/52(54) - 127/160(86)} mmHg
   RR: 24 (23 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 64.3 kg (admission): 64.3 kg
             Total In:
                                                                    256 mL
                                                                  1,973 mL
   PO:
             TF:
   IVF:
                                                                    256 mL
                                                                  1,973 mL
   Blood products:
   Total out:
                                                                     95 mL
                                                                      5 mL
   Urine:
                                                                     89 mL
                                                                      5 mL
   NG:
   Stool:
                                                                      6 mL
   Drains:
   Balance:
                                                                    161 mL
                                                                  1,968 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 268 (268 - 268) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 112
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.38/49/232/26/3
   Ve: 10.2 L/min
   PaO2 / FiO2: 580
   Physical Examination
   VS: 110/66, HR 98, RR 23, O2 100% (vent settings 400/14, FiO2 .6, PEEP
   5)
   GEN:intubated, sedated, not arousable
   SKIN: stage 2 coccygeal ulcer, b/l heel abrasions
   HEENT: intubated
   CHEST: diffusely rhonchorus L>R anteriorly.
   CARDIAC: Regular rhythm; no murmurs, rubs, or gallops.
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES: RUE fistula with palpable thrill, R femoral catheter clean
   and dry, no peripheral edeme
   NEUROLOGIC: intubated, sedated, not responsive to voice or painful
   stimuli.  R pupil 4 mm and nonreactive, L pupil 3-->2 mm.
   Labs / Radiology
   374 K/uL
   9.5 g/dL
   244 mg/dL
   4.5 mg/dL
   26 mEq/L
   5.4 mEq/L
   26 mg/dL
   110 mEq/L
   147 mEq/L
   30.7 %
   16.2 K/uL
        [image002.jpg]
                             [**2156-1-31**]  07:53 PM
                             [**2156-2-1**]  12:38 AM
   WBC
   16.2
   Hct
   30.7
   Plt
   374
   Cr
   4.5
   TCO2
   30
   Glucose
   244
   Other labs: PT / PTT / INR:12.2/23.7/1.0, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Lactic Acid:2.2 mmol/L, Ca++:7.8
   mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
   43 yo woman with hx ESRD [**1-13**] DM, CVA, presents with fever, hypoxia,
   hypotension, and leukocytosis, most likely secondary to sepsis.
   .
   #  Sepsis:  Source not entirely clear .  CXR with possible RLL
   infiltrate which could be consistent with her history of high risk for
   aspiration. Hypotension may also be fluid down. She is also high risk
   for UTI given baseline urinary incontinence.  C diff is also on the
   differential given episode of loose stool on arrival and very elevated
   WBC.
   - f/u urine and blood cx
   - stool for c diff toxin
   - repeat UA/Cx
   - antibiotics to cover for HAP:  vancomycin qhD, zosyn 2.25g qh8
   (confirmed renal dosing with pharmacy)
   - IVF cautiously and norepinephrine to maintain MAP >65 (minimal UOP at
   baseline)
   - ARDSnet tidal volumes (currently at 6 mL/kg/min)
   - consider arterial line - for now cuff pressures seem to be accurate
   and O2 Sat excellent on current settings
   .
   # altered mental status:  son reports recently declining mental status
   for 3 months with an acute decline per nurse in the past few days
   culminating in today's event.  Per nurse, patient has been quite
   depressed, raising the question of ingestion (? related to CXR
   findings), but tox screen here negative.  Current mental status is
   likely exacerbated by sepsis.
   - treat sepsis as above
   - re-evaluate as infection is treated
   - consider head CT / LP
   - discuss baseline further with usual caretaker at [**Hospital3 240**] ([**Location (un) 13511**] at [**Telephone/Fax (1) 12910**]) and Dr. [**Last Name (STitle) 13512**], PCP
   .
   #  stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat.  Got dialyzed today.  No urgent electrolyte indication for
   dialysis.  Hypokalemic.
   - continue fosrenal
   - continue nephrocaps
   - d/w renal arranging HD as inpatient
   - cautious repletion of K - will finish 1 L NS from ED with 40 mEq K
   and recheck electrolytes
   .
   # DM: on 24 units lantus, qachs humalog
   - qachs FS
   - continue lantus 24 units qhs
   - humalog SS
   .
   #  HTN
   - hold metoprolol and lisinopril while requiring pressors
   .
   #  hx CVA:  with residual R hemiparesis.  Presumably fixed R pupil is
   also related.  Has pressure ulcers on b/l heels and coccyx related to
   bed-bound state.  Family is unhappy with care at [**Hospital3 **].
   - conservative management of pressure wounds including Mirapex
   dressings (per nursing)
   - d/w case management alternative placement if family so desires prior
   to discharge
   - confirm hx anisocoria with PCP [**Last Name (NamePattern4) **]. [**Last Name (STitle) 13512**] @ [**Hospital1 403**]
   .
   # FEN: IVFs with K as above / replete lytes prn / nutrition for TF recs
   if not extubated tomorrow
   # PPX: H2 blocker, heparin SQ, no bowel regimen given loose stools
   # ACCESS: PIV
   # CODE:  Full, discussed
   # CONTACT:
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-1-31**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-02-01 09:20:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43F with h/o CVA with residual significant disability, with altered
   mental status for about one week, yesterday after HD had question of
   aspiration.  In ED, hypoxemic on NRB to 75%, therefore, intubated.
   Remained unresponsive despite no sedation.  She also required
   vasopressors for post-intubation hypotension.
   24 Hour Events:
 MULTI LUMEN - START [**2156-1-31**] 10:00 PM
   rt groin rt tlc p;aced [**Last Name (un) **]
 INVASIVE VENTILATION - START [**2156-1-31**] 11:00 PM
   Tine approx, pt intubated and vented in EU
 STOOL CULTURE - At [**2156-2-1**] 12:34 AM
   for c-diff
 NASAL SWAB - At [**2156-2-1**] 12:34 AM
   upon admisssion to r/oMRSA
   Overnight, her Fio2 was decreased to 40%.  HAs been receiving fluid
   boluses to wean levophed.
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-2-1**] 04:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Lanthanum, Vanco qHD
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Respiratory: Cough, Dyspnea
   Genitourinary: Foley, Dialysis
   Heme / Lymph: Anemia
   Allergy / Immunology: No(t) Immunocompromised
   Pain: Unable to answer
   Flowsheet Data as of  [**2156-2-1**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 112 (98 - 114) bpm
   BP: 110/55(69) {85/52(54) - 127/160(86)} mmHg
   RR: 24 (23 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 64.3 kg (admission): 64.3 kg
             Total In:
                                                                    256 mL
                                                                  2,388 mL
   PO:
             TF:
   IVF:
                                                                    256 mL
                                                                  2,328 mL
   Blood products:
   Total out:
                                                                     95 mL
                                                                     15 mL
   Urine:
                                                                     89 mL
                                                                     15 mL
   NG:
   Stool:
                                                                      6 mL
   Drains:
   Balance:
                                                                    161 mL
                                                                  2,373 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 268 (268 - 268) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 112
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.38/49/232/26/3
   Ve: 10.2 L/min
   PaO2 / FiO2: 580
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: left pupil if fixed, right is reactive
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, necrotic area on left heel
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   374 K/uL
   244 mg/dL
   4.5 mg/dL
   26 mEq/L
   5.4 mEq/L
   26 mg/dL
   110 mEq/L
   147 mEq/L
   30.7 %
   16.2 K/uL
        [image002.jpg]
                             [**2156-1-31**]  07:53 PM
                             [**2156-2-1**]  12:38 AM
   WBC
   16.2
   Hct
   30.7
   Plt
   374
   Cr
   4.5
   TCO2
   30
   Glucose
   244
   Other labs: PT / PTT / INR:12.2/23.7/1.0, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Lactic Acid:2.2 mmol/L, Ca++:7.8
   mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR:  left midl lung zone opacities, slight obscuration of
   right heart border, ETT, NGT in place.
   Heast CT: 1. Left frontal subcortical white matter hypodensity,
   indeterminate.
   Recommend MRI for further evaluation, which is more sensitive in
   detection of
   acute ischemia.
   2. Chronic small vessel ischemic changes and prior lacunar infarcts.
   3. No evidence of acute intracranial hemorrhage.
   Microbiology: Blood, urine cultures pending
   Assessment and Plan
   > Hypoxemic Respiratory Failure:
   Oxygenation has improved.  Likely cause is aspiration pneumonia.
   Continue Vanco and Zosyn, awaiting cultures.
   SBT today and possible extubation after MRI and if MS is improved.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION):
   Secondary to pneumonia/aspiration.
   Repeat urine studies for alternate source of infection.
   Weaning levophed.  If unable to continue to wean, place IJ CVL to
   assess CVP and gauge fluid status.
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE):
   Renal consult for RRT.
 ALTERED MENTAL STATUS (NOT DELIRIUM):
   Improved responsiveness today.  Her unresponsiveness may have been due
   to hypoxia, hypotension.
   Need to obtain more history from [**Hospital3 240**] on reported subacute
   decline in mental status as that may be due alternate etiology.
   Continue to monitor neuro exam.
   Awaiting Brain MRI.
 DIABETES MELLITUS (DM), TYPE II:
   Lantus plus SS.
   > h/o CVA:
   Clarify ASA allergy and restart if not present.
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: Lantus plus SS
   Lines:
   Multi Lumen - [**2156-1-31**] 10:00 PM
   18 Gauge - [**2156-2-1**] 08:25 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined the patient with Dr. [**Last Name (STitle) 347**]; his note and the ICU
   team note from today reflect my input.  I would add/emphasize that this
   43 y/o woman with DM1, ESRD on HD, and CVA with significant disability
   now presents with encephalopathy, respiratory failure, and shock.   BP
   has improved with treatment and now being trialed off of levophed.
   Exam notable for somnolence, heart with murmurs, and soft abdomen.
   Thyroid seems large.  Groin CVL site clean.  Right arm AV fistula.
   Cold in feet.  Scant palpable pulse on left arm.  CXR with basilar
   opacities as well as speckled radiodense material (?previously
   aspirated contrast)
   Assessment and Plan
   43 y/o woman with DM1, ESRD on HD, and CVA with significant disability
   now presents with encephalopathy, respiratory failure, and shock.
   Septic shock
   Improved BP on therapy
   Seems likely to be pneumonia based on CXR and resp failure.  Check
   cultures.  Add atypical coverage to vanco/zosyn.
   Place arterial line.  If unable to place radial, and still requiring
   vasopressors, consider femoral or axillary.
   Resite CVL in next day or two (placed cleanly, but in femoral)
   Given DM1, large thyroid, would check TFTs and cortisol since PGAS 2 in
   ddx.
   Respiratory Failure
   Goal Vt in 6
 8 cc/kg range.  Check ABG.
   Leave intubated while shock state and encephalopathy predominate
   Encephalopathy
   Awaiting MRI, though suspect this is likely metabolic/sepsis-related
   Other issues as per ICU team note and Dr. [**Last Name (STitle) 347**]
   Critically ill: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2156-2-1**] 17:22 ------

2156-02-02 07:07:00 Physician Resident Progress Note
Chief Complaint: intubated
   24 Hour Events:
 ARTERIAL LINE - START [**2156-2-1**] 07:46 PM
 FEVER - 101.2
F - [**2156-2-1**] 08:00 AM
   - blood cx from [**1-31**] grew out GPC in clusters (2 out of 2 bottles);
   already on vanco
   - C. diff negative
   - a-line placed
   - norepi was weaned off in a.m.; has been requiring 250cc IVF boluses
   to maintain BP
   - still hypernatremic, getting both PO free water and D5W infusion
   Patient unable to provide history: Unresponsive
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-2-2**] 04:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-1**] 02:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-2**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37
C (98.6
   HR: 93 (93 - 114) bpm
   BP: 80/53(65) {80/40(56) - 136/111(174)} mmHg
   RR: 21 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 64.3 kg (admission): 64.3 kg
             Total In:
                                                                  3,096 mL
                                                                    850 mL
   PO:
             TF:
   IVF:
                                                                  2,786 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                     37 mL
                                                                     15 mL
   Urine:
                                                                     37 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,059 mL
                                                                    835 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 197 (197 - 197) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 15 cmH2O
   Plateau: 17 cmH2O
   Compliance: 35.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/40/95.[**Numeric Identifier 218**]/25/0
   Ve: 7 L/min
   PaO2 / FiO2: 238
   Physical Examination
   GEN:intubated, sedated, arousable, responding to simple commands
   (moving fingers, opening eyes) on no sedation
   SKIN: stage 2 coccygeal ulcer, b/l heel abrasions
   HEENT: intubated
   CHEST: diffusely rhonchorus L>R anteriorly.
   CARDIAC: Regular rhythm; [**2-14**] holosystolic murmur, rubs, or gallops.
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES: RUE fistula with palpable thrill, R femoral catheter clean
   and dry, no peripheral edeme
   NEUROLOGIC: intubated, sedated,  R pupil 4 mm and nonreactive, L pupil
   3-->2 mm.
   Labs / Radiology
   364 K/uL
   7.1 g/dL
   115 mg/dL
   6.1 mg/dL
   25 mEq/L
   3.5 mEq/L
   39 mg/dL
   111 mEq/L
   149 mEq/L
   23.5 %
   20.4 K/uL
        [image002.jpg]
                             [**2156-1-31**]  07:53 PM
                             [**2156-2-1**]  12:38 AM
                             [**2156-2-1**]  11:29 AM
                             [**2156-2-1**]  12:00 PM
                             [**2156-2-1**]  05:55 PM
                             [**2156-2-2**]  06:03 AM
   WBC
   16.2
   20.4
   Hct
   30.7
   23.5
   Plt
   374
   364
   Cr
   4.5
   5.2
   6.1
   TCO2
   30
   24
   26
   Glucose
   244
   199
   115
   Other labs: PT / PTT / INR:12.2/23.7/1.0, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, Ca++:8.7
   mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Microbiology: Blood cx [**1-31**]: GPC in clusters
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
   43 yo woman with hx ESRD [**1-13**] DM, CVA, presents with sepsis from unknown
   source, possibly [**Month/Day (2) 11591**]/HAP.
   .
   #  Sepsis:  Source unclear, ? [**Name2 (NI) 11591**]/HAP vs. Urosepsis vs. aspiration.
   Was able to wean off pressor yesterday. GPC grew out of blood cx on
   [**1-31**]. However, WBC continues to rise and patient continues to spike.
   Still makes significant stools even though C. diff toxin was neg x 1
   yesterday.  f/u urine and blood cx
   - continue vanco IV and pip-tazo; f/u blood cx
   - add PO vanco and IV metronidazole for presumed C. diff; check more
   stool samples
   # Respiratory failure: intubated mostly for mental status. RSBI 107
   this morning.
   - switch to pressure support today
   - check ABG
   - maintain ventilatory support for now
   #  Altered mental status:  son reports recently declining mental status
   for 3 months with an acute decline per nurse in the past few days
   culminating in today's event.  Per nurse, patient has been quite
   depressed, raising the question of ingestion (? related to CXR
   findings), but tox screen here is negative.  Current mental status is
   likely exacerbated by sepsis. Mental status stable.
   - treat sepsis as above
   - Head MRI today for new vs. old ischemia, ? LP if not improving
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat.  Due for dialysis tomorrow.  No indication for urgent
   dialysis
   - continue nephrocaps
   - dialysis tomorrow
   # DM: on 24 units lantus, qachs humalog
   - qachs FS
   - continue lantus 24 units qhs
   - humalog SS
   .
   #  HTN
   - hold metoprolol and lisinopril while intermittently hypotensive
   .
   # Hct drop: unclear etiology. No evidence of active bleeding; guaiac
   negative. ?dilutional.
   - trend Hct
   - check hemolysis labs
   #  hx CVA:  with residual R hemiparesis.  Presumably fixed R pupil is
   also related.  Has pressure ulcers on b/l heels and coccyx related to
   bed-bound state.  Family is unhappy with care at [**Hospital3 **].
   - conservative management of pressure wounds including Mirapex
   dressings (per nursing)
   - d/w case management alternative placement if family so desires prior
   to discharge
   - confirm hx anisocoria with PCP [**Last Name (NamePattern4) **]. [**Last Name (STitle) 13512**] @ [**Hospital1 403**]
   - Investigate ASA allergy
   .
   # FEN: IVFs with K as above / replete lytes prn / nutrition for TF recs
   # PPX: H2 blocker, heparin SQ, no bowel regimen given loose stools
   # ACCESS: PIV
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-1-31**] 10:00 PM
   18 Gauge - [**2156-2-1**] 08:25 AM
   Arterial Line - [**2156-2-1**] 07:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-02-02 09:20:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, sepsis, aspiration pneumonia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 ARTERIAL LINE - START [**2156-2-1**] 07:46 PM
 FEVER - 101.2
F - [**2156-2-1**] 08:00 AM
   RSBI 107 this am. Thick yellow secretions noted overnight.
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-2-2**] 04:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-1**] 02:11 PM
   Other medications:
   nephrocaps, lantham, famotidine, heparin s/c tid, vancomycin 1g iv HD
   protocol, insulin sliding scale, free water boluses, zosyn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-2**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (98.9
   HR: 96 (91 - 114) bpm
   BP: 102/64(81) {80/40(56) - 136/111(174)} mmHg
   RR: 18 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.3 kg (admission): 64.3 kg
             Total In:
                                                                  3,096 mL
                                                                    902 mL
   PO:
             TF:
   IVF:
                                                                  2,786 mL
                                                                    402 mL
   Blood products:
   Total out:
                                                                     37 mL
                                                                     30 mL
   Urine:
                                                                     37 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,059 mL
                                                                    872 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 197 (197 - 197) mL
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 15 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/40/95.[**Numeric Identifier 218**]/25/0
   Ve: 6.4 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal, opens eyes an dsqueezes right hand
   to command
   Labs / Radiology
   6.9 g/dL
   339 K/uL
   115 mg/dL
   6.1 mg/dL
   25 mEq/L
   3.5 mEq/L
   39 mg/dL
   111 mEq/L
   149 mEq/L
   23.7 %
   23.6 K/uL
         [image002.jpg]
                             [**2156-1-31**]  07:53 PM
                             [**2156-2-1**]  12:38 AM
                             [**2156-2-1**]  11:29 AM
                             [**2156-2-1**]  12:00 PM
                             [**2156-2-1**]  05:55 PM
                             [**2156-2-2**]  06:03 AM
                             [**2156-2-2**]  07:33 AM
   WBC
   16.2
   20.4
   23.6
   Hct
   30.7
   23.5
   23.7
   Plt
   374
   364
   339
   Cr
   4.5
   5.2
   6.1
   TCO2
   30
   24
   26
   Glucose
   244
   199
   115
   Other labs: PT / PTT / INR:12.2/23.7/1.0, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, Ca++:8.7
   mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: hapto globin Pend
   cortisol Pend
   Imaging: CXR none today
   Microbiology: GPC 2/2 bottles
   Assessment and Plan
   Septic shock: off pressors, BC growing GPC x1, continue vanco and zosyn
   for now. f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 402**] stim and TSH.
   Respiratory failure: will review CXR this am, will send sputum culture,
   Will switch to pressure support
   Altered mental status: appearantly declining over the course of the
   recent few weeks, was acutely worsening, attempting to obtain MRI to
   evaluate for new stroke/CVA, a little improved today compared with
   admission. Will hold off on LP for now and obtain MRI first.
   Diarrhea: C.diff pending. Will start on empiric vanco po and iv flagyl
   given rising white count
   Renal failure: on HD TTS, due to HD in am through fistula, no need for
   urgent HD
   DM II: glucose in good range
   Decubitus ulcer/vascular ulcers: continue wound care.
   Hypernatremia: contineu D5W and free water boluses
   Hct drop: guiac negative this am. hct drop 8 points, now stable, will
   follow up hct, will follow up retic count and smear, DIC work up
   although coags normal. Likely related to renal failrue and marrow
   suppression.
   ICU Care
   Nutrition:
   Comments: Will start tube feeds once OG is confirmed
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-1-31**] 10:00 PM
   18 Gauge - [**2156-2-1**] 08:25 AM
   Arterial Line - [**2156-2-1**] 07:46 PM
   Comments: will resite central line.
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum
   I saw and examined the pt on rounds, and was physically present with
   ICU team for the key portions of services provided. I agree with Dr.
   [**First Name (STitle) 10164**]
s note above, including assessment and plan. I would add:
   43 yo [**Hospital3 240**] resident with ESRD, s/p CVA admitted with acute
   respiratory failure and sepsis. Overnight, has stayed off pressors but
   intermittently hypotensive requiring fluid resuscitation- arterial line
   placed. Intermittently opens eyes to voice. Microbiology reveals [**1-13**]
   GPC bacteremia, species pending.
   Sepsis/GPC bacteremia, remains on Vanc/zosyn but with worsening
   leukocytosis, need to be concerned abt persistent bacteremia or a
   second infection (lungs, stool). Obtain surveillance blood cultures,
   add empiric C diff coverage while waiting for stool studies to return.
   Acute respiratory failure: poor MS and high RSBI preclude extubation
   today. On PSV- continue daily SBT.
   AMS is unchanged to slightly better. Unable to get MRI yesterday for
   logistical reasons, will reattempt today. LP could be considered if she
   fails to improve, though the stronger suspicion is for non-CNS
   infection aggravating baseline  poor mental status.
   Decreased hct more likely due to renal insufficiency with poor
   production, in the absence of obvious blood loss, but will re-check
   this afternoon.
   Pt is critically ill. Total time spent: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2156-2-2**] 01:09 PM ------

2156-02-03 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2156-2-2**] 08:25 AM
   A-line and central line
 SPUTUM CULTURE - At [**2156-2-2**] 10:12 AM
 STOOL CULTURE - At [**2156-2-2**] 12:08 PM
 ARTERIAL LINE - STOP [**2156-2-2**] 03:59 PM
 BLOOD CULTURED - At [**2156-2-2**] 05:18 PM
   Fem line
 MAGNETIC RESONANCE IMAGING - At [**2156-2-2**] 08:30 PM
   - Aline non-functional, removed
   - Hct/Na improved
   - Identified, MRI done: Pending
   - Will be tranfused in HD
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-2**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-2-2**] 02:18 PM
   Piperacillin - [**2156-2-3**] 04:00 AM
   Metronidazole - [**2156-2-3**] 04:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-2**] 10:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-3**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 81 (81 - 96) bpm
   BP: 128/53(72) {101/41(60) - 170/85(101)} mmHg
   RR: 16 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.3 kg (admission): 64.3 kg
             Total In:
                                                                  3,009 mL
                                                                    480 mL
   PO:
             TF:
   IVF:
                                                                  2,169 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                     70 mL
                                                                     65 mL
   Urine:
                                                                     70 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,939 mL
                                                                    415 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (350 - 450) mL
   Vt (Spontaneous): 551 (395 - 936) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 8.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   386 K/uL
   6.9 g/dL
   81 mg/dL
   6.5 mg/dL
   23 mEq/L
   3.4 mEq/L
   42 mg/dL
   105 mEq/L
   141 mEq/L
   22.7 %
   21.2 K/uL
        [image002.jpg]
                             [**2156-1-31**]  07:53 PM
                             [**2156-2-1**]  12:38 AM
                             [**2156-2-1**]  11:29 AM
                             [**2156-2-1**]  12:00 PM
                             [**2156-2-1**]  05:55 PM
                             [**2156-2-2**]  06:03 AM
                             [**2156-2-2**]  07:33 AM
                             [**2156-2-2**]  05:01 PM
                             [**2156-2-2**]  10:05 PM
                             [**2156-2-3**]  04:10 AM
   WBC
   16.2
   20.4
   23.6
   10.9
   21.2
   Hct
   30.7
   23.5
   23.7
   40.6
   24.3
   22.7
   Plt
   374
   364
   339
   199
   386
   Cr
   4.5
   5.2
   6.1
   6.2
   6.5
   TCO2
   30
   24
   26
   Glucose
   244
   199
   115
   189
   81
   Other labs: PT / PTT / INR:11.6/26.4/1.0, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.1 mmol/L, LDH:226 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:4.1
   mg/dL
   Imaging: MRI Head Pending
   Microbiology: Cdiff (-)
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
   43 yo woman with hx ESRD [**1-13**] DM, CVA, presents with sepsis from unknown
   source, possibly [**Month/Day (2) 11591**]/HAP.
   .
   #  Sepsis:  Source unclear, ? [**Name2 (NI) 11591**]/HAP vs. Urosepsis vs. aspiration.
   Was able to wean off pressor yesterday. GPC grew out of blood cx on
   [**1-31**]. However, WBC continues to rise and patient continues to spike.
   Still makes significant stools even though C. diff toxin was neg x 1
   yesterday.  f/u urine and blood cx
   - continue vanco IV and pip-tazo; f/u blood cx
   - add PO vanco and IV metronidazole for presumed C. diff; check more
   stool samples
   # Respiratory failure: intubated mostly for mental status. RSBI 107
   this morning.
   - switch to pressure support today
   - check ABG
   - maintain ventilatory support for now
   #  Altered mental status:  son reports recently declining mental status
   for 3 months with an acute decline per nurse in the past few days
   culminating in today's event.  Per nurse, patient has been quite
   depressed, raising the question of ingestion (? related to CXR
   findings), but tox screen here is negative.  Current mental status is
   likely exacerbated by sepsis. Mental status stable.
   - treat sepsis as above
   - Head MRI today for new vs. old ischemia, ? LP if not improving
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat.  Due for dialysis tomorrow.  No indication for urgent
   dialysis
   - continue nephrocaps
   - dialysis tomorrow
   # DM: on 24 units lantus, qachs humalog
   - qachs FS
   - continue lantus 24 units qhs
   - humalog SS
   .
   #  HTN
   - hold metoprolol and lisinopril while intermittently hypotensive
   .
   # Hct drop: unclear etiology. No evidence of active bleeding; guaiac
   negative. ?dilutional.
   - trend Hct
   - check hemolysis labs
   #  hx CVA:  with residual R hemiparesis.  Presumably fixed R pupil is
   also related.  Has pressure ulcers on b/l heels and coccyx related to
   bed-bound state.  Family is unhappy with care at [**Hospital3 **].
   - conservative management of pressure wounds including Mirapex
   dressings (per nursing)
   - d/w case management alternative placement if family so desires prior
   to discharge
   - confirm hx anisocoria with PCP [**Last Name (NamePattern4) **]. [**Last Name (STitle) 13512**] @ [**Hospital1 403**]
   - Investigate ASA allergy
   .
   # FEN: IVFs with K as above / replete lytes prn / nutrition for TF recs
   # PPX: H2 blocker, heparin SQ, no bowel regimen given loose stools
   # ACCESS: PIV
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-1-31**] 10:00 PM
   18 Gauge - [**2156-2-1**] 08:25 AM
   20 Gauge - [**2156-2-2**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-02-03 10:42:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   43 yo F with vasculopathy, DM2, history of CVA, NH resident, presents
   with acute aggitation and hypoxemia.  Intubated in ED in setting of
   hypoxemia.  Briefly HoTN requiring pressors.  Minimal interaction with
   head CT ? new CVA.
   Problems:
   altered mental status
   respiratory failure
   HoTN
   24 Hour Events:
   Aline attempted
   MRI with new acute lacunar infarct
   Patient unable to provide history: Unresponsive
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-2**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-2-2**] 02:18 PM
   Piperacillin - [**2156-2-3**] 04:00 AM
   Metronidazole - [**2156-2-3**] 04:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-2**] 10:47 PM
   Other medications:
   nephrocaps
   famotidine
   heparin sq tid
   vanc with HD
   RISS
   FWB q 4H
   zosyn 2.25q iv q12
   chlorhexadine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-3**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 101 (81 - 101) bpm
   BP: 93/66(31) {93/41(31) - 170/85(101)} mmHg
   RR: 19 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 64.3 kg (admission): 64.3 kg
             Total In:
                                                                  3,009 mL
                                                                    480 mL
   PO:
             TF:
   IVF:
                                                                  2,169 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                     70 mL
                                                                     65 mL
   Urine:
                                                                     70 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,939 mL
                                                                    415 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (350 - 450) mL
   Vt (Spontaneous): 414 (395 - 936) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Oriented (to): unable to
   respond, Movement: Not assessed, Tone: Decreased
   Labs / Radiology
   6.9 g/dL
   386 K/uL
   81 mg/dL
   6.5 mg/dL
   23 mEq/L
   3.4 mEq/L
   42 mg/dL
   105 mEq/L
   141 mEq/L
   22.7 %
   21.2 K/uL
        [image002.jpg]
                             [**2156-1-31**]  07:53 PM
                             [**2156-2-1**]  12:38 AM
                             [**2156-2-1**]  11:29 AM
                             [**2156-2-1**]  12:00 PM
                             [**2156-2-1**]  05:55 PM
                             [**2156-2-2**]  06:03 AM
                             [**2156-2-2**]  07:33 AM
                             [**2156-2-2**]  05:01 PM
                             [**2156-2-2**]  10:05 PM
                             [**2156-2-3**]  04:10 AM
   WBC
   16.2
   20.4
   23.6
   10.9
   21.2
   Hct
   30.7
   23.5
   23.7
   40.6
   24.3
   22.7
   Plt
   374
   364
   339
   199
   386
   Cr
   4.5
   5.2
   6.1
   6.2
   6.5
   TCO2
   30
   24
   26
   Glucose
   244
   199
   115
   189
   81
   Other labs: PT / PTT / INR:11.6/26.4/1.0, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.1 mmol/L, LDH:226 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:4.1
   mg/dL
   Fluid analysis / Other labs: ABG:
   Assessment and Plan
   43 yo F dm2. CVA, here with respiratory failure and Hotn
   1. respiratory failure:
   likely [**1-13**] CVA with suppressed respiratory drive, possibly complicated
   by aspiration event with evidence of RLL infiltrate on CXR
    - wean vent, determine reintubation requirements, likely extubate
   today
    - cont levaquin for possible aspiration pna
   2. CVA:
   - will touch base with neurology service given new MRI findings
    - restart [**Month/Day (2) 5**] 81mg, statin will likely need aggrenox
   3. HoTN:
    - blood cultures with GPC in clusters
    - cont vanc, d/c gn coverage
    - f/u final culture data
    - tte if staph aureus
    - femoral line in place, will d/c today
   4. Access:
    - d/c femoral line today
    - attempt increased peripheral access, otherwise will need PICC line
   for
   5. FEN:
    - nutrition c/s for tube feeds
    -
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Insulin infusion
   Lines:
   Multi Lumen - [**2156-1-31**] 10:00 PM
   18 Gauge - [**2156-2-1**] 08:25 AM
   20 Gauge - [**2156-2-2**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   Critical Care Attending
   I saw and examined the pt, and was present with the ICU team for the
   key portions of services provided. I agree with Dr. [**Last Name (STitle) 192**]
s note,
   including assessment and plan. I would add:
   43 yo female s/p CVA, ESRD on HD,  admitted from [**Hospital1 238**] with respiratory
   failure, AMS, and shock. On Vanco/zosyn for CNS bacteremia, HCAP vs
   aspiration PNA. MRI also demonstrated acute lunar infarcts.
   Pt intubated on MMV, able to respond to directions, RSBI 48
   Her major problems include:
   For acute respiratory failure: Improved ventilatory mechanics, and
   mental status mildly improved. Will move to extubation
   For acute lunar infarct: pt on [**Last Name (LF) **], [**First Name3 (LF) **] touch base. Regarding sepsis,
   pt on Vancomycin for CNS bacteremia though this may be a contaminant;
   also zosyn for empiric aspiration/HCAP coverage. If surveillance
   cultures negative x 48 hours would dc vanco. HD for ESRD as per renal.
   Pt is critically ill. Total time spent: 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2156-2-3**] 17:00 ------

2156-02-04 12:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2156-2-3**] 11:11 AM
   drawn from R groin line.
 SPUTUM CULTURE - At [**2156-2-3**] 12:12 PM
 PICC LINE - START [**2156-2-3**] 02:37 PM
 INVASIVE VENTILATION - STOP [**2156-2-3**] 04:00 PM
   Tine approx, pt intubated and vented in EU
 MULTI LUMEN - STOP [**2156-2-3**] 04:39 PM
   rt groin rt tlc p;aced [**Last Name (un) **]
 INVASIVE VENTILATION - START [**2156-2-3**] 07:30 PM
   Intubated @ [**2075**]
   - dialyzed
   - picc placed, fem line pulled
   - extubated-->increased secretions-->reintubated
   - lots of ectopy
   - hypotensive to 80s, giving IVF
   - difficulty with BP measurements given
   - FS 50, gave d50 -->135.  Giving 1/2 dose lantus (12 U), wrote for D5
   1/2 NS gtt, need to write for TF today
   - HD tomorrow per renal
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-2-2**] 02:18 PM
   Piperacillin - [**2156-2-3**] 04:00 AM
   Metronidazole - [**2156-2-3**] 04:30 AM
   Vancomycin - [**2156-2-3**] 11:10 AM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2156-2-3**] 06:34 PM
   Heparin Sodium (Prophylaxis) - [**2156-2-3**] 10:00 PM
   Dextrose 50% - [**2156-2-4**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-4**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 92 (82 - 124) bpm
   BP: 132/61(76) {84/15(39) - 168/132(140)} mmHg
   RR: 13 (10 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.3 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,271 mL
                                                                  1,265 mL
   PO:
             TF:
   IVF:
                                                                    482 mL
                                                                    950 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  4,145 mL
                                                                     50 mL
   Urine:
                                                                     95 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,874 mL
                                                                  1,215 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 510 (0 - 553) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 7 L/min
   Physical Examination
   GEN: intubated, sedated, not opening eyes to voice
   SKIN: stage 2 coccygeal ulcer, b/l heel abrasions
   HEENT: intubated
   CHEST: diffusely rhonchorus L>R anteriorly.
   CARDIAC: Regular rhythm; [**2-14**] holosystolic murmur, rubs, or gallops.
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES: RUE fistula with palpable thrill, L PICC in place, no
   peripheral edeme
   NEUROLOGIC: intubated, sedated,  R pupil 4 mm and nonreactive, L pupil
   3-->2 mm.
   Labs / Radiology
   333 K/uL
   8.2 g/dL
   58 mg/dL
   3.9 mg/dL
   29 mEq/L
   3.1 mEq/L
   16 mg/dL
   103 mEq/L
   142 mEq/L
   26.2 %
   16.2 K/uL
        [image002.jpg]
                             [**2156-2-1**]  05:55 PM
                             [**2156-2-2**]  06:03 AM
                             [**2156-2-2**]  07:33 AM
                             [**2156-2-2**]  05:01 PM
                             [**2156-2-2**]  10:05 PM
                             [**2156-2-3**]  04:10 AM
                             [**2156-2-3**]  10:53 AM
                             [**2156-2-3**]  03:43 PM
                             [**2156-2-4**]  12:27 AM
                             [**2156-2-4**]  07:54 AM
   WBC
   20.4
   23.6
   10.9
   21.2
   16.2
   Hct
   23.5
   23.7
   40.6
   24.3
   22.7
   26.7
   26.2
   Plt
   364
   339
   199
   386
   333
   Cr
   6.1
   6.2
   6.5
   3.7
   3.9
   TCO2
   26
   35
   Glucose
   115
   189
   81
   122
   58
   Other labs: PT / PTT / INR:11.6/26.4/1.0, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.2 mmol/L, LDH:226 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43 yo woman with hx ESRD [**1-13**] DM, CVA, presents with possible sepsis
   from unknown source.
   .
   # Respiratory failure: Reintubated for increased secretions. Now on MMV
   because of intermittent apnea. Secretions remain persistent.  ABGs are
   difficult.  Intermittently apneic, [**Last Name (un) 558**]-[**Doctor Last Name 559**] breathing possibly
   related to neurologic issues.  Possibly could be that we were
   over-ventilating her and her baseline CO2 is higher, causing
   intermittent apnea.
   - attempt to get ABG
   - decrease TV to allow CO2 to run more near baseline
   - evaluate secretion managment
   - continue mechanical ventilation today consider extubation this
   afternoon or tomorrow.
   #  Sepsis:  Coag negative staph in first set of blood cx, then GPR in
   cx dated [**1-31**].  Surveillance cx  negative to date.  On levofloxacin and
   vancomycin.
   - daily blood cx
   - call lab regarding identity of GPR
   - continue vanco IV until speaking with lab
   #  New stroke: bilateral white matter lacunar infarcts on head MRI.
   Mental status slowly improving. History of CVA with R hemiparesis.  Was
   on ?aspirin despite ?asa allergy.
   - per neuro, will switch to Plavix
   - TTE to r/o embolic stroke
   - f/u neurology recommends
   - continue atorvastatin
   .
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat.  Due for dialysis today
   - dialysis today
   # DM: episodes of hypoglycemia requiring frequent  boluses, lantus
   decreased from 24 U to 12 U yesterday
   - qachs FS
   - continue lantus 12 units qhs
   - humalog SS
   .
   #  HTN
   - hold metoprolol and lisinopril while intermittently hypotensive
   .
   # FEN: IVFs with K as above / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ, no bowel regimen given loose stools
   # ACCESS: PIV
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU

2156-02-05 09:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 yo woman with hx ESRD on HD, CVA, presents with resp failure and
   presumed sepsis
   24 Hour Events:
                   Patient unable to provide history: Sedated
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-2-2**] 02:18 PM
   Piperacillin - [**2156-2-3**] 04:00 AM
   Metronidazole - [**2156-2-3**] 04:30 AM
   Vancomycin - [**2156-2-3**] 11:10 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-4**] 10:38 PM
   Dextrose 50% - [**2156-2-5**] 01:43 AM
   Other medications:
   Famotidine, vanco w/ HD, nephrocaps, insulin, lanthanam, levofloxacin,
   Lipitor, Plavix
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-5**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 82 (82 - 98) bpm
   BP: 117/57(70) {78/35(50) - 146/85(81)} mmHg
   RR: 16 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.3 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,888 mL
                                                                    541 mL
   PO:
             TF:
   IVF:
                                                                  1,523 mL
                                                                    516 mL
   Blood products:
   Total out:
                                                                     65 mL
                                                                     40 mL
   Urine:
                                                                     65 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,823 mL
                                                                    501 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV
   Vt (Set): 340 (340 - 500) mL
   Vt (Spontaneous): 500 (418 - 645) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.41/50/34/27/5
   Ve: 8.5 L/min
   PaO2 / FiO2: 85
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, L foot bandaged
   Musculoskeletal: LUE contractures
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   392 K/uL
   94 mg/dL
   4.9 mg/dL
   27 mEq/L
   2.8 mEq/L
   17 mg/dL
   100 mEq/L
   138 mEq/L
   24.7 %
   17.9 K/uL
        [image002.jpg]
                             [**2156-2-2**]  05:01 PM
                             [**2156-2-2**]  10:05 PM
                             [**2156-2-3**]  04:10 AM
                             [**2156-2-3**]  10:53 AM
                             [**2156-2-3**]  03:43 PM
                             [**2156-2-4**]  12:27 AM
                             [**2156-2-4**]  07:54 AM
                             [**2156-2-4**]  02:51 PM
                             [**2156-2-4**]  06:27 PM
                             [**2156-2-5**]  04:01 AM
   WBC
   10.9
   21.2
   16.2
   17.9
   Hct
   40.6
   24.3
   22.7
   26.7
   26.2
   24.7
   Plt
   199
   386
   333
   392
   Cr
   6.2
   6.5
   3.7
   3.9
   4.3
   4.9
   TCO2
   35
   33
   Glucose
   189
   81
   122
   58
   96
   94
   Other labs: PT / PTT / INR:11.6/26.4/1.0, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.2 mmol/L, LDH:226 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Imaging: Echo ([**2-4**])- no [**Last Name (LF) 13621**], [**First Name3 (LF) **] 50-55%, nl PASP
   CXR ([**2-4**])- ETT 5.4cm above carina
   Microbiology: [**1-31**] Blood- GPRs, CNS
   Repeat Blood neg to date
   Mult sputum- yeast
   Assessment and Plan
   43 yo woman with hx ESRD on HD, debilitating CVA in [**2-17**], presents with
   resp failure and presumed sepsis
   1. Acute respiratory failure: Re-intubated after 3hrs on [**2-3**] due to
   secretions. Poss resp alkalosis d/t overventilation and resultant apnea
   early yest. VBG now resolved
   -fam mtg to reassess goals of care
   -repeat SBT w/ VBG monitoring
   2. Sepsis- hemodyn stable, CNS and GPRs from [**1-31**] blood w/ neg repeat
   cultures and no other evidence of infxn.
   -cont vanco + levoflox pending cx results
   3. New CVA- started on Plavix
   4. Hypoglycemia
   -down-titrating blood sugars
   -holding tf for now
   ICU Care
   Nutrition:
   Comments: npo for now
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Critical Care Attending
   I saw and examined the pt independently, and was present with the ICU
   team for the key portions of services provided. I agree with Dr.
   [**Last Name (STitle) 5199**]
s note, including assessment and plan. I would add: 42 yo
   female admitted from [**Hospital3 240**] with aspiration/acute respiratory
   failure, presumed sepsis, acute lacunar infarcts. s/p failed extubation
   [**2-3**] for secretions. Currently, blood gas improved on MMV and
   secretions are not large. Still some concern over pt
s ability to
   protect airway due to minimal gag reflex. Will need to address pt
   wishes with her brother who is health care proxy, as she may require
   feeding tube/trach if long-term she is unable to safely clear her
   airway.
   Pt is critically ill. Total time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2156-2-5**] 03:12 PM ------

2156-02-06 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Brother agreed to extubate, reintubate prn and discuss trach/peg PRN
   Patient unable to provide history: Sedated
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-3**] 11:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-6**] 06:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-6**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.8
   HR: 96 (82 - 117) bpm
   BP: 157/47(75) {97/27(45) - 164/64(81)} mmHg
   RR: 18 (9 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,225 mL
                                                                    421 mL
   PO:
             TF:
                                                                    105 mL
                                                                     60 mL
   IVF:
                                                                  1,035 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                     40 mL
                                                                     60 mL
   Urine:
                                                                     40 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,185 mL
                                                                    361 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 290 (290 - 340) mL
   Vt (Spontaneous): 375 (320 - 500) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 6.3 L/min
   Physical Examination
   GEN: intubated, sedated, not opening eyes to voice
   SKIN: stage 2 coccygeal ulcer, b/l heel abrasions
   HEENT: intubated
   CHEST: diffusely rhonchorus L>R anteriorly.
   CARDIAC: Regular rhythm; [**2-14**] holosystolic murmur, rubs, or gallops.
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES: RUE fistula with palpable thrill, L PICC in place, no
   peripheral edeme
   NEUROLOGIC: intubated, sedated,  R pupil 4 mm and nonreactive, L pupil
   3-->2 mm.
   Labs / Radiology
   374 K/uL
   7.9 g/dL
   172 mg/dL
   3.0 mg/dL
   32 mEq/L
   3.3 mEq/L
   6 mg/dL
   99 mEq/L
   138 mEq/L
   25.4 %
   17.7 K/uL
        [image002.jpg]
                             [**2156-2-2**]  10:05 PM
                             [**2156-2-3**]  04:10 AM
                             [**2156-2-3**]  10:53 AM
                             [**2156-2-3**]  03:43 PM
                             [**2156-2-4**]  12:27 AM
                             [**2156-2-4**]  07:54 AM
                             [**2156-2-4**]  02:51 PM
                             [**2156-2-4**]  06:27 PM
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
   WBC
   21.2
   16.2
   17.9
   17.7
   Hct
   24.3
   22.7
   26.7
   26.2
   24.7
   25.4
   Plt
   [**Telephone/Fax (3) 13641**]74
   Cr
   6.5
   3.7
   3.9
   4.3
   4.9
   3.0
   TCO2
   35
   33
   Glucose
   81
   122
   58
   96
   94
   172
   Other labs: PT / PTT / INR:11.6/26.4/1.0, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.2 mmol/L, LDH:226 IU/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43 yo woman with hx ESRD [**1-13**] DM, CVA, presents with possible sepsis
   from unknown source and stroke.
   .
   # Respiratory failure: Reintubated for increased secretions, on MMV
   because of intermittent apnea. Secretions much improved today but
   minimal gag.
   - discuss with her brother if we want to move toward trach if
   extubation fails
   - consider SBT and extubated this morning after HD and family meeting
   - VBG during SBT this morning
   - continue mechanical ventilation today consider extubation this
   afternoon or tomorrow.
   #  Sepsis:  BP OK, not on pressors.  Coag negative staph in first set
   of blood cx, then GPR in cx dated [**1-31**].  Surveillance cx  negative to
   date.  On vancomycin only awaiting identity of GPR
   - daily blood cx
   - call lab to discuss speciation
   #  New stroke: bilateral white matter lacunar infarcts on head MRI.
   Mental status slowly improving. History of CVA with R hemiparesis.  Was
   on ?aspirin despite ?asa allergy.  TTE without e/o embolic course
   - continue Plavix
   - f/u neurology recommends
   - continue atorvastatin
   .
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat.  Due for dialysis today
   - dialysis today
   # DM: episodes of hypoglycemia requiring frequent  boluses, lantus
   decreased from 24 U to 12 U yesterday
   - qachs FS
   - continue lantus 12 units qhs
   - humalog SS
   .
   #  HTN
   - hold metoprolol and lisinopril while intermittently hypotensive
   .
   # FEN: IVFs with K as above / replete lytes prn / TF (holding now in
   case of extubation)
   # PPX: H2 blocker, heparin SQ, no bowel regimen given loose stools
   # ACCESS: PIV and PICC
   # CODE:  Full, discussed
   # CONTACT:  Brother
 need to talk to him today
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2156-02-06 09:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 yo woman with hx ESRD on HD, debilitating CVA in [**2-17**], presents with
   resp failure and presumed sepsis. Failed extubation on [**2-3**].
   24 Hour Events:
   no events. no secretions noted by RN staff.
   History obtained from Medical records
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-3**] 11:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-6**] 06:37 AM
   Other medications:
   Famotidine, Vanco, Nephrocaps, RISS, Peridex, Levoflox, Plavix,
   Atorvastatin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-6**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.8
   HR: 94 (89 - 117) bpm
   BP: 133/36(61) {97/27(45) - 164/64(81)} mmHg
   RR: 19 (9 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,225 mL
                                                                    461 mL
   PO:
             TF:
                                                                    105 mL
                                                                     60 mL
   IVF:
                                                                  1,035 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                     40 mL
                                                                     60 mL
   Urine:
                                                                     40 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,185 mL
                                                                    401 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 290 (290 - 340) mL
   Vt (Spontaneous): 375 (320 - 479) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 5.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, L heel bandaged
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   374 K/uL
   172 mg/dL
   3.0 mg/dL
   32 mEq/L
   3.3 mEq/L
   6 mg/dL
   99 mEq/L
   138 mEq/L
   25.4 %
   17.7 K/uL
        [image002.jpg]
                             [**2156-2-2**]  10:05 PM
                             [**2156-2-3**]  04:10 AM
                             [**2156-2-3**]  10:53 AM
                             [**2156-2-3**]  03:43 PM
                             [**2156-2-4**]  12:27 AM
                             [**2156-2-4**]  07:54 AM
                             [**2156-2-4**]  02:51 PM
                             [**2156-2-4**]  06:27 PM
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
   WBC
   21.2
   16.2
   17.9
   17.7
   Hct
   24.3
   22.7
   26.7
   26.2
   24.7
   25.4
   Plt
   [**Telephone/Fax (3) 13641**]74
   Cr
   6.5
   3.7
   3.9
   4.3
   4.9
   3.0
   TCO2
   35
   33
   Glucose
   81
   122
   58
   96
   94
   172
   Other labs: PT / PTT / INR:11.6/26.4/1.0, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.2 mmol/L, LDH:226 IU/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:2.3
   mg/dL
   Imaging: CXR [**Telephone/Fax (3) **] pm- clear parenchyma, ETT 5.4cm above carina.
   Microbiology: [**1-31**] Blood- CNS and GPRs
   repeat cx neg
   Assessment and Plan
   43 yo woman with hx ESRD on HD, debilitating CVA in [**2-17**], presents with
   resp failure and presumed sepsis.
   1. Acute respiratory failure: Re-intubated after 3hrs on [**2-3**] due to
   secretions. Poss resp alkalosis d/t overventilation and resultant apnea
   early [**Month/Year (2) **]. VBG abnlities now resolved
   -per discussion w/ brother [**Last Name (LF) **], [**First Name3 (LF) **] attempt re-extubation. If fails,
   will reintubate and pursue trach/peg. Some concern re: poor gag reflex
   -extubate post-dialysis, may use post-extub BiPAP
   2. Sepsis- resolving, hemodyn stable, CNS and GPRs from [**1-31**] blood w/
   neg repeat cultures and no other evidence of infxn.
   -cont vanco + levoflox pending cx results
   3. New CVA- started on Plavix, on statin
   -appreicate Neuro input
   4. ESRD- on HD
   5. Hypoglycemia- labile sugars
   -resume Lantus at much lower dose, 8u qhs today
   -down-titrating insulin; on D10 intermittently for hypoglycemia
   -holding tf for now
   ICU Care
   Nutrition:
   Comments: holding tf in anticipation of extubation
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments: Resident spoke to son
   [**Name (NI) **] pm who wants repeat extubation done if possible and would want
   trach/peg if needed
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Critical Care Attending
   I saw and examined the pt independently, and was present with the ICU
   team for the key portions of services provided. I agree with Dr.
   [**Last Name (STitle) 5199**]
s note, including assessment and plan. I would add: 42 yo
   female admitted from [**Hospital3 240**] with aspiration/acute respiratory
   failure, presumed sepsis, acute lacunar infarcts. s/p failed extubation
   [**2-3**] for secretions.
   Extubated again this afternoon with subsequent respiratory distress,
   stridor, upper airway congestionfor the next several hours, which is
   similar to what happened with her last attempted extubation. Think her
   failed extubations have been related to inability to adequately protect
   her airway- discussion with family this afternoon re: trach.
   Pt is critically ill. Total time spent: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2156-2-6**] 16:49 ------

2156-02-07 08:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2156-2-6**] 12:04 PM
   Intubated @ [**2075**]
 INVASIVE VENTILATION - START [**2156-2-6**] 03:15 PM
   - extubated, O2 sats ok on 70% FM but tends to tilt head back and block
   off airway, also not clearing secretions (doesn't seem to have much
   cough)
   - GPR are propionobacterium
   Patient unable to provide history: Sedated
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-6**] 10:24 PM
   Fentanyl - [**2156-2-7**] 12:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-7**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.9
C (96.7
   HR: 94 (89 - 113) bpm
   BP: 106/66(75) {69/21(39) - 180/93(97)} mmHg
   RR: 23 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                    923 mL
                                                                    226 mL
   PO:
             TF:
                                                                     60 mL
   IVF:
                                                                    653 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                      0 mL
   Urine:
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -837 mL
                                                                    226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   RR (Spontaneous): 440
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   SpO2: 100%
   ABG: 7.41/52/29/30/5
   Ve: 6.3 L/min
   PaO2 / FiO2: 73
   Physical Examination
   GEN: intubated, sedated, opens eyes, follows commands
   SKIN: stage 2 coccygeal ulcer, b/l heel abrasions
   HEENT: intubated
   CHEST: Inspiratory rattle, likely in the vent
   CARDIAC: Regular rhythm; [**2-14**] holosystolic murmur
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES: RUE fistula with palpable thrill, L PICC in place, no
   peripheral edeme
   NEUROLOGIC: intubated, sedated,  R pupil 4 mm and nonreactive, L pupil
   3-->2 mm.
   Labs / Radiology
   401 K/uL
   8.4 g/dL
   111 mg/dL
   4.5 mg/dL
   30 mEq/L
   3.5 mEq/L
   8 mg/dL
   101 mEq/L
   139 mEq/L
   27.0 %
   14.8 K/uL
        [image002.jpg]
                             [**2156-2-3**]  10:53 AM
                             [**2156-2-3**]  03:43 PM
                             [**2156-2-4**]  12:27 AM
                             [**2156-2-4**]  07:54 AM
                             [**2156-2-4**]  02:51 PM
                             [**2156-2-4**]  06:27 PM
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
   WBC
   16.2
   17.9
   17.7
   14.8
   Hct
   26.7
   26.2
   24.7
   25.4
   27.0
   Plt
   333
   392
   374
   401
   Cr
   3.7
   3.9
   4.3
   4.9
   3.0
   4.5
   TCO2
   35
   33
   34
   Glucose
   122
   58
   96
   94
   172
   111
   Other labs: PT / PTT / INR:11.6/26.4/1.0, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:226 IU/L, Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43 yo woman with hx ESRD [**1-13**] DM, CVA, presents with possible sepsis
   from unknown source and stroke.
   .
   # Respiratory failure: Reintubated for increased secretions, on MMV
   because of intermittent apnea. Secretions much improved today but
   minimal gag.  Successful SBT, concerning for no Gag.
   - Extubate today, reintubation OK per brother(HCP)
   #  Sepsis:  BP OK, not on pressors.  Coag negative staph in first set
   of blood cx, then GPR in cx dated [**1-31**].  Surveillance cx  negative to
   date.  On vancomycin only awaiting identity of GPR
   - daily blood cx
   - call lab to discuss speciation
   #  New stroke: bilateral white matter lacunar infarcts on head MRI.
   Mental status slowly improving. History of CVA with R hemiparesis.  Was
   on ?aspirin despite ?asa allergy.  TTE without e/o embolic course
   - continue Plavix
   - f/u neurology recommendations
   - continue atorvastatin
   .
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat.  Due for dialysis today
   - dialysis today
   # DM: episodes of hypoglycemia requiring frequent  boluses, lantus
   decreased from 10 U to 8 U yesterday
   - qachs FS
   - continue lantus 8 units qhs
   - humalog SS
   .
   #  HTN
   - hold metoprolol and lisinopril while intermittently hypotensive
   .
   # FEN: IVFs with K as above / replete lytes prn / TF (holding now in
   case of extubation)
   # PPX: H2 blocker, heparin SQ, no bowel regimen given loose stools
   # ACCESS: PIV and PICC
   # CODE:  Full, discussed
   # CONTACT:  Brother
 need to talk to him today
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2156-02-07 12:58:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with Dr.
   [**Last Name (STitle) 7375**] for key portions of the services provided.
   HPI:
   43F with esrd on hd, recent CVA, recurrent resp failure due to
   secretions and poor mental status, now awaiting trach and peg:
   24 Hour Events:
   -reintubated
   -asa changed to plavix per neuro
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-6**] 10:24 PM
   Fentanyl - [**2156-2-7**] 08:05 AM
   Other medications:
   sqh, famot, vanco with hd, nephrocaps, riss, chlorhex, levoflox 500,
   prop off, asa off, plavix, lanthrum, fent prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: No(t) NPO, Tube feeds
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Psychiatric / Sleep: No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-2-7**] 12:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.9
C (96.7
   HR: 108 (89 - 113) bpm
   BP: 149/45(69) {69/21(41) - 180/93(97)} mmHg
   RR: 15 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                    923 mL
                                                                    383 mL
   PO:
             TF:
                                                                     60 mL
                                                                     47 mL
   IVF:
                                                                    653 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                      0 mL
   Urine:
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -837 mL
                                                                    383 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   RR (Spontaneous): 440
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   SpO2: 100%
   ABG: 7.41/52/29/30/5
   Ve: 7.5 L/min
   PaO2 / FiO2: 73
   Physical Examination
   Elderly woman lying in bed, NAD.
   Following simple commands.
   R pupil ?minimally reactive, L reactive.  NCAT.
   B/L ronchi
   RRR S1 S2 [**1-17**] SM
   Abd soft.
   RUE fistula, L PICC
   Tr edema.
   Labs / Radiology
   8.4 g/dL
   401 K/uL
   111 mg/dL
   4.5 mg/dL
   30 mEq/L
   3.5 mEq/L
   8 mg/dL
   101 mEq/L
   139 mEq/L
   27.0 %
   14.8 K/uL
        [image002.jpg]
                             [**2156-2-3**]  10:53 AM
                             [**2156-2-3**]  03:43 PM
                             [**2156-2-4**]  12:27 AM
                             [**2156-2-4**]  07:54 AM
                             [**2156-2-4**]  02:51 PM
                             [**2156-2-4**]  06:27 PM
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
   WBC
   16.2
   17.9
   17.7
   14.8
   Hct
   26.7
   26.2
   24.7
   25.4
   27.0
   Plt
   333
   392
   374
   401
   Cr
   3.7
   3.9
   4.3
   4.9
   3.0
   4.5
   TCO2
   35
   33
   34
   Glucose
   122
   58
   96
   94
   172
   111
   Other labs: PT / PTT / INR:11.6/26.4/1.0, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:226 IU/L, Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Imaging: cxr:
   Microbiology: bcx: likely contaminant
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43F with DM, esrd on hd, recent CVA, admitted with presumed sepsis,
   resp failure; reintubated x 2 after recurrent resp failure due
   inability to tolerate secretions, absent gag, poor mental status.
   After discussion with family, decision to move forward with trach and
   peg.
   Resp failure
   - tolerating minimal vent support, continue [**4-14**], await trach.
   Leukocytosis and pos bcx:
   -Unclear if blood cx contaminant; will stop abx (received 7d) and
   resend cx off abx next HD.
   Low TSH
   -check FT4
   Remainder of plan as per housestaff note.
   ICU Care
   Nutrition: tube feeds
   Nutren Pulmonary (Full) - [**2156-2-7**] 08:02 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2156-02-08 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - No acute events o/n
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2156-2-8**] 01:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-8**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.3
   HR: 103 (94 - 115) bpm
   BP: 123/56(72) {106/36(52) - 154/76(88)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
                  Total In:
                                                                    858 mL
                                                                    422 mL
   PO:
                  TF:
                                                                    363 mL
                                                                    322 mL
   IVF:
                                                                    345 mL
   Blood products:
   Total out:
                                                                     10 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    848 mL
                                                                    422 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 46
   SpO2: 100%
   ABG: ///29/
   Ve: 6.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   393 K/uL
   8.4 g/dL
   115 mg/dL
   3.1 mg/dL
   29 mEq/L
   4.0 mEq/L
   4 mg/dL
   107 mEq/L
   143 mEq/L
   27.9 %
   13.6 K/uL
        [image002.jpg]
                             [**2156-2-3**]  03:43 PM
                             [**2156-2-4**]  12:27 AM
                             [**2156-2-4**]  07:54 AM
                             [**2156-2-4**]  02:51 PM
                             [**2156-2-4**]  06:27 PM
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
   WBC
   16.2
   17.9
   17.7
   14.8
   13.6
   Hct
   26.7
   26.2
   24.7
   25.4
   27.0
   27.9
   Plt
   333
   392
   374
   401
   393
   Cr
   3.7
   3.9
   4.3
   4.9
   3.0
   4.5
   3.1
   TCO2
   33
   34
   Glucose
   122
   58
   96
   94
   172
   111
   115
   Other labs: PT / PTT / INR:12.5/38.2/1.1, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:226 IU/L, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43 yo woman with hx ESRD [**1-13**] DM, CVA, presents with possible sepsis
   from unknown source and stroke.
   # Respiratory failure: Reintubated again, no gag and poor airway
   posture.  She will need tracheostomy.
   -  discuss trach/peg with IP and thoracics, likely Monday
   - NPO after MN on Sunday
   #  Sepsis:  Blood cx appear to be contaminants.  Was on levofloxacin
   and vancomycin for this, although it does not seem appropriate since no
   e/o infection apart from leukocytosis.  Improving WBC.
   - stop vanc and levofloxacin
   - follow WBC
   #  New stroke: bilateral white matter lacunar infarcts on head MRI.
   Mental status slowly improving. History of CVA with R hemiparesis.  Was
   on aspirin despite ?asa allergy.  TTE without e/o embolic course
   - continue Plavix (changed from ASA)
   - f/u neurology recommendations
   - continue atorvastatin
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat as outpt.
   - dialysis per renal
   - Change Lanthanum due to technical difficulties
   # DM: episodes of hypoglycemia requiring frequent  boluses, lantus
   decreased from 10 U to 8 U yesterday.
   - qachs FS
   - continue lantus 8 units qhs
   - humalog SS
   #  HTN
   - hold metoprolol and lisinopril while intermittently hypotensive
   # FEN: IVFs with K as above / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ, no bowel regimen given loose stools
   # ACCESS: PIV and PICC
   # CODE:  Full, discussed
   # CONTACT:  Brother
 need to talk to him today
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2156-2-8**] 06:05 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2156-02-08 10:52:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43F with ESRD on HD, recent severe CVA, recurrent resp failure due to
   inability to protect airway, awaiting trach and peg:
   24 Hour Events:
   - no events
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2156-2-8**] 09:56 AM
   Fentanyl - [**2156-2-8**] 10:06 AM
   Other medications:
   sqh, famotidine, nephrocaps, riss, lanthanam, atorvast, plavix,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Psychiatric / Sleep: No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-2-8**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 104 (95 - 115) bpm
   BP: 104/91(94) {104/36(52) - 154/91(94)} mmHg
   RR: 22 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
                  Total In:
                                                                    858 mL
                                                                    653 mL
   PO:
                  TF:
                                                                    363 mL
                                                                    443 mL
   IVF:
                                                                    345 mL
   Blood products:
   Total out:
                                                                     10 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    848 mL
                                                                    653 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 308 (308 - 308) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 46
   SpO2: 100%
   ABG: ///29/
   Ve: 5 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) Anxious
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   393 K/uL
   115 mg/dL
   3.1 mg/dL
   29 mEq/L
   4.0 mEq/L
   4 mg/dL
   107 mEq/L
   143 mEq/L
   27.9 %
   13.6 K/uL
        [image002.jpg]
                             [**2156-2-3**]  03:43 PM
                             [**2156-2-4**]  12:27 AM
                             [**2156-2-4**]  07:54 AM
                             [**2156-2-4**]  02:51 PM
                             [**2156-2-4**]  06:27 PM
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
   WBC
   16.2
   17.9
   17.7
   14.8
   13.6
   Hct
   26.7
   26.2
   24.7
   25.4
   27.0
   27.9
   Plt
   333
   392
   374
   401
   393
   Cr
   3.7
   3.9
   4.3
   4.9
   3.0
   4.5
   3.1
   TCO2
   33
   34
   Glucose
   122
   58
   96
   94
   172
   111
   115
   Other labs: PT / PTT / INR:12.5/38.2/1.1, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:226 IU/L, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   43F with ESRD on HD, recent severe CVA, recurrent resp failure due to
   inability to protect airway, awaiting trach and peg. She has been
   stable for several days with good gas exchange.
   Leukocytosis remains without any evidence of infection. All cultures
   negative. Holding antibiotic for now and monitoring.
   Will speak with IP today about the timing of trach and peg.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2156-2-8**] 06:05 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2156-02-09 07:34:00 Physician Resident Progress Note
Chief Complaint: intubated
   24 Hour Events:
   - clopidogrel discontinued in preparation for trach; IP wants to wait
   at least 5 days of clopidogrel
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-8**] 02:58 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2156-2-8**] 09:56 AM
   Heparin Sodium (Prophylaxis) - [**2156-2-8**] 08:58 PM
   Fentanyl - [**2156-2-9**] 06:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-9**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 93 (85 - 111) bpm
   BP: 173/40(32) {104/24(32) - 173/117(121)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
                  Total In:
                                                                  1,621 mL
                                                                    390 mL
   PO:
                  TF:
                                                                  1,051 mL
                                                                    340 mL
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                     15 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,606 mL
                                                                    390 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 431 (1 - 431) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 6.4 L/min
   Physical Examination
   GEN: intubated, sedated, opens eyes, follows commands
   SKIN: stage 2 coccygeal ulcer, b/l heel abrasions
   HEENT: intubated
   CHEST: loud breath sounds bilaterally
   CARDIAC: Regular rhythm; [**2-14**] holosystolic murmur
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES: RUE fistula with palpable thrill, L PICC in place, no
   peripheral edeme
   NEUROLOGIC: intubated, sedated,  R pupil 4 mm and nonreactive, L pupil
   3-->2 mm.
   Labs / Radiology
   433 K/uL
   8.5 g/dL
   159 mg/dL
   4.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   11 mg/dL
   107 mEq/L
   142 mEq/L
   28.0 %
   16.6 K/uL
        [image002.jpg]
                             [**2156-2-4**]  12:27 AM
                             [**2156-2-4**]  07:54 AM
                             [**2156-2-4**]  02:51 PM
                             [**2156-2-4**]  06:27 PM
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
   WBC
   16.2
   17.9
   17.7
   14.8
   13.6
   16.6
   Hct
   26.2
   24.7
   25.4
   27.0
   27.9
   28.0
   Plt
   333
   392
   374
   [**Telephone/Fax (3) 13714**]
   Cr
   3.7
   3.9
   4.3
   4.9
   3.0
   4.5
   3.1
   4.9
   TCO2
   33
   34
   Glucose
   122
   58
   96
   94
   172
   111
   115
   159
   Other labs: PT / PTT / INR:12.6/37.3/1.1, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:226 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with
   possible sepsis from unknown source and stroke.
   # Respiratory failure: Failed extubation due to profuse secretions, no
   gag reflex, and poor airway posture. Now intubated again, awaiting
   tracheostomy.
   - continue to hold clopidogrel; might need 5 days of clopidogrel before
   IP can perform trach
   #  Possible sepsis on admission:  Now resolved. Blood cx appear to be
   contaminants.  Was on levofloxacin and vancomycin, but both have been
   discontinued. No fever, but leukocytosis persists for unclear reason.
   Stable BP.
   - hold abx; monitor clinical status closely
   #  New stroke: bilateral white matter lacunar infarcts on head MRI.
   Mental status slowly improving. History of CVA with R hemiparesis.  Was
   on aspirin despite ?asa allergy.  TTE without e/o embolic course.
   Clopidogrel was started per neuro recs but was discontinued [**2156-2-8**] in
   preparation for trach.
   - hold clopidogrel
   - aspirin while clopidogrel is being held
   - f/u neurology recommendations
   - continue atorvastatin
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat as outpt.
   - dialysis per renal
   - ask renal about changing Lanthanum due to administering difficulties
   # DM: recent episodes of hypoglycemia requiring frequent  D10 boluses,
   but now stable after adjustment in insulin regimen.
   - continue insulin regimen
   #  HTN
   - hold metoprolol and lisinopril while given recent intermittent
   hypotensive episodes
   # FEN: IVFs with K as above / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ, no bowel regimen given loose stools
   # ACCESS: PIV and PICC
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2156-2-8**] 11:42 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM

2156-02-09 10:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43F with ESRD on HD, recent severe CVA, recurrent resp failure due to
   inability to protect airway, awaiting trach and peg. She has been
   stable for several days with good gas exchange.
   24 Hour Events:
   no events
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-8**] 02:58 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-8**] 08:58 PM
   Fentanyl - [**2156-2-9**] 06:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-9**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 91 (85 - 104) bpm
   BP: 134/41(63) {105/24(32) - 173/83(90)} mmHg
   RR: 21 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,621 mL
                                                                    447 mL
   PO:
             TF:
                                                                  1,051 mL
                                                                    386 mL
   IVF:
                                                                    150 mL
                                                                     11 mL
   Blood products:
   Total out:
                                                                     15 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,606 mL
                                                                    447 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 431 (1 - 431) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 4.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, LUE contracture
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   433 K/uL
   159 mg/dL
   4.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   11 mg/dL
   107 mEq/L
   142 mEq/L
   28.0 %
   16.6 K/uL
        [image002.jpg]
                             [**2156-2-4**]  12:27 AM
                             [**2156-2-4**]  07:54 AM
                             [**2156-2-4**]  02:51 PM
                             [**2156-2-4**]  06:27 PM
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
   WBC
   16.2
   17.9
   17.7
   14.8
   13.6
   16.6
   Hct
   26.2
   24.7
   25.4
   27.0
   27.9
   28.0
   Plt
   333
   392
   374
   [**Telephone/Fax (3) 13714**]
   Cr
   3.7
   3.9
   4.3
   4.9
   3.0
   4.5
   3.1
   4.9
   TCO2
   33
   34
   Glucose
   122
   58
   96
   94
   172
   111
   115
   159
   Other labs: PT / PTT / INR:12.6/37.3/1.1, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:226 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   43F with ESRD on HD, recent severe CVA, recurrent resp failure due to
   inability to protect airway, awaiting trach and peg. She has been
   stable for several days with good gas exchange.
   Leukocytosis remains without any evidence of infection. All cultures
   negative. Holding antibiotic for now and monitoring.
   Will speak with IP today about the timing of trach and peg. Plavix has
   been held and ASA has been started in place.
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize:
   43 yo women with ESRD on HD, CVA, respiratory failure due to aspiration
   PNA.  Failed extubation.  Awaiting trach/peg.  Will need plavix
   washout.  Plan for trach on Thursday.  On exam she is sedated,
   unresponsive.  Lung with mild crackles at the bases. Will conintinue
   current vent settings pending tracheostomy.
   CC30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2156-2-9**] 11:45 ------

2156-02-10 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - per renal:  HD tomorrow, stopped lanthanum, clarified with renal no
   more vanc
   - CM working on screening for vent rehab, family aware will be a
   different place
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-8**] 02:58 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-10**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 90 (87 - 107) bpm
   BP: 146/50(72) {123/39(63) - 161/119(123)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,179 mL
                                                                    348 mL
   PO:
             TF:
                                                                  1,067 mL
                                                                    319 mL
   IVF:
                                                                     62 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,179 mL
                                                                    348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   SpO2: 100%
   ABG: ////
   Ve: 7.5 L/min
   Physical Examination
   GEN: intubated, sedated, opens eyes, follows commands
   SKIN: stage 2 coccygeal ulcer, b/l heel abrasions
   HEENT: intubated
   CHEST: loud breath sounds bilaterally
   CARDIAC: Regular rhythm; [**2-14**] holosystolic murmur
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES: RUE fistula with palpable thrill, L PICC in place, no
   peripheral edeme
   NEUROLOGIC: intubated, sedated,  R pupil 4 mm and nonreactive, L pupil
   3-->2 mm.
   Labs / Radiology
   433 K/uL
   8.5 g/dL
   159 mg/dL
   4.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   11 mg/dL
   107 mEq/L
   142 mEq/L
   28.0 %
   16.6 K/uL
        [image002.jpg]
                             [**2156-2-4**]  12:27 AM
                             [**2156-2-4**]  07:54 AM
                             [**2156-2-4**]  02:51 PM
                             [**2156-2-4**]  06:27 PM
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
   WBC
   16.2
   17.9
   17.7
   14.8
   13.6
   16.6
   Hct
   26.2
   24.7
   25.4
   27.0
   27.9
   28.0
   Plt
   333
   392
   374
   [**Telephone/Fax (3) 13714**]
   Cr
   3.7
   3.9
   4.3
   4.9
   3.0
   4.5
   3.1
   4.9
   TCO2
   33
   34
   Glucose
   122
   58
   96
   94
   172
   111
   115
   159
   Other labs: PT / PTT / INR:12.6/37.3/1.1, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:226 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with
   possible sepsis from unknown source and stroke.
   # Respiratory failure: Failed extubation due to profuse secretions, no
   gag reflex, and poor airway posture. Now intubated again, awaiting
   tracheostomy.
   - continue to hold clopidogrel; might need 5 days of clopidogrel
   washout before IP can perform trach
   #  New stroke: bilateral white matter lacunar infarcts on head MRI.
   Mental status slowly improving. History of CVA with R hemiparesis.  Was
   on aspirin despite ?asa allergy.  TTE without e/o embolic course.
   Clopidogrel was started per neuro recs but was discontinued [**2156-2-8**] in
   preparation for trach.
   - hold clopidogrel
   - aspirin while clopidogrel is being held
   - f/u neurology recommendations
   - continue atorvastatin
   #. Persistent Leukocytosis: s/p PNA Rx, positive Blood Cx thought to be
   contaminants.  Afebrile but persistently tachycardic.  Possible sources
   include decubitus ulcers, C. diff, stress response, VAP,
   - send C. diff, sputum, blood cx
   - Labs only with HD
   - CXR
   - Add on Diff to today
s labs
   #  Possible sepsis on admission:  Now resolved. Blood cx appear to be
   contaminants.  Was on levofloxacin and vancomycin, but both have been
   discontinued. No fever, but leukocytosis persists for unclear reason.
   Stable BP.
   - hold abx; monitor clinical status closely
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat as outpt.
   - dialysis per renal
   - hold lanthanum per renal
   # DM: recent episodes of hypoglycemia requiring frequent  D10 boluses,
   but now stable after adjustment in insulin regimen.
   - continue current insulin regimen
   #  HTN
   - hold metoprolol and lisinopril while given recent intermittent
   hypotensive episodes
   # FEN: IVFs with K as above / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ, no bowel regimen given loose stools
   # ACCESS: PIV and PICC
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU

2156-02-10 10:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 yo woman with hx ESRD on HD, debilitating CVA in [**2-17**], presents with
   resp failure and presumed sepsis.
   24 Hour Events:
                   Patient unable to provide history: Sedated
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-8**] 02:58 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-10**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-10**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 105 (87 - 107) bpm
   BP: 147/40(70) {123/38(64) - 199/119(123)} mmHg
   RR: 25 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,179 mL
                                                                    509 mL
   PO:
             TF:
                                                                  1,067 mL
                                                                    467 mL
   IVF:
                                                                     62 mL
                                                                     43 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,179 mL
                                                                    509 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   SpO2: 100%
   ABG: ///29/
   Ve: 5.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, LUe contracture
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   437 K/uL
   164 mg/dL
   6.1 mg/dL
   29 mEq/L
   4.7 mEq/L
   20 mg/dL
   105 mEq/L
   142 mEq/L
   27.9 %
   16.8 K/uL
        [image002.jpg]
                             [**2156-2-4**]  07:54 AM
                             [**2156-2-4**]  02:51 PM
                             [**2156-2-4**]  06:27 PM
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
                             [**2156-2-10**]  08:50 AM
   WBC
   17.9
   17.7
   14.8
   13.6
   16.6
   16.8
   Hct
   24.7
   25.4
   27.0
   27.9
   28.0
   27.9
   Plt
   392
   374
   401
   393
   433
   437
   Cr
   3.9
   4.3
   4.9
   3.0
   4.5
   3.1
   4.9
   6.1
   TCO2
   33
   34
   Glucose
   58
   96
   94
   172
   111
   115
   159
   164
   Other labs: PT / PTT / INR:12.6/37.3/1.1, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.1 %, Eos:0.3 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:226 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   43 yo woman with hx ESRD on HD, debilitating CVA in [**2-17**], presents with
   resp failure and presumed sepsis, now resolved.
   1. Acute respiratory failure: Failed extubation x2 due to poor gag and
   secretions. Underlying CVA and possible prior pna.
   -per discussion w/ brother pursue trach/peg on thurs. holding plavix in
   anticipation
   -IP aware; will need to coord w/ Renal and HD session
   -supp vent mgmt for now
   2. Sepsis- resolved, hemodyn stable, CNS and GPRs from [**1-31**] blood w/
   neg repeat cultures and no other evidence of infxn.
   -off ABX as no source infxn
   -monitor clinically
   3. New CVA- started on ASA, on statin; holding Plavix for anticipated
   peg/trach
   -appreicate Neuro input
   4. ESRD- on HD
   5. Wound care- ask woudn care services to eval L heel and dependent
   sacral ulcer
   6. Leukocytosis- monitor clinically for signs of infxn; no need to tx
   empirically
   -will check C diff and UA, blood & sputum cx
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2156-2-10**] 02:53 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   43 yo women with CVA, ESRD on HD, recurrent respiratory failure,
   awaiting T+G, after plavix washout.
   On exam patient is sedated unresponsive.  Lung CTA.  CV: reg, abd:
   soft, ext no edema.
   A/P
   Respiratory failure:  due to poor gag and secretions.  Await T+G. for
   thursday
   Leukocytosis:  unclear if this is new infection.  Has been pan cx.
   Eval for rehab after procedure underway.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2156-2-10**] 12:01 ------

2156-02-11 07:17:00 Physician Resident Progress Note
Chief Complaint: intubated
   24 Hour Events:
 BLOOD CULTURED - At [**2156-2-10**] 11:00 AM
   set of blood cultures from dialysis catheter
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-8**] 02:58 PM
   Infusions:
   Propofol - 12 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-10**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-11**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 103 (95 - 116) bpm
   BP: 141/31(59) {120/29(57) - 199/93(129)} mmHg
   RR: 21 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,218 mL
                                                                    367 mL
   PO:
             TF:
                                                                  1,093 mL
                                                                    334 mL
   IVF:
                                                                    125 mL
                                                                     34 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,218 mL
                                                                    367 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 100%
   ABG: ///29/
   Ve: 6.2 L/min
   Physical Examination
   GEN: intubated, sedated, opens eyes, follows commands, denies pain
   SKIN: stage 2 coccygeal ulcer, b/l heel abrasions
   HEENT: intubated
   CHEST: loud breath sounds bilaterally
   CARDIAC: Regular rhythm; [**2-14**] holosystolic murmur
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES: RUE fistula with palpable thrill, L PICC in place, no
   peripheral edeme
   NEUROLOGIC: intubated, sedated,  R pupil 4 mm and nonreactive, L pupil
   3-->2 mm.
   Labs / Radiology
   437 K/uL
   8.5 g/dL
   164 mg/dL
   6.1 mg/dL
   29 mEq/L
   4.7 mEq/L
   20 mg/dL
   105 mEq/L
   142 mEq/L
   27.9 %
   16.8 K/uL
        [image002.jpg]
                             [**2156-2-4**]  07:54 AM
                             [**2156-2-4**]  02:51 PM
                             [**2156-2-4**]  06:27 PM
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
                             [**2156-2-10**]  08:50 AM
   WBC
   17.9
   17.7
   14.8
   13.6
   16.6
   16.8
   Hct
   24.7
   25.4
   27.0
   27.9
   28.0
   27.9
   Plt
   392
   374
   401
   393
   433
   437
   Cr
   3.9
   4.3
   4.9
   3.0
   4.5
   3.1
   4.9
   6.1
   TCO2
   33
   34
   Glucose
   58
   96
   94
   172
   111
   115
   159
   164
   Other labs: PT / PTT / INR:12.6/37.3/1.1, Differential-Neuts:74.9 %,
   Lymph:17.3 %, Mono:4.9 %, Eos:2.4 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:226 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with
   possible sepsis from unknown source and stroke.
   # Respiratory failure: Failed extubation due to profuse secretions, no
   gag reflex, and poor airway posture. Now intubated again, awaiting
   tracheostomy.
   - continue to hold clopidogrel; might need 5 days of clopidogrel
   washout before IP can perform trach
   #  New stroke: bilateral white matter lacunar infarcts on head MRI.
   Mental status slowly improving. History of CVA with R hemiparesis.  Was
   on aspirin despite ?asa allergy.  TTE without e/o embolic course.
   Clopidogrel was started per neuro recs but was discontinued [**2156-2-8**] in
   preparation for trach.
   - hold clopidogrel
   - aspirin while clopidogrel is being held
   - f/u neurology recommendations
   - continue atorvastatin
   #. Persistent Leukocytosis: s/p PNA Rx, positive Blood Cx thought to be
   contaminants.  Afebrile but persistently tachycardic.  Possible sources
   include decubitus ulcers, stress response, VAP.  Work up unrevealing at
   this time
   - f/u sputum, blood cx
   - Labs only with HD
   #  Possible sepsis on admission:  Now resolved. Blood cx appear to be
   contaminants.  Was on levofloxacin and vancomycin, but both have been
   discontinued. No fever, but leukocytosis persists for unclear reason.
   Stable BP.
   - hold abx; monitor clinical status closely
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat as outpt.
   - dialysis per renal
   - hold lanthanum per renal
   # DM: recent episodes of hypoglycemia requiring frequent  D10 boluses,
   but now stable after adjustment in insulin regimen.
   - continue current insulin regimen
   #  HTN: Hypertensive to 200s overnight
   - Restart Metoprolol 25mg PO BID, titrate up to 200 total dose (home
   regimen)
   - Hold lisinopril
   # FEN: IVFs with K as above / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ, no bowel regimen given loose stools
   # ACCESS: PIV and PICC
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2156-2-11**] 04:53 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-02-11 10:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 yo woman with hx ESRD on HD, debilitating CVA in [**2-17**], presents with
   resp failure and presumed sepsis, now resolved.
   24 Hour Events:
   no events
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-8**] 02:58 PM
   Infusions:
   Propofol - 12 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-10**] 04:00 PM
   Other medications:
   famotidine, nephrocaps, Lipitor, RISS, ASA, Peridex,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-11**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 105 (95 - 116) bpm
   BP: 145/55(77) {120/29(57) - 174/93(129)} mmHg
   RR: 22 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,218 mL
                                                                    511 mL
   PO:
             TF:
                                                                  1,093 mL
                                                                    464 mL
   IVF:
                                                                    125 mL
                                                                     47 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,218 mL
                                                                    511 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 100%
   ABG: ////
   Ve: 5.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, LUE contracture, L heel eschar
   Skin:  Not assessed, sacral ulcer healing nicely, no erythema
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   437 K/uL
   164 mg/dL
   6.1 mg/dL
   29 mEq/L
   4.7 mEq/L
   20 mg/dL
   105 mEq/L
   142 mEq/L
   27.9 %
   16.8 K/uL
        [image002.jpg]
                             [**2156-2-4**]  07:54 AM
                             [**2156-2-4**]  02:51 PM
                             [**2156-2-4**]  06:27 PM
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
                             [**2156-2-10**]  08:50 AM
   WBC
   17.9
   17.7
   14.8
   13.6
   16.6
   16.8
   Hct
   24.7
   25.4
   27.0
   27.9
   28.0
   27.9
   Plt
   392
   374
   401
   393
   433
   437
   Cr
   3.9
   4.3
   4.9
   3.0
   4.5
   3.1
   4.9
   6.1
   TCO2
   33
   34
   Glucose
   58
   96
   94
   172
   111
   115
   159
   164
   Other labs: PT / PTT / INR:12.6/37.3/1.1, Differential-Neuts:74.9 %,
   Lymph:17.3 %, Mono:4.9 %, Eos:2.4 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:226 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.2
   mg/dL
   Imaging: CXR- clear, ETT 5.4 cm above carina
   Microbiology: blood ([**2-10**]) pending
   sputum ([**2-10**]) not collected
   Assessment and Plan
   43 yo woman with hx ESRD on HD, debilitating CVA in [**2-17**], presents with
   resp failure and presumed sepsis, now resolved.
   1. Acute respiratory failure: Failed extubation x2 due to poor gag and
   secretions. Underlying CVA and possible prior pna.
   -per discussion w/ brother pursue trach/peg on friday. holding plavix
   in anticipation
   -IP aware; will need to coord w/ Renal and HD session
   -supp vent mgmt for now
   2. Sepsis- resolved, hemodyn stable, CNS and GPRs from [**1-31**] blood w/
   neg repeat cultures and no other evidence of infxn.
   -off ABX as no source infxn
   -monitor clinically
   3. New CVA- started on ASA, on statin; holding Plavix for anticipated
   peg/trach
   -appreicate Neuro input
   4. ESRD- on HD
   5. Leukocytosis- monitor clinically for signs of infxn; no need to tx
   empirically
   -will check C diff and UA, blood & sputum cx
   6. HTN- resume home metoprolol but at lower dose --> 25 [**Hospital1 **] today
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2156-2-11**] 04:53 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   43 yo women with h/o ESRD on HD, CVA, recurrent aspiration PNA,
   awaiting T+G.
   Exam: patient opens eyes to voice, lungs clear, no edema
   A/P
   Awaiting T+G on Friday.  Otherwise stable.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2156-2-11**] 13:48 ------

2156-02-12 11:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2156-2-12**] 02:16 AM
   - trach tomorrow
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-11**] 09:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-12**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 103 (89 - 106) bpm
   BP: 162/57(80) {118/29(55) - 180/67(91)} mmHg
   RR: 19 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,299 mL
                                                                    372 mL
   PO:
             TF:
                                                                  1,096 mL
                                                                    329 mL
   IVF:
                                                                     84 mL
                                                                     43 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    120 mL
   Urine:
   NG:
   120 mL
   Stool:
   Drains:
   Balance:
                                                                  1,299 mL
                                                                    252 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 309 (309 - 309) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 100%
   ABG: ///30/
   Ve: 5.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   392 K/uL
   9.9 g/dL
   217 mg/dL
   4.9 mg/dL
   30 mEq/L
   4.9 mEq/L
   23 mg/dL
   106 mEq/L
   142 mEq/L
   33.0 %
   11.7 K/uL
        [image002.jpg]
                             [**2156-2-4**]  02:51 PM
                             [**2156-2-4**]  06:27 PM
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
                             [**2156-2-10**]  08:50 AM
                             [**2156-2-12**]  03:36 AM
   WBC
   17.9
   17.7
   14.8
   13.6
   16.6
   16.8
   11.7
   Hct
   24.7
   25.4
   27.0
   27.9
   28.0
   27.9
   33.0
   Plt
   392
   374
   401
   393
   433
   437
   392
   Cr
   4.3
   4.9
   3.0
   4.5
   3.1
   4.9
   6.1
   4.9
   TCO2
   33
   34
   Glucose
   96
   94
   172
   111
   115
   159
   164
   217
   Other labs: PT / PTT / INR:12.6/37.3/1.1, Differential-Neuts:74.9 %,
   Lymph:17.3 %, Mono:4.9 %, Eos:2.4 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:226 IU/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with
   possible sepsis from unknown source and stroke.
   # Respiratory failure: Failed extubation due to profuse secretions, no
   gag reflex, and poor airway posture. Now intubated again, awaiting
   tracheostomy.
   - continue to hold clopidogrel; might need 5 days of clopidogrel
   washout before IP can perform trach
   #  New stroke: bilateral white matter lacunar infarcts on head MRI.
   Mental status slowly improving. History of CVA with R hemiparesis.  Was
   on aspirin despite ?asa allergy.  TTE without e/o embolic course.
   Clopidogrel was started per neuro recs but was discontinued [**2156-2-8**] in
   preparation for trach.
   - hold clopidogrel
   - aspirin while clopidogrel is being held
   - f/u neurology recommendations
   - continue atorvastatin
   #. Persistent Leukocytosis: s/p PNA Rx, positive Blood Cx thought to be
   contaminants.  Afebrile but persistently tachycardic.  Possible sources
   include decubitus ulcers, stress response, VAP.  Work up unrevealing at
   this time
   - f/u sputum, blood cx
   - Labs only with HD
   #  Possible sepsis on admission:  Now resolved. Blood cx appear to be
   contaminants.  Was on levofloxacin and vancomycin, but both have been
   discontinued. No fever, but leukocytosis persists for unclear reason.
   Stable BP.
   - hold abx; monitor clinical status closely
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat as outpt.
   - dialysis per renal
   - hold lanthanum per renal
   # DM: recent episodes of hypoglycemia requiring frequent  D10 boluses,
   but now stable after adjustment in insulin regimen.
   - continue current insulin regimen
   #  HTN: Hypertensive to 200s overnight
   - Restart Metoprolol 25mg PO BID, titrate up to 200 total dose (home
   regimen)
   - Hold lisinopril
   # FEN: IVFs with K as above / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ, no bowel regimen given loose stools
   # ACCESS: PIV and PICC
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-02-12 11:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 yo woman with hx ESRD on HD, debilitating CVA in [**2-17**], presents with
   resp failure and presumed sepsis, now resolved.
   24 Hour Events:
   no events. emesis this AM. residuals checked but none seen.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-11**] 09:44 PM
   Other medications:
   [**Last Name (LF) **], [**First Name3 (LF) **], Nephrocaps, Peridex, famotidine, metoprolol, RISS, Lantus
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-12**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 103 (89 - 106) bpm
   BP: 162/57(80) {118/29(55) - 180/67(91)} mmHg
   RR: 19 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,299 mL
                                                                    371 mL
   PO:
             TF:
                                                                  1,096 mL
                                                                    329 mL
   IVF:
                                                                     84 mL
                                                                     43 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    120 mL
   Urine:
   NG:
   120 mL
   Stool:
   Drains:
   Balance:
                                                                  1,299 mL
                                                                    251 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 309 (309 - 309) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 100%
   ABG: ///30/
   Ve: 5.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, LUE contracture, L heel eschar stable
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   392 K/uL
   217 mg/dL
   4.9 mg/dL
   30 mEq/L
   4.9 mEq/L
   23 mg/dL
   106 mEq/L
   142 mEq/L
   33.0 %
   11.7 K/uL
        [image002.jpg]
                             [**2156-2-4**]  02:51 PM
                             [**2156-2-4**]  06:27 PM
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
                             [**2156-2-10**]  08:50 AM
                             [**2156-2-12**]  03:36 AM
   WBC
   17.9
   17.7
   14.8
   13.6
   16.6
   16.8
   11.7
   Hct
   24.7
   25.4
   27.0
   27.9
   28.0
   27.9
   33.0
   Plt
   392
   374
   401
   393
   433
   437
   392
   Cr
   4.3
   4.9
   3.0
   4.5
   3.1
   4.9
   6.1
   4.9
   TCO2
   33
   34
   Glucose
   96
   94
   172
   111
   115
   159
   164
   217
   Other labs: PT / PTT / INR:12.6/37.3/1.1, Differential-Neuts:74.9 %,
   Lymph:17.3 %, Mono:4.9 %, Eos:2.4 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:226 IU/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   43 yo woman with hx ESRD on HD, debilitating CVA in [**2-17**], presents with
   resp failure and presumed sepsis, now resolved.
   1. Acute respiratory failure: Failed extubation x2 due to poor gag and
   secretions. Underlying CVA and possible prior pna.
   -per discussion w/ brother pursue trach/peg on friday. holding plavix
   in anticipation. hold tube feeds and heparin tonight.
   -IP aware; will need to coord w/ Renal and HD session
   -supp vent mgmt for now
   2. Sepsis- resolved, hemodyn stable, CNS and GPRs from [**1-31**] blood w/
   neg repeat cultures and no other evidence of infxn.
   -off ABX as no source infxn
   -monitor clinically
   3. New CVA- started on [**Month/Year (2) **], on statin; holding Plavix for anticipated
   peg/trach
   -appreicate Neuro input
   4. ESRD- on HD
   5. Leukocytosis- improving, monitor clinically for signs of infxn; no
   need to tx empirically
   6. HTN- cont metorpolol ; up-titrate to 100 [**Hospital1 **] today and monitor
   7. DM- increase Lantus to 11u qd
   ICU Care
   Nutrition:
   Comments: tube feeds per NGT
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   43 yo women with CVAs, respiratory failure due to recurrent aspiration,
   T+G tomorrow.
   Exam:  sedated comfortable.  Lungs; CTA, CV: reg, abd: soft  ext: no
   edema
   Await T+G tomorrow, than can go to rehab.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2156-2-12**] 14:16 ------

2156-02-13 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2156-2-12**] 04:18 PM
 SPUTUM CULTURE - At [**2156-2-12**] 04:18 PM
   - got HD
   - febrile to 100.4 axillary - blood/sputum cx, CXR
   - per IP can still get trach this morning despite fevers, ? PEG
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2156-2-13**] 05:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-13**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.6
C (99.6
   HR: 93 (88 - 119) bpm
   BP: 114/36(56) {99/21(46) - 163/85(105)} mmHg
   RR: 24 (11 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,274 mL
                                                                     45 mL
   PO:
             TF:
                                                                  1,095 mL
   IVF:
                                                                    110 mL
                                                                     45 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                   -446 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 272 (245 - 309) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 6.9 L/min
   Physical Examination
   GEN: intubated, sedated, opens eyes, follows commands, denies pain
   SKIN: stage 2 coccygeal ulcer, b/l heel abrasions
   HEENT: intubated
   CHEST: loud breath sounds bilaterally
   CARDIAC: Regular rhythm; [**2-14**] holosystolic murmur
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES: RUE fistula with palpable thrill, L PICC in place, no
   peripheral edeme
   Labs / Radiology
   411 K/uL
   8.4 g/dL
   229 mg/dL
   3.2 mg/dL
   31 mEq/L
   4.5 mEq/L
   16 mg/dL
   104 mEq/L
   142 mEq/L
   28.1 %
   21.1 K/uL
        [image002.jpg]
                             [**2156-2-4**]  06:27 PM
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
                             [**2156-2-10**]  08:50 AM
                             [**2156-2-12**]  03:36 AM
                             [**2156-2-13**]  03:12 AM
   WBC
   17.9
   17.7
   14.8
   13.6
   16.6
   16.8
   11.7
   21.1
   Hct
   24.7
   25.4
   27.0
   27.9
   28.0
   27.9
   33.0
   28.1
   Plt
   392
   374
   401
   393
   433
   437
   392
   411
   Cr
   4.3
   4.9
   3.0
   4.5
   3.1
   4.9
   6.1
   4.9
   3.2
   TCO2
   34
   Glucose
   96
   94
   172
   111
   115
   159
   164
   217
   229
   Other labs: PT / PTT / INR:11.9/31.3/1.0, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:226 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:1.8
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with
   possible sepsis from unknown source and stroke, now with leukocytosis
   and fever.
   .
   # Leukocytosis and fever:  gram stain with G+ cocci in pairs/clusters.
   Recently discontinued vancomycin.  Possible VAP, but CXR yesterday
   unremarkable.  No clear source of skin infection (heel ulcers
   improving).   Endocarditis also on the differential.  Urine has not
   been sampled.  Previous c diff negative and no diarrhea.
   Non-infectious causes such as pancreatitis also on the differential.
   - restart vancomycin
   - f/u sputum cx
   - resent sputum cx
   - f/u blood cx
   - straight cath for UA/UCx
   - lipase/LFTs
   .
   # Respiratory failure: Failed extubation due to profuse secretions, no
   gag reflex, and poor airway posture. Now intubated again, awaiting
   tracheostomy.
   - continue to hold clopidogrel
   - trach today
   #  New stroke: bilateral white matter lacunar infarcts on head MRI.
   Mental status slowly improving. History of CVA with R hemiparesis.  Was
   on aspirin despite ?asa allergy.  TTE without e/o embolic course.
   Clopidogrel was started per neuro recs but was discontinued [**2156-2-8**] in
   preparation for trach.
   - hold clopidogrel
 will d/w IP when to restart
   - aspirin while clopidogrel is being held
   - f/u neurology recommendations
   - continue atorvastatin
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat as outpt.
   - dialysis per renal
   # DM: recent episodes of hypoglycemia requiring frequent  D10 boluses,
   but now stable after adjustment in insulin regimen.
   - continue current insulin regimen
   #  HTN:
   - titrate up metoprolol PRN (home dose total 200 mg daily)
   - hold lisinopril
   # FEN: IVFs / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ (held dose this AM), no bowel regimen
   given loose stools
   # ACCESS: PIV and PICC
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU

2156-02-13 10:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 yo woman with hx ESRD on HD, debilitating CVA in [**2-17**], presents with
   resp failure and presumed sepsis, now resolved.
   24 Hour Events:
   New fever yest am- pan cultured and repeat CXR obtained.
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2156-2-13**] 05:33 AM
   Other medications:
   famotidine, Nephrocaps, Peridex, Lipitor, Propofol gtt, ASA, Hep sc,
   RISS, Lantus, Lopressor
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-13**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.3
C (99.1
   HR: 94 (88 - 119) bpm
   BP: 100/40(54) {95/19(32) - 162/85(105)} mmHg
   RR: 19 (11 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,274 mL
                                                                    143 mL
   PO:
             TF:
                                                                  1,095 mL
   IVF:
                                                                    110 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                   -446 mL
                                                                    143 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 276 (245 - 306) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, L heel bandaged, LUE contracture
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   411 K/uL
   229 mg/dL
   3.2 mg/dL
   31 mEq/L
   4.5 mEq/L
   16 mg/dL
   104 mEq/L
   142 mEq/L
   28.1 %
   21.1 K/uL
        [image002.jpg]
                             [**2156-2-4**]  06:27 PM
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
                             [**2156-2-10**]  08:50 AM
                             [**2156-2-12**]  03:36 AM
                             [**2156-2-13**]  03:12 AM
   WBC
   17.9
   17.7
   14.8
   13.6
   16.6
   16.8
   11.7
   21.1
   Hct
   24.7
   25.4
   27.0
   27.9
   28.0
   27.9
   33.0
   28.1
   Plt
   392
   374
   401
   393
   433
   437
   392
   411
   Cr
   4.3
   4.9
   3.0
   4.5
   3.1
   4.9
   6.1
   4.9
   3.2
   TCO2
   34
   Glucose
   96
   94
   172
   111
   115
   159
   164
   217
   229
   Other labs: PT / PTT / INR:11.9/31.3/1.0, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:226 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:1.8
   mg/dL
   Imaging: CXR ([**2-12**] pm)- no new infiltrate
   Microbiology: All blood cx- after admit neg or pending
   C diff- neg on [**2-10**] most recently
   Sputum ([**2-12**])- GPC in pairs and GPC in clusters, yeast
   Assessment and Plan
   43 yo woman with hx ESRD on HD, debilitating CVA in [**2-17**], presents with
   resp failure and presumed sepsis, now resolved. New fever on [**2-12**] of
   unclear source.
   1. Acute respiratory failure: Failed extubation x2 due to poor gag and
   secretions. Underlying CVA and possible prior pna.
   -per discussion w/ brother pursue trach/peg on friday. holding plavix
   in anticipation. hold tube feeds and heparin tonight.
   -IP aware; will need to coord w/ Renal and HD session
   -supp vent mgmt for now
   2. Fever- w/ new leukocytosis concern for infxn, abnl sputum on [**2-12**] but
   no clear infiltrate on imaging.
   -start vancomycin w/ HD
   -straight cath for UA to round out pan cx
   -check LFTs, amylase lipase
   -no evidence of phlebitis
   3. New CVA w/ prior CVA hx- started on ASA, on statin; holding Plavix
   for anticipated peg/trach
   -appreicate Neuro input
   4. ESRD- on HD
   5. HTN- cont metorpolol ; up-titrate to 100 [**Hospital1 **] today and monitor
   6. DM- increased Lantus to 11u qd yest; monitor as npo today
   ICU Care
   Nutrition:
   Comments: tf held for trach today
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**] and house staff team.
   I have reviewed above not, and agree with assessment and plan.  Would
   add/emphasize:
   43 yo women with h/o CVAs, recurrent aspiration, respiratory failure,
   awaiting T+G.  Had fever spike yesterday and leukocytosis.  No clear
   source.  Has been pan cultured, but antibiotics withheld.  Otherwise
   clinical status has not changed.
   Exam:  clear lungs, Cv: reg, abd: sot, ext: no edema.
   CXR: clear
   A/P
   Respiratory failure:  will get trach today, then could possibly come
   off vent.
   Fevers: no clear source, hold antibiotics unless condition worsens and
   follow up cx.
   CC 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2156-2-13**] 14:55 ------

2156-02-14 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - IP was about to trach her then discovered large thyroid, deferring to
   thoracic surgery who planned to operate on [**2-17**]
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-13**] 12:26 PM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2156-2-13**] 06:53 PM
   Heparin Sodium (Prophylaxis) - [**2156-2-13**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-14**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 83 (82 - 97) bpm
   BP: 141/54(75) {90/19(32) - 162/88(103)} mmHg
   RR: 22 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                    639 mL
                                                                    244 mL
   PO:
             TF:
                                                                     60 mL
                                                                    151 mL
   IVF:
                                                                    489 mL
                                                                     93 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                      0 mL
   Urine:
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    539 mL
                                                                    244 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   Vt (Spontaneous): 285 (255 - 416) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 2.5 L/min
   Physical Examination
   GEN: intubated, sedated, opens eyes, follows commands, denies pain
   SKIN: stage 2 coccygeal ulcer, b/l heel abrasions
   HEENT: intubated
   CHEST: loud breath sounds bilaterally
   CARDIAC: Regular rhythm; [**2-14**] holosystolic murmur
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES: RUE fistula with palpable thrill, L PICC in place, no
   peripheral edeme
   Labs / Radiology
   398 K/uL
   7.9 g/dL
   105 mg/dL
   4.7 mg/dL
   29 mEq/L
   4.7 mEq/L
   26 mg/dL
   103 mEq/L
   142 mEq/L
   25.9 %
   14.6 K/uL
        [image002.jpg]
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
                             [**2156-2-10**]  08:50 AM
                             [**2156-2-12**]  03:36 AM
                             [**2156-2-13**]  03:12 AM
                             [**2156-2-14**]  02:55 AM
   WBC
   17.9
   17.7
   14.8
   13.6
   16.6
   16.8
   11.7
   21.1
   14.6
   Hct
   24.7
   25.4
   27.0
   27.9
   28.0
   27.9
   33.0
   28.1
   25.9
   Plt
   392
   374
   401
   393
   433
   437
   392
   411
   398
   Cr
   4.9
   3.0
   4.5
   3.1
   4.9
   6.1
   4.9
   3.2
   4.7
   TCO2
   34
   Glucose
   94
   172
   111
   115
   159
   164
   217
   229
   105
   Other labs: PT / PTT / INR:11.9/31.3/1.0, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:152 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with
   possible sepsis from unknown source and stroke, now with leukocytosis
   and fever.
   .
   # Respiratory failure: Failed extubation due to profuse secretions, no
   gag reflex, and poor airway posture. Now intubated again, awaiting
   tracheostomy.
   - continue to hold clopidogrel
   - trach Monday per Thoracics given large thyroid
   .
   # Leukocytosis and fever:  gram stain with G+ cocci in pairs/clusters.
   Recently discontinued vancomycin.  Possible VAP, but CXR yesterday
   unremarkable.  No clear source of skin infection (heel ulcers
   improving).   Endocarditis also on the differential.  Urine has not
   been sampled.  Previous c diff negative and no diarrhea.
   Non-infectious causes such as pancreatitis also on the differential.
   - restart vancomycin
   - f/u sputum cx
   - resent sputum cx
   - f/u blood cx
   - straight cath for UA/UCx
   - lipase/LFTs
   .
   #  New stroke: bilateral white matter lacunar infarcts on head MRI.
   Mental status slowly improving. History of CVA with R hemiparesis.  Was
   on aspirin despite ?asa allergy.  TTE without e/o embolic course.
   Clopidogrel was started per neuro recs but was discontinued [**2156-2-8**] in
   preparation for trach.
   - hold clopidogrel
 will d/w IP when to restart
   - aspirin while clopidogrel is being held
   - f/u neurology recommendations
   - continue atorvastatin
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat as outpt.
   - dialysis per renal
   # DM: recent episodes of hypoglycemia requiring frequent  D10 boluses,
   but now stable after adjustment in insulin regimen.
   - continue current insulin regimen
   #  HTN:
   - titrate up metoprolol PRN (home dose total 200 mg daily)
   - hold lisinopril
   # FEN: IVFs / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ (held dose this AM), no bowel regimen
   given loose stools
   # ACCESS: PIV and PICC
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-2-13**] 09:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-02-14 08:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    43 yo woman with hx ESRD on HD, debilitating CVA in [**2-17**], presents
   with resp failure and presumed sepsis, now resolved.  Persistent resp
   failure, now awaiting tracheostomy
   24 Hour Events:
   Due to thyromegaly IP will not be able to do trach, so deferred to
   thoracics, and planned for Monday.  Spiked temp yesterday and
   vancomycin restarted.  Stable on MMV
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-13**] 12:26 PM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2156-2-13**] 06:53 PM
   Heparin Sodium (Prophylaxis) - [**2156-2-13**] 10:00 PM
   Famotidine
   Nephrocaps
   Chlorhexidine
   Atorvastatin
   ASA
   RISS
   Lantus
   Metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-14**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 83 (82 - 97) bpm
   BP: 141/54(75) {90/19(37) - 162/88(103)} mmHg
   RR: 22 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                    639 mL
                                                                    263 mL
   PO:
             TF:
                                                                     60 mL
                                                                    163 mL
   IVF:
                                                                    489 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                      0 mL
   Urine:
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    539 mL
                                                                    263 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   Vt (Spontaneous): 751 (255 - 751) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 9.1 L/min
   Physical Examination
   Gen:sedated, intubated, unresponsive but some spontaneous grimacing
   HEENT:PERRL
   CV:RRR, no m/r/g
   PULM: CTA bilat
   ABD:soft, NTND
   EXTREM:tr edema
   NEURO:unresponsive
   Labs / Radiology
   7.9 g/dL
   398 K/uL
   105 mg/dL
   4.7 mg/dL
   29 mEq/L
   4.7 mEq/L
   26 mg/dL
   103 mEq/L
   142 mEq/L
   25.9 %
   14.6 K/uL
        [image002.jpg]
                             [**2156-2-5**]  04:01 AM
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
                             [**2156-2-10**]  08:50 AM
                             [**2156-2-12**]  03:36 AM
                             [**2156-2-13**]  03:12 AM
                             [**2156-2-14**]  02:55 AM
   WBC
   17.9
   17.7
   14.8
   13.6
   16.6
   16.8
   11.7
   21.1
   14.6
   Hct
   24.7
   25.4
   27.0
   27.9
   28.0
   27.9
   33.0
   28.1
   25.9
   Plt
   392
   374
   401
   393
   433
   437
   392
   411
   398
   Cr
   4.9
   3.0
   4.5
   3.1
   4.9
   6.1
   4.9
   3.2
   4.7
   TCO2
   34
   Glucose
   94
   172
   111
   115
   159
   164
   217
   229
   105
   Other labs: PT / PTT / INR:11.9/31.3/1.0, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:152 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   43 yo woman with hx ESRD on HD, debilitating CVA in [**2-17**], presents with
   resp failure and presumed sepsis, now resolved. New fever on [**2-12**] of
   unclear source.
   1. Acute respiratory failure: Failed extubation x2 due to poor gag and
   secretions. Underlying CVA and possible prior pna.
   -per discussion w/ brother pursue trach/peg on Monday by thoracics.
   holding plavix in anticipation. hold tube feeds and heparin tonight.
   -thoracics aware; will need to coord w/ Renal and HD session
   -supp vent mgmt for now
   2. Fever- w/ new leukocytosis concern for infxn, abnl sputum on [**2-12**] but
   no clear infiltrate on imaging.
   -start vancomycin w/ HD
   -straight cath for UA to round out pan cx
   -check LFTs, amylase lipase
   -no evidence of phlebitis
   3. New CVA w/ prior CVA hx- started on ASA, on statin; holding Plavix
   for anticipated peg/trach
   -appreicate Neuro input
   4. ESRD- on HD.  Getting HD today
   5. HTN- cont metorpolol ; up-titrate to 100 [**Hospital1 **] today and monitor
   6. DM- increased Lantus to 11u qd [**2-12**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) at goal.
   Glycemic Control:  lantus and RISS
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP: chlorhexidine, HOB 30 degrees
   Communication:  brother
   [**Name (NI) 36**] status: FULL
   Disposition :ICU
   Total time spent: 35 min, patient is critically ill

2156-02-15 08:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 yo woman with hx ESRD on HD, debilitating CVA in [**2-17**], presents with
   resp failure and presumed sepsis, now resolved.  Persistent resp
   failure, now awaiting tracheostomy
   24 Hour Events:
   On schedule for trach and PEG tomorrow.
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-13**] 12:26 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2156-2-15**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2156-2-15**] 08:03 AM
   Famotidine
   Atorvastatin
   ASA
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-15**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 111 (82 - 119) bpm
   BP: 183/39(65) {76/14(36) - 183/90(94)} mmHg
   RR: 20 (7 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.3 kg (admission): 64.3 kg
   Height: 65 Inch
                  Total In:
                                                                  1,655 mL
                                                                    439 mL
   PO:
                  TF:
                                                                    854 mL
                                                                    379 mL
   IVF:
                                                                    721 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    355 mL
                                                                    439 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   Vt (Spontaneous): 308 (220 - 973) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///35/
   Ve: 4.4 L/min
   Physical Examination
   Gen:intubated, sedated, NAD
   HEENT: PERRL
   CV:RRR, no m/r/g
   PULM: CTA bilat
   ABD:soft, NTND
   EXTREM: no edema
   NEURO:sedated, chronic neuro deficits
   Labs / Radiology
   7.8 g/dL
   384 K/uL
   187 mg/dL
   3.1 mg/dL
   35 mEq/L
   4.1 mEq/L
   15 mg/dL
   105 mEq/L
   146 mEq/L
   26.8 %
   10.8 K/uL
        [image002.jpg]
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
                             [**2156-2-10**]  08:50 AM
                             [**2156-2-12**]  03:36 AM
                             [**2156-2-13**]  03:12 AM
                             [**2156-2-14**]  02:55 AM
                             [**2156-2-15**]  03:58 AM
   WBC
   17.7
   14.8
   13.6
   16.6
   16.8
   11.7
   21.1
   14.6
   10.8
   Hct
   25.4
   27.0
   27.9
   28.0
   27.9
   33.0
   28.1
   25.9
   26.8
   Plt
   374
   401
   393
   433
   437
   392
   [**Telephone/Fax (3) 13832**]
   Cr
   3.0
   4.5
   3.1
   4.9
   6.1
   4.9
   3.2
   4.7
   3.1
   TCO2
   34
   Glucose
   172
   111
   115
   159
   164
   217
   [**Telephone/Fax (3) 13833**]
   Other labs: PT / PTT / INR:12.5/29.7/1.1, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:152 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   43 yo woman with hx ESRD on HD, debilitating CVA in [**2-17**], presents with
   resp failure and presumed sepsis, now resolved. New fever on [**2-12**] of
   unclear source.
   1. Acute respiratory failure: Failed extubation x2 due to poor gag and
   secretions. Underlying CVA and possible prior pna.
   -per discussion w/ brother pursue trach/peg on Monday by thoracics.
   holding plavix in anticipation. hold tube feeds and heparin tonight.
   -supp vent mgmt for now
   2. Fever- trending down since starting vanco.  Continue vanc, f/u cxs.
   If all negative would treat empirically for 8 days
   3. New CVA w/ prior CVA hx- started on ASA, on statin; holding Plavix
   for anticipated peg/trach
   -appreciate Neuro input
   4. ESRD- on HD. T, Th, Sa schedule
   5. HTN- cont metorpolol
   6. DM- increased Lantus to 11u qd on [**2-12**] . Give
 dose tonight as well
   with NPO after 2am
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-2-15**] 06:08 AM 45 mL/hour. Hypernatremia,
   increase free water
   Glycemic Control:  Lantus, RISS
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: sc heparin. Hold in AM for OR
   Stress ulcer:  famotidine
   VAP: chlorhexidine, HOB 30 degrees
   Comments:
   Communication:  family
   Code status: FULL
   Disposition : ICU
   Total time spent: 35 min

2156-02-15 08:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Transiently hypotensive after HD, responded to 2 500mL boluses
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-13**] 12:26 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2156-2-15**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2156-2-15**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-15**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 111 (82 - 119) bpm
   BP: 183/39(65) {76/14(36) - 183/90(94)} mmHg
   RR: 20 (7 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.3 kg (admission): 64.3 kg
   Height: 65 Inch
                  Total In:
                                                                  1,655 mL
                                                                    439 mL
   PO:
                  TF:
                                                                    854 mL
                                                                    379 mL
   IVF:
                                                                    721 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    355 mL
                                                                    439 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   Vt (Spontaneous): 308 (220 - 973) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///35/
   Ve: 4.4 L/min
   Physical Examination
   GEN: intubated, sedated, opens eyes, follows commands, denies pain
   SKIN: stage 2 coccygeal ulcer, b/l heel abrasions
   HEENT: intubated
   CHEST: loud breath sounds bilaterally
   CARDIAC: Regular rhythm; [**2-14**] holosystolic murmur
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES: RUE fistula with palpable thrill, L PICC in place, no
   peripheral edeme
   Labs / Radiology
   384 K/uL
   7.8 g/dL
   187 mg/dL
   3.1 mg/dL
   35 mEq/L
   4.1 mEq/L
   15 mg/dL
   105 mEq/L
   146 mEq/L
   26.8 %
   10.8 K/uL
        [image002.jpg]
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
                             [**2156-2-10**]  08:50 AM
                             [**2156-2-12**]  03:36 AM
                             [**2156-2-13**]  03:12 AM
                             [**2156-2-14**]  02:55 AM
                             [**2156-2-15**]  03:58 AM
   WBC
   17.7
   14.8
   13.6
   16.6
   16.8
   11.7
   21.1
   14.6
   10.8
   Hct
   25.4
   27.0
   27.9
   28.0
   27.9
   33.0
   28.1
   25.9
   26.8
   Plt
   374
   401
   393
   433
   437
   392
   [**Telephone/Fax (3) 13832**]
   Cr
   3.0
   4.5
   3.1
   4.9
   6.1
   4.9
   3.2
   4.7
   3.1
   TCO2
   34
   Glucose
   172
   111
   115
   159
   164
   217
   [**Telephone/Fax (3) 13833**]
   Other labs: PT / PTT / INR:12.5/29.7/1.1, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:152 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with
   possible sepsis from unknown source and stroke, now with leukocytosis
   and fever.
   .
   # Respiratory failure: Failed extubation due to profuse secretions, no
   gag reflex, and poor airway posture. Now intubated again, awaiting
   tracheostomy.
   - continue to hold clopidogrel
   - trach Monday per Thoracics given large thyroid
   .
   # Leukocytosis and fever:  gram stain with G+ cocci in pairs/clusters.
   Recently discontinued vancomycin.  Possible VAP, but CXR yesterday
   unremarkable.  No clear source of skin infection (heel ulcers
   improving).   Endocarditis also on the differential.  Urine has not
   been sampled.  Previous c diff negative and no diarrhea.
   Non-infectious causes such as pancreatitis also on the differential.
   - restart vancomycin
   - f/u sputum cx
   - resent sputum cx
   - f/u blood cx
   - straight cath for UA/UCx
   - lipase/LFTs
   .
   #  New stroke: bilateral white matter lacunar infarcts on head MRI.
   Mental status slowly improving. History of CVA with R hemiparesis.  Was
   on aspirin despite ?asa allergy.  TTE without e/o embolic course.
   Clopidogrel was started per neuro recs but was discontinued [**2156-2-8**] in
   preparation for trach.
   - hold clopidogrel
 will d/w IP when to restart
   - aspirin while clopidogrel is being held
   - f/u neurology recommendations
   - continue atorvastatin
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat as outpt.
   - dialysis per renal
   # DM: recent episodes of hypoglycemia requiring frequent  D10 boluses,
   but now stable after adjustment in insulin regimen.
   - continue current insulin regimen
   #  HTN:
   - titrate up metoprolol PRN (home dose total 200 mg daily)
   - hold lisinopril
   # FEN: IVFs / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ (held dose this AM), no bowel regimen
   given loose stools
   # ACCESS: PIV and PICC
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-2-15**] 06:08 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-02-16 03:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - no events
   -per thoracics:  add-on to OR for [**2-16**] for trach/PEG, consented brother
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-13**] 12:26 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2156-2-15**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2156-2-15**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-16**] 03:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 90 (86 - 111) bpm
   BP: 157/73(94) {105/31(49) - 183/97(104)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.3 kg (admission): 64.3 kg
   Height: 65 Inch
                  Total In:
                                                                  1,254 mL
                                                                     84 mL
   PO:
                  TF:
                                                                  1,094 mL
                                                                     84 mL
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,254 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   Vt (Spontaneous): 286 (286 - 445) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///35/
   Ve: 4.5 L/min
   Physical Examination
   GEN: intubated, sedated,
   SKIN: stage 2 coccygeal ulcer, b/l heel abrasions
   HEENT: intubated
   CHEST: loud breath sounds bilaterally
   CARDIAC: Regular rhythm; [**2-14**] holosystolic murmur
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES: RUE fistula with palpable thrill, L PICC in place, no
   peripheral edema
   Labs / Radiology
   384 K/uL
   7.8 g/dL
   187 mg/dL
   3.1 mg/dL
   35 mEq/L
   4.1 mEq/L
   15 mg/dL
   105 mEq/L
   146 mEq/L
   26.8 %
   10.8 K/uL
        [image002.jpg]
                             [**2156-2-6**]  03:18 AM
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
                             [**2156-2-10**]  08:50 AM
                             [**2156-2-12**]  03:36 AM
                             [**2156-2-13**]  03:12 AM
                             [**2156-2-14**]  02:55 AM
                             [**2156-2-15**]  03:58 AM
   WBC
   17.7
   14.8
   13.6
   16.6
   16.8
   11.7
   21.1
   14.6
   10.8
   Hct
   25.4
   27.0
   27.9
   28.0
   27.9
   33.0
   28.1
   25.9
   26.8
   Plt
   374
   401
   393
   433
   437
   392
   [**Telephone/Fax (3) 13832**]
   Cr
   3.0
   4.5
   3.1
   4.9
   6.1
   4.9
   3.2
   4.7
   3.1
   TCO2
   34
   Glucose
   172
   111
   115
   159
   164
   217
   [**Telephone/Fax (3) 13833**]
   Other labs: PT / PTT / INR:12.5/29.7/1.1, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:152 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with
   possible sepsis from unknown source and stroke, improved fever.
   .
   # Respiratory failure: Failed extubation due to profuse secretions, no
   gag reflex, and poor airway posture. Now intubated again, awaiting
   tracheostomy.
   - continue to hold clopidogrel
   - trach/ PEG Monday in OR per Thoracics given large thyroid
   .
   # Leukocytosis and fever:   Afebrile since restarting vanc.   CXR
   unremarkable.  UA clean.  No clear source of skin infection (heel
   ulcers improving). Previous c diff negative and no diarrhea. LFTs NL
   including amylase/lipase
   - continue vancomycin
   - f/u sputum cx
   - f/u blood cx
   -monitor fever curve
   .
   #  New stroke: bilateral white matter lacunar infarcts on head MRI.
   Mental status slowly improving. History of CVA with R hemiparesis.  Was
   on aspirin despite ?asa allergy.  TTE without e/o embolic course.
   Clopidogrel was started per neuro recs but was discontinued [**2156-2-8**] in
   preparation for trach.
   - hold clopidogrel
 will d/w IP when to restart
   - aspirin while clopidogrel is being held
   - f/u neurology recommendations
   - continue atorvastatin
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat as outpt.
   - dialysis per renal Tuesday
   # DM: recent episodes of hypoglycemia requiring frequent  D10 boluses,
   but now stable after adjustment in insulin regimen.
   - continue current insulin regimen
   #  HTN:
   - titrate up metoprolol PRN (home dose total 200 mg daily)
   - hold lisinopril
   # Hypernatremia:
   - increase FW to 100q6 via NG
   # FEN: IVFs / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ (held dose this AM), no bowel regimen
   given loose stools
   # ACCESS: PIV and PICC
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU

2156-02-16 12:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 yo women with DM I respiratory failure due to recurrent aspiration
   PNA in setting of recurrent CVAs. Awaiting T+G
   24 Hour Events:
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-13**] 12:26 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-15**] 10:00 PM
   Other medications:
   famotadine
   nephrocaps
   lipitor
   asa
   hep s/q
   SSI
   lopressor
   glargine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-16**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 100 (86 - 100) bpm
   BP: 147/85(100) {105/31(49) - 166/97(104)} mmHg
   RR: 20 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
                  Total In:
                                                                  1,254 mL
                                                                    164 mL
   PO:
                  TF:
                                                                  1,094 mL
                                                                     84 mL
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,254 mL
                                                                    164 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 0 (0 - 340) mL
   Vt (Spontaneous): 417 (286 - 468) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 4.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   407 K/uL
   96 mg/dL
   4.8 mg/dL
   32 mEq/L
   4.2 mEq/L
   28 mg/dL
   105 mEq/L
   145 mEq/L
   27.0 %
   13.9 K/uL
        [image002.jpg]
                             [**2156-2-6**]  01:50 PM
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
                             [**2156-2-10**]  08:50 AM
                             [**2156-2-12**]  03:36 AM
                             [**2156-2-13**]  03:12 AM
                             [**2156-2-14**]  02:55 AM
                             [**2156-2-15**]  03:58 AM
                             [**2156-2-16**]  03:59 AM
   WBC
   14.8
   13.6
   16.6
   16.8
   11.7
   21.1
   14.6
   10.8
   13.9
   Hct
   27.0
   27.9
   28.0
   27.9
   33.0
   28.1
   25.9
   26.8
   27.0
   Plt
   [**Telephone/Fax (3) 13856**]37
   392
   411
   398
   384
   407
   Cr
   4.5
   3.1
   4.9
   6.1
   4.9
   3.2
   4.7
   3.1
   4.8
   TCO2
   34
   Glucose
   111
   115
   159
   164
   [**Telephone/Fax (2) 13857**]87
   96
   Other labs: PT / PTT / INR:11.8/30.2/1.0, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:152 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Respiratory failure:  Should wean off vent quickly after T+G.
   Feves/leukocytosis:  has been stable, no clear source.  Will stop
   vancomycin.
   CVA: to be on plavix
   ESRD on HD:  To get HD tomorrow.
   HTN:  continue current meds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2156-02-17 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2156-2-16**] 08:40 AM
 OR SENT - At [**2156-2-16**] 01:26 PM
   for trach and PEG.
 OR RECEIVED - At [**2156-2-16**] 04:34 PM
   - successful trach and G tube placement per surgery
   - clopidogrel to start [**2156-2-17**]
   - case management is actively working to find vent rehab; [**Hospital 328**] Rehab
   is a possibility
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2156-2-17**] 02:00 AM
   Metoprolol - [**2156-2-17**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-17**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.4
C (99.3
   HR: 106 (88 - 114) bpm
   BP: 149/51(73) {111/33(49) - 174/85(108)} mmHg
   RR: 24 (9 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
                  Total In:
                                                                    164 mL
                  PO:
                  TF:
                                                                     84 mL
   IVF:
   Blood products:
   Total out:
                                                                     20 mL
                                                                    200 mL
   Urine:
   NG:
                                                                     20 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    144 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask , Tracheostomy tube
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 340) mL
   Vt (Spontaneous): 260 (185 - 430) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 6.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   406 K/uL
   8.2 g/dL
   75 mg/dL
   6.1 mg/dL
   28 mEq/L
   5.1 mEq/L
   36 mg/dL
   102 mEq/L
   145 mEq/L
   27.5 %
   17.1 K/uL
        [image002.jpg]
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
                             [**2156-2-10**]  08:50 AM
                             [**2156-2-12**]  03:36 AM
                             [**2156-2-13**]  03:12 AM
                             [**2156-2-14**]  02:55 AM
                             [**2156-2-15**]  03:58 AM
                             [**2156-2-16**]  03:59 AM
                             [**2156-2-17**]  03:49 AM
   WBC
   14.8
   13.6
   16.6
   16.8
   11.7
   21.1
   14.6
   10.8
   13.9
   17.1
   Hct
   27.0
   27.9
   28.0
   27.9
   33.0
   28.1
   25.9
   26.8
   27.0
   27.5
   Plt
   [**Telephone/Fax (3) 13856**]37
   392
   411
   398
   384
   407
   406
   Cr
   4.5
   3.1
   4.9
   6.1
   4.9
   3.2
   4.7
   3.1
   4.8
   6.1
   Glucose
   111
   115
   159
   164
   [**Telephone/Fax (2) 13857**]87
   96
   75
   Other labs: PT / PTT / INR:12.6/25.6/1.1, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:152 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with
   possible sepsis from unknown source and stroke, improved fever.
   # Respiratory failure: Failed extubation due to profuse secretions, no
   gag reflex, and poor airway posture. Now intubated again, awaiting
   tracheostomy planned as add on for [**2156-2-16**].
   - continue to hold clopidogrel but discuss w/ thoracics when we can
   restart plavix
   # Leukocytosis and fever:   Afebrile since restarting vanc.   Stop
   vancomycin (currently therapeutic given HD, had been on vanc [**1-31**] until
   [**2-16**] with a short duration of stopping vancomycin with recurrent
   fevers.)
   -culture if spikes
   #  New stroke: bilateral white matter lacunar infarcts on head MRI.
   Mental status slowly improving. History of CVA with R hemiparesis.  Per
   neuro would prefer clopidigrel to aspirin for this patient.
   - f/u neurology recommendations
   - continue atorvastatin
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat as outpt.
   - dialysis per renal Tuesday [**2-17**]
   # DM: recent episodes of hypoglycemia requiring frequent  D10 boluses,
   but now stable after adjustment in insulin regimen.
   - continue current insulin regimen
   #  HTN:
   - maintain lopressor at 75mg po bid, continue to hold lisinopril
   # Hypernatremia:  Na currently 145, monitor for now.
   # FEN: IVFs / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ (held dose this AM), no bowel regimen
   given loose stools
   # ACCESS: PIV and PICC
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-02-17 11:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 yo w/ debilitating CVA, admitted w/ resp failure from pneumonia.
   Trach'ed on [**2-17**] for persistent failure.
   24 Hour Events:
   s/p trach and peg yest
   on trach collar this am. grimacing in pain but unable to localize.
   History obtained from Patient
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2156-2-17**] 02:00 AM
   Metoprolol - [**2156-2-17**] 04:30 AM
   Other medications:
   famotidine, nephrocaps, [**Last Name (LF) 1005**], [**First Name3 (LF) **], Hep sc qd, RISS, Lantus,
   meotprolol, Plavix
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-17**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37
C (98.6
   HR: 111 (91 - 114) bpm
   BP: 136/57(76) {111/33(49) - 174/75(108)} mmHg
   RR: 22 (9 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
                  Total In:
                                                                    164 mL
                  PO:
                  TF:
                                                                     84 mL
   IVF:
   Blood products:
   Total out:
                                                                     20 mL
                                                                    360 mL
   Urine:
   NG:
                                                                     20 mL
                                                                    360 mL
   Stool:
   Drains:
   Balance:
                                                                    144 mL
                                                                   -360 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 340) mL
   Vt (Spontaneous): 260 (185 - 430) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 6.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, peg site c/d/i
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, LUE contracture, L heel eschar
   Skin:  Warm
   Neurologic: Attentive, Responds to: Tactile stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   406 K/uL
   75 mg/dL
   6.1 mg/dL
   28 mEq/L
   5.1 mEq/L
   36 mg/dL
   102 mEq/L
   145 mEq/L
   27.5 %
   17.1 K/uL
        [image002.jpg]
                             [**2156-2-7**]  05:00 AM
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
                             [**2156-2-10**]  08:50 AM
                             [**2156-2-12**]  03:36 AM
                             [**2156-2-13**]  03:12 AM
                             [**2156-2-14**]  02:55 AM
                             [**2156-2-15**]  03:58 AM
                             [**2156-2-16**]  03:59 AM
                             [**2156-2-17**]  03:49 AM
   WBC
   14.8
   13.6
   16.6
   16.8
   11.7
   21.1
   14.6
   10.8
   13.9
   17.1
   Hct
   27.0
   27.9
   28.0
   27.9
   33.0
   28.1
   25.9
   26.8
   27.0
   27.5
   Plt
   [**Telephone/Fax (3) 13856**]37
   392
   411
   398
   384
   407
   406
   Cr
   4.5
   3.1
   4.9
   6.1
   4.9
   3.2
   4.7
   3.1
   4.8
   6.1
   Glucose
   111
   115
   159
   164
   [**Telephone/Fax (2) 13857**]87
   96
   75
   Other labs: PT / PTT / INR:12.6/25.6/1.1, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:152 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Microbiology: no new data
   Assessment and Plan
   Respiratory failure:  trach collar trials today
   -pulm toilet
   CVA: to be on plavix instead of [**Month/Year (2) **]
   ESRD on HD:  To get HD today
   HTN:  continue current meds.
   PEG: start use this am w/ meds, feeds this pm
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   43 yo women with CVA, aspiration PNA, respiratory failure;  s/p T+G
   yesterday.  Now off vent.
   Exam:  lethargic, opens eyes to voice.  Does not follow commands.
   Lungs: mildly rhoncherous. CV: reg.  Ext: 1+ edema.
   A/P:
   Continue off vent.
   HD today.
   Start Plavix.
   Await rehab placement.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2156-2-17**] 15:54 ------

2156-02-18 11:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -HR 120 following dialysis (1.4 liters removed), 500cc given back
   without much improvement.  Fentanyl given 100mg with pain relief and
   improvement in HR, also beta blocker dose had been skipped and this was
   then given (so could have been some beta blocker w/d as well).
   Fentanyl switched to morphine IV as fentanyl seemed to be wearing off
   very quickly
   -Meds given via PEG tube, tube feeds ordered but not started given
   possible increasing pain near PEG tube site.
   -patient had intermittent apenic episodes overnight, lasting about [**6-19**]
   seconds but RR/min still was [**9-29**].  No desats.
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2156-2-17**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2156-2-18**] 08:00 AM
   Morphine Sulfate - [**2156-2-18**] 10:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-18**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 92 (88 - 122) bpm
   BP: 134/42(65) {94/27(42) - 147/60(76)} mmHg
   RR: 40 (13 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
                  Total In:
                                                                    590 mL
                                                                     63 mL
   PO:
                  TF:
                  63 mL
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                      8 mL
   Urine:
   NG:
                                                                    610 mL
                                                                      8 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,420 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Spontaneous): 20
   FiO2: 40%
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   397 K/uL
   8.1 g/dL
   107 mg/dL
   3.6 mg/dL
   28 mEq/L
   4.2 mEq/L
   20 mg/dL
   104 mEq/L
   144 mEq/L
   26.4 %
   14.4 K/uL
        [image002.jpg]
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
                             [**2156-2-10**]  08:50 AM
                             [**2156-2-12**]  03:36 AM
                             [**2156-2-13**]  03:12 AM
                             [**2156-2-14**]  02:55 AM
                             [**2156-2-15**]  03:58 AM
                             [**2156-2-16**]  03:59 AM
                             [**2156-2-17**]  03:49 AM
                             [**2156-2-18**]  04:35 AM
   WBC
   13.6
   16.6
   16.8
   11.7
   21.1
   14.6
   10.8
   13.9
   17.1
   14.4
   Hct
   27.9
   28.0
   27.9
   33.0
   28.1
   25.9
   26.8
   27.0
   27.5
   26.4
   Plt
   393
   433
   437
   392
   [**Telephone/Fax (2) 13896**]07
   406
   397
   Cr
   3.1
   4.9
   6.1
   4.9
   3.2
   4.7
   3.1
   4.8
   6.1
   3.6
   Glucose
   115
   159
   164
   [**Telephone/Fax (2) 13897**]6
   75
   107
   Other labs: PT / PTT / INR:12.6/25.6/1.1, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:152 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with
   possible sepsis from unknown source and stroke, improved fever.
   # Respiratory failure: Now trached. Doing well.
   - continue trach mask
   # Leukocytosis:  persists. No clear etiology. Afebrile since restarting
   vanc. Stopped vancomycin (currently therapeutic given HD, had been on
   vanc [**1-31**] until [**2-16**] with a short duration of stopping vancomycin with
   recurrent fevers) yesterday.
   -culture if spikes
   #  New stroke: bilateral white matter lacunar infarcts on head MRI.
   Mental status slowly improving. History of CVA with R hemiparesis.
   - clopidogrel to be restarted today
   - continue atorvastatin
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat as outpt.
   - dialysis per schedule
   # DM: recent episodes of hypoglycemia requiring frequent  D10 boluses,
   but now stable after adjustment in insulin regimen.
   - continue current insulin regimen
   #  HTN:
   - maintain lopressor at 75mg po bid, continue to hold lisinopril
   # FEN: IVFs / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ, no bowel regimen given loose stools
   # ACCESS: PIV and PICC
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [x] ICU, screening for vent rehab
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-02-18 11:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 yo w/ debilitating CVA and resultant resp failure failing
   extubation, s/p trach & peg on [**2-16**]
   24 Hour Events:
   pain poorly controlled. total of 8mg IV  MSO4 in last 3hrs.
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2156-2-17**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2156-2-18**] 08:00 AM
   Morphine Sulfate - [**2156-2-18**] 10:03 AM
   Other medications:
   famotidine, Nephrocaps, Peridex, Lipitor, RISS, Lantus, Lopressor,
   Plavix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2156-2-18**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 92 (88 - 122) bpm
   BP: 134/42(65) {94/27(42) - 147/60(76)} mmHg
   RR: 40 (13 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
                  Total In:
                                                                    590 mL
                                                                     63 mL
   PO:
                  TF:
                  63 mL
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                      8 mL
   Urine:
   NG:
                                                                    610 mL
                                                                      8 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,420 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Spontaneous): 20
   FiO2: 40%
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: No(t) No acute distress, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, g tube site c/d/i
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, L heel bandaged; LUE contracture
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, grimacing and grinding teeth
   Labs / Radiology
   8.1 g/dL
   397 K/uL
   107 mg/dL
   3.6 mg/dL
   28 mEq/L
   4.2 mEq/L
   20 mg/dL
   104 mEq/L
   144 mEq/L
   26.4 %
   14.4 K/uL
        [image002.jpg]
                             [**2156-2-8**]  03:21 AM
                             [**2156-2-9**]  04:13 AM
                             [**2156-2-10**]  08:50 AM
                             [**2156-2-12**]  03:36 AM
                             [**2156-2-13**]  03:12 AM
                             [**2156-2-14**]  02:55 AM
                             [**2156-2-15**]  03:58 AM
                             [**2156-2-16**]  03:59 AM
                             [**2156-2-17**]  03:49 AM
                             [**2156-2-18**]  04:35 AM
   WBC
   13.6
   16.6
   16.8
   11.7
   21.1
   14.6
   10.8
   13.9
   17.1
   14.4
   Hct
   27.9
   28.0
   27.9
   33.0
   28.1
   25.9
   26.8
   27.0
   27.5
   26.4
   Plt
   393
   433
   437
   392
   [**Telephone/Fax (2) 13896**]07
   406
   397
   Cr
   3.1
   4.9
   6.1
   4.9
   3.2
   4.7
   3.1
   4.8
   6.1
   3.6
   Glucose
   115
   159
   164
   [**Telephone/Fax (2) 13897**]6
   75
   107
   Other labs: PT / PTT / INR:12.6/25.6/1.1, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:152 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Grimacing/ : poss uncontrolled pain vs agitation vs seizure
   -Increase MSO4 IV prn
   -If no response would consider benzo and will get EEG
   -bite block/ mouth guard
   G tube residuals:
   -hold tube feeds, npo
   -g tube check today; poss re-involvement of [**Doctor First Name **] based on imaging
   Respiratory failure:  trach collar trials today
   -pulm toilet
   CVA: to be on plavix instead of ASA
   ESRD on HD:  To get HD today
   ICU Care
   Nutrition:
   Comments: tube feeds held
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   43 yo women with DM I, multiple CVAs, asp PNA, s/p T+G.  Has had
   recurrent grimacing, teeth grinding.  Unclear if she is in pain, but
   responded to dilaudid 2mg.
   Exam:  patient not interactive.  Lungs clear;  Abd: soft,  Ext no edema
   A/P
   Stable off vent.
   Uncearl cause of grimacing:  Could be pain, but has be ongoing for >1
   week.  Will try EEG to r/o seizure.  Neuro to see.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2156-2-18**] 14:06 ------

2156-02-19 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - appeared grimacing, in pain in AM--> gave .75 mg dilaudid (no
   effect)-->1 mg dilaudid, resting comfortably (sleeping but breathing)
   - called neuro, ordered EEG
   - g-tube study NL - re-started TF (changed formula per nutrition), but
   unable to advance rate 2/2 residuals
   - neuro concerned for new stroke (no doll's eyes to R)-->ordred MRI
   - updated brother regarding all of the above
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2156-2-18**] 11:20 AM
   Hydromorphone (Dilaudid) - [**2156-2-18**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2156-2-19**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-19**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 93 (84 - 102) bpm
   BP: 128/53(69) {98/30(47) - 140/71(93)} mmHg
   RR: 16 (10 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                    181 mL
                                                                    447 mL
   PO:
             TF:
                                                                    121 mL
                                                                     19 mL
   IVF:
   328 mL
   Blood products:
   Total out:
                                                                      8 mL
                                                                      0 mL
   Urine:
   NG:
                                                                      8 mL
   Stool:
   Drains:
   Balance:
                                                                    173 mL
                                                                    447 mL
   Respiratory support
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Gen: middle-aged woman on trach mask, wincing in ?pain, grinding teeth
   rhythmically, not responding to commands
   CV: RR, nl S1/S2, [**2-14**] syst mur
   Lungs: CTAB
   Abd: soft, NT, ND
   Ext: no c/ce
   Labs / Radiology
   378 K/uL
   7.8 g/dL
   116
   5.1 mg/dL
   29 mEq/L
   4.4 mEq/L
   29 mg/dL
   105 mEq/L
   143 mEq/L
   25.9 %
   12.0 K/uL
        [image002.jpg]
                             [**2156-2-14**]  02:55 AM
                             [**2156-2-15**]  03:58 AM
                             [**2156-2-16**]  03:59 AM
                             [**2156-2-17**]  03:49 AM
                             [**2156-2-18**]  04:35 AM
                             [**2156-2-18**]  12:00 PM
                             [**2156-2-18**]  06:00 PM
                             [**2156-2-19**]  12:00 AM
                             [**2156-2-19**]  02:57 AM
                             [**2156-2-19**]  06:00 AM
   WBC
   14.6
   10.8
   13.9
   17.1
   14.4
   12.0
   Hct
   25.9
   26.8
   27.0
   27.5
   26.4
   25.9
   Plt
   398
   384
   407
   [**Telephone/Fax (3) 13912**]
   Cr
   4.7
   3.1
   4.8
   6.1
   3.6
   5.1
   Glucose
   105
   187
   96
   75
   107
   126
   97
   97
   109
   116
   Other labs: PT / PTT / INR:12.6/25.6/1.1, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:152 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with new
   stroke, now s/p trach because of inability to protect airway after
   extubation.
   # Respiratory failure: Now trached. Doing well.
   - continue trach mask
   # Wincing/nonresponsive: continue dilaudid prn for pain.  Wait on
   switching to long acting for now.
   pain. Off sedation but patient is currently not responsive to verbal
   commands.
   -per neuro obtain MRI, to evaluate for recurrent stroke
   -f/u neuro recs
   -continue plavix and atorvastatin for stroke
   - dilantin change to 100mg po q8hrs
   # Leukocytosis:  improving. No clear etiology. S/p courses of empiric
   GPC and GNR coverage abx. Cx unremarkable so far. No fever currently.
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat as outpt.
   - dialysis per schedule
   # Ileus: f/u final read of G tube study.
   -attempt PO narcan to treat narcotic ileus.
   # DM: recent episodes of hypoglycemia requiring frequent  D10 boluses,
   but now stable after adjustment in insulin regimen.
   - continue current insulin regimen
   #  HTN:
   - maintain lopressor at 75mg po bid, continue to hold lisinopril
   # FEN: IVFs / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ, no bowel regimen given loose stools
   # ACCESS: PIV and PICC
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:  ICU for now, not ready to be discharged yet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-02-19 11:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 yo w/ debilitating CVA, resp failure s/p trach/peg. Now w/
   uncontrolled agitation/ pain.
   24 Hour Events:
   no events. [**Name8 (MD) **] RN no stool output.
   less grimacing agitation today
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2156-2-18**] 11:20 AM
   Hydromorphone (Dilaudid) - [**2156-2-18**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2156-2-19**] 08:03 AM
   Other medications:
   Dilantin, Famotidine, nephrocaps, Peridex, Lipitor, metoprolol,
   Dliaudid 1q4
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-19**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 93 (84 - 102) bpm
   BP: 128/53(69) {98/30(47) - 140/71(93)} mmHg
   RR: 16 (10 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                    181 mL
                                                                    474 mL
   PO:
             TF:
                                                                    121 mL
                                                                     19 mL
   IVF:
   355 mL
   Blood products:
   Total out:
                                                                      8 mL
                                                                      0 mL
   Urine:
   NG:
                                                                      8 mL
   Stool:
   Drains:
   Balance:
                                                                    173 mL
                                                                    475 mL
   Respiratory support
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, g tube site c/d/i
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, LUE contracture, LLE heel eschar bandaged
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   378 K/uL
   116
   5.1 mg/dL
   29 mEq/L
   4.4 mEq/L
   29 mg/dL
   105 mEq/L
   143 mEq/L
   25.9 %
   12.0 K/uL
        [image002.jpg]
                             [**2156-2-14**]  02:55 AM
                             [**2156-2-15**]  03:58 AM
                             [**2156-2-16**]  03:59 AM
                             [**2156-2-17**]  03:49 AM
                             [**2156-2-18**]  04:35 AM
                             [**2156-2-18**]  12:00 PM
                             [**2156-2-18**]  06:00 PM
                             [**2156-2-19**]  12:00 AM
                             [**2156-2-19**]  02:57 AM
                             [**2156-2-19**]  06:00 AM
   WBC
   14.6
   10.8
   13.9
   17.1
   14.4
   12.0
   Hct
   25.9
   26.8
   27.0
   27.5
   26.4
   25.9
   Plt
   398
   384
   407
   [**Telephone/Fax (3) 13912**]
   Cr
   4.7
   3.1
   4.8
   6.1
   3.6
   5.1
   Glucose
   105
   187
   96
   75
   107
   126
   97
   97
   109
   116
   Other labs: PT / PTT / INR:12.6/25.6/1.1, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:152 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.9 mg/dL
   Fluid analysis / Other labs: Dilantin- 8 uncorrected
   Imaging: EEG- pending
   MRI brain- pending
   G tube check- normal
   Assessment and Plan
   43 yo w/ debilitating CVA, resp failure s/p trach/peg.
   Mental status- unclear baseline, still not following commands as
   lucidly as before but more comfortable today
   -Tx w/ Dilaudid helped w/ apparent pain
   -per Neuro got Dilantin o/n, planned for EEG and MRI
   Ileus- clinically without bowel sounds on exam, G tube residuals likely
   due to constipation, esp w/ recent narcotics
   -hold tube feeds, npo for now
   -PO Narcan or other BM motility [**Doctor Last Name **]
   Respiratory failure:  trach collar to continue
   -pulm toilet
   CVA: to be on plavix instead of ASA
   ESRD on HD:  stable
   ICU Care
   Nutrition:
   Comments: tube feeds resumed yest- but sig residuals so held.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   43 yo women with respiratory failure after recurrent aspiration PNA.
   Has had poor MS since yesterday.  Today is following some commands but
   is very slow.
   Exam:  lungs clear.  CV: reg.  Abd: soft.
   A/P:
   Neurology worried about dilantin toxicity so will check levels.
   MRI pending to r/o new CVA.
   Resp failure:  stable off vent.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2156-2-19**] 16:42 ------

2156-02-20 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2156-2-19**] 07:10 PM
   - EEG: encephalopathy
   - head MRI done, read pending
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-19**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-20**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.9
   HR: 97 (89 - 114) bpm
   BP: 136/60(78) {113/24(50) - 162/68(83)} mmHg
   RR: 17 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                    891 mL
                                                                    196 mL
   PO:
             TF:
                                                                    108 mL
                                                                     89 mL
   IVF:
                                                                    524 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    391 mL
                                                                    196 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Gen: middle-aged woman on trach mask, wincing in ?pain, grinding teeth
   rhythmically, not responding to commands
   CV: RR, nl S1/S2, [**2-14**] syst mur
   Lungs: CTAB
   Abd: soft, NT, ND
   Ext: no c/c/e
   Labs / Radiology
   423 K/uL
   7.6 g/dL
   101 mg/dL
   2.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   10 mg/dL
   106 mEq/L
   143 mEq/L
   26.1 %
   12.8 K/uL
        [image002.jpg]
                             [**2156-2-17**]  03:49 AM
                             [**2156-2-18**]  04:35 AM
                             [**2156-2-18**]  12:00 PM
                             [**2156-2-18**]  06:00 PM
                             [**2156-2-19**]  12:00 AM
                             [**2156-2-19**]  02:57 AM
                             [**2156-2-19**]  06:00 AM
                             [**2156-2-19**]  12:00 PM
                             [**2156-2-19**]  06:00 PM
                             [**2156-2-20**]  02:32 AM
   WBC
   17.1
   14.4
   12.0
   12.8
   Hct
   27.5
   26.4
   25.9
   26.1
   Plt
   [**Telephone/Fax (3) 13926**]23
   Cr
   6.1
   3.6
   5.1
   2.8
   Glucose
   75
   107
   126
   97
   97
   109
   116
   220
   102
   101
   Other labs: PT / PTT / INR:12.6/25.6/1.1, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:152 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with new
   stroke, now s/p trach because of inability to protect airway after
   extubation.
   # Respiratory failure: Now trached. Doing well.
   - continue trach mask
   # Wincing/nonresponsive: continue dilaudid prn for pain.  Wait on
   switching to long acting for now.
   pain. Off sedation but patient is currently not responsive to verbal
   commands.
   -per neuro obtain MRI, to evaluate for recurrent stroke
   -f/u neuro recs
   -continue plavix and atorvastatin for stroke
   - dilantin change to 100mg po q8hrs
   - tylenol 1gm q8h / dilaudid po prn / dilaudid iv for breakthrough
   # Leukocytosis:  improving. No clear etiology. S/p courses of empiric
   GPC and GNR coverage abx. Cx unremarkable so far. No fever currently.
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat as outpt.
   - dialysis per schedule
   # Ileus: f/u final read of G tube study.
   -attempt PO narcan to treat narcotic ileus.
   # DM: recent episodes of hypoglycemia requiring frequent  D10 boluses,
   but now stable after adjustment in insulin regimen.
   - continue current insulin regimen
   #  HTN:
   - maintain lopressor at 75mg po bid, continue to hold lisinopril
   # FEN: IVFs / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ, no bowel regimen given loose stools
   # ACCESS: PIV and PICC
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:  ICU for now, not ready to be discharged yet
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-2-19**] 02:10 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-02-20 10:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 yo women with CVAs, respiratory failure, T+G.  Recent decrease in
   MS.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2156-2-19**] 07:10 PM
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-20**] 08:22 AM
   Other medications:
   pepcid
   nephrocaps
   chlorhexidine
   hep s/q
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-20**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.3
   HR: 99 (89 - 114) bpm
   BP: 133/74(87) {113/24(50) - 173/74(87)} mmHg
   RR: 19 (13 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                    891 mL
                                                                    337 mL
   PO:
             TF:
                                                                    108 mL
                                                                    142 mL
   IVF:
                                                                    524 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    391 mL
                                                                    337 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, left eye reactive
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, squeezes right
   hand
   Labs / Radiology
   7.6 g/dL
   423 K/uL
   101 mg/dL
   2.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   10 mg/dL
   106 mEq/L
   143 mEq/L
   26.1 %
   12.8 K/uL
        [image002.jpg]
                             [**2156-2-17**]  03:49 AM
                             [**2156-2-18**]  04:35 AM
                             [**2156-2-18**]  12:00 PM
                             [**2156-2-18**]  06:00 PM
                             [**2156-2-19**]  12:00 AM
                             [**2156-2-19**]  02:57 AM
                             [**2156-2-19**]  06:00 AM
                             [**2156-2-19**]  12:00 PM
                             [**2156-2-19**]  06:00 PM
                             [**2156-2-20**]  02:32 AM
   WBC
   17.1
   14.4
   12.0
   12.8
   Hct
   27.5
   26.4
   25.9
   26.1
   Plt
   [**Telephone/Fax (3) 13926**]23
   Cr
   6.1
   3.6
   5.1
   2.8
   Glucose
   75
   107
   126
   97
   97
   109
   116
   220
   102
   101
   Other labs: PT / PTT / INR:12.6/25.6/1.1, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:152 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Delirium:  Unclear cause.  She is improved from two days ago, and still
   worse than a few weeks ago.
   Will treat pain with tylenol standing.  and PO dilaudid prn.
   MRI report:  shows retinal detachment - will curbside optha to see if
   they need to eval.
   ESRD on HD.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-2-19**] 02:10 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2156-02-21 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - EEG in last 24 hrs with 4 episodes of left occipital seizure
   activity, recs:
   - Fosphenytoin 100mg IV x 1
   - level pre and post HD
   - MRI with ? retinal detachment
   - Ophtho consulted, R eye old retinal detatchment (seen in [**2156-2-2**] on
   MRI), not a cause of pain, and patient has severe proliferative
   diabetic retinopathy bilaterally
   -PICC line 1 port clotted, TPA x 2 failed, ordered change over wire for
   PICC nurses.
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2156-2-20**] 04:11 PM
   Heparin Sodium (Prophylaxis) - [**2156-2-20**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-21**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 96 (90 - 102) bpm
   BP: 128/46(67) {105/29(49) - 156/74(87)} mmHg
   RR: 14 (10 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,133 mL
                                                                    473 mL
   PO:
             TF:
                                                                    463 mL
                                                                    122 mL
   IVF:
                                                                    340 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,133 mL
                                                                    473 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Physical Examination
   Gen: middle-aged woman on trach mask, wincing, grinding teeth
   intermittently, not responding to commands
   NEURO: Pupils 3mm bilaterally minimally reactive, patient non
   responsive, opens eyes spontaneously, and takes spontaneous
   respirations
   CV: RR, nl S1/S2, SEM [**1-17**]
   Lungs: CTAB anteriorly
   Abd: soft, NT, ND, small hematoma at G tube site
   Ext: trace bilat pedal edema
   Labs / Radiology
   391 K/uL
   7.9 g/dL
   137 mg/dL
   4.6 mg/dL
   27 mEq/L
   4.0 mEq/L
   18 mg/dL
   107 mEq/L
   145 mEq/L
   27.0 %
   12.3 K/uL
        [image002.jpg]
                             [**2156-2-18**]  04:35 AM
                             [**2156-2-18**]  12:00 PM
                             [**2156-2-18**]  06:00 PM
                             [**2156-2-19**]  12:00 AM
                             [**2156-2-19**]  02:57 AM
                             [**2156-2-19**]  06:00 AM
                             [**2156-2-19**]  12:00 PM
                             [**2156-2-19**]  06:00 PM
                             [**2156-2-20**]  02:32 AM
                             [**2156-2-21**]  02:26 AM
   WBC
   14.4
   12.0
   12.8
   12.3
   Hct
   26.4
   25.9
   26.1
   27.0
   Plt
   397
   378
   423
   391
   Cr
   3.6
   5.1
   2.8
   4.6
   Glucose
   107
   126
   97
   97
   109
   116
   220
   102
   101
   137
   Other labs: PT / PTT / INR:12.9/29.5/1.1, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with new
   stroke, now s/p trach because of inability to protect airway after
   extubation.
   # Respiratory failure: Now trached. Doing well from a respiratory
   standpoint.  Has increased secretions.  Monitor T and WBC, if spikes
   may cover patient for HCAP.
   - continue trach mask
   # Obtundation: very minimal neurologic status.  Per neuro patient  is
   having occipital seizures- have started keppra.
   -f/u neuro recs
   -continue plavix and atorvastatin for stroke
   -given strokes at young age will attempt to obtain [**Hospital1 403**] records
   -family mtg given likelihood of meaningful recovery is low, will need
   to discuss prognosis with brother
   - tylenol 1gm q8h / dilaudid po prn / dilaudid iv for breakthrough
   # Leukocytosis:  improving/stable. No clear etiology. S/p courses of
   empiric GPC and GNR coverage abx
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat as outpt.
   - dialysis per schedule
   # Ileus: resolving, having BMs but still having residuals.
   -possibly  start reglan today to reduce residuals and then can start
   tube feeds.
   -PO narcan to treat narcotic ileus.
   # DM: - continue current insulin regimen  (BG 97-220)
   #  HTN: BP normal
   - continue lopressor at 75mg po bid
   # FEN: IVFs / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ
   # ACCESS: PIV and PICC (1 lumen functional)
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:  ICU for now, not ready to be discharged yet
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-2-19**] 02:10 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-02-22 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started reglan for GI motility
   - mental status still extremely poor, intermittently with repetitive
   teeth clenching (? correlate with seizures)
   - family meeting Monday 3 pm Monday - emailed renal and neuro about
   coming
   - febrile
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2156-2-21**] 09:10 PM
   Heparin Sodium (Prophylaxis) - [**2156-2-22**] 07:57 AM
   Lorazepam (Ativan) - [**2156-2-22**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-22**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 38
C (100.4
   Tcurrent: 36.4
C (97.6
   HR: 89 (89 - 107) bpm
   BP: 129/60(76) {100/24(46) - 147/96(100)} mmHg
   RR: 24 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,671 mL
                                                                    691 mL
   PO:
             TF:
                                                                    541 mL
                                                                    241 mL
   IVF:
                                                                    440 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,671 mL
                                                                    691 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Gen: middle-aged woman on trach mask, wincing, grinding teeth
   intermittently, not responding to commands
   NEURO: Pupils 3mm bilaterally minimally reactive, patient non
   responsive, opens eyes spontaneously, and takes spontaneous
   respirations
   CV: RR, nl S1/S2, SEM [**1-17**]
   Lungs: CTAB anteriorly
   Abd: soft, NT, ND, small hematoma at G tube site
   Ext: trace bilat pedal edema
   Labs / Radiology
   434 K/uL
   8.0 g/dL
   134 mg/dL
   2.7 mg/dL
   29 mEq/L
   4.0 mEq/L
   11 mg/dL
   107 mEq/L
   143 mEq/L
   27.3 %
   13.2 K/uL
        [image002.jpg]
                             [**2156-2-18**]  12:00 PM
                             [**2156-2-18**]  06:00 PM
                             [**2156-2-19**]  12:00 AM
                             [**2156-2-19**]  02:57 AM
                             [**2156-2-19**]  06:00 AM
                             [**2156-2-19**]  12:00 PM
                             [**2156-2-19**]  06:00 PM
                             [**2156-2-20**]  02:32 AM
                             [**2156-2-21**]  02:26 AM
                             [**2156-2-22**]  01:11 AM
   WBC
   12.0
   12.8
   12.3
   13.2
   Hct
   25.9
   26.1
   27.0
   27.3
   Plt
   378
   423
   391
   434
   Cr
   5.1
   2.8
   4.6
   2.7
   Glucose
   126
   97
   97
   109
   116
   220
   102
   101
   137
   134
   Other labs: PT / PTT / INR:12.9/29.5/1.1, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:9.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with new
   stroke, now s/p trach because of inability to protect airway after
   extubation.
   # Respiratory failure: Now trached. Doing well from a respiratory
   standpoint.  Has increased secretions.  Monitor T and WBC, if spikes
   may cover patient for HCAP.
   - continue trach mask
   # Obtundation: very minimal neurologic status.  Per neuro patient  is
   having occipital seizures- have started keppra.
   -f/u neuro recs
   -continue plavix and atorvastatin for stroke
   -given strokes at young age will attempt to obtain [**Hospital1 403**] records
   -family mtg given likelihood of meaningful recovery is low, will need
   to discuss prognosis with brother
   - tylenol 1gm q8h / dilaudid po prn / dilaudid iv for breakthrough
   # Leukocytosis:  improving/stable. No clear etiology. S/p courses of
   empiric GPC and GNR coverage abx
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat as outpt.
   - dialysis per schedule
   # Ileus: resolving, having BMs but still having residuals.
   -possibly  start reglan today to reduce residuals and then can start
   tube feeds.
   -PO narcan to treat narcotic ileus.
   # DM: - continue current insulin regimen  (BG 97-220)
   #  HTN: BP normal
   - continue lopressor at 75mg po bid
   # FEN: IVFs / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ
   # ACCESS: PICC (1 lumen functional)
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:  ICU for now, not ready to be discharged yet
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-2-19**] 02:10 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-02-23 08:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - intermittent jaw clenching and eye fluttering; event button on EEG
   computer was pushed
   - family meeting planned for 3 p.m. today to discuss goal of care;
   however, neuro unable to join meeting
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-22**] 10:00 PM
   Hydromorphone (Dilaudid) - [**2156-2-22**] 11:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-23**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 93 (86 - 109) bpm
   BP: 141/52(74) {108/28(47) - 160/74(90)} mmHg
   RR: 20 (11 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  2,126 mL
                                                                    920 mL
   PO:
             TF:
                                                                    957 mL
                                                                    377 mL
   IVF:
                                                                    629 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,126 mL
                                                                    920 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Gen: middle-aged woman on trach mask, significant muscle atrophy of
   extremities, opens eyes to voice, not following commands
   NEURO: Pupils 3mm bilaterally minimally reactive to light
   CV: RR, nl S1/S2
   Lungs: CTAB anteriorly though difficult to assess given loud
   respiratory sounds
   Abd: soft, NT, ND, G tube site clean, dry, without evidence of
   infection, minimal serosanguinous discharge
   Ext: trace bilat pedal edema, dressing on L heal eschar c/d/i
   Labs / Radiology
   434 K/uL
   8.0 g/dL
   86 mg/dL
   4.3 mg/dL
   29 mEq/L
   4.8 mEq/L
   23 mg/dL
   107 mEq/L
   144 mEq/L
   27.3 %
   13.2 K/uL
        [image002.jpg]
                             [**2156-2-18**]  06:00 PM
                             [**2156-2-19**]  12:00 AM
                             [**2156-2-19**]  02:57 AM
                             [**2156-2-19**]  06:00 AM
                             [**2156-2-19**]  12:00 PM
                             [**2156-2-19**]  06:00 PM
                             [**2156-2-20**]  02:32 AM
                             [**2156-2-21**]  02:26 AM
                             [**2156-2-22**]  01:11 AM
                             [**2156-2-23**]  04:37 AM
   WBC
   12.0
   12.8
   12.3
   13.2
   Hct
   25.9
   26.1
   27.0
   27.3
   Plt
   378
   423
   391
   434
   Cr
   5.1
   2.8
   4.6
   2.7
   4.3
   Glucose
   97
   97
   109
   116
   220
   102
   101
   137
   134
   86
   Other labs: PT / PTT / INR:12.9/29.5/1.1, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with new
   stroke, now s/p trach because of inability to protect airway after
   extubation.
   # Seizures/altered mental status: seen on EEG;  monitored on EEG over
   the weekend without evidence of seizure since [**2156-2-20**] and mental status
   remains unchanged.
   - continue levetiracetam can convert to po from IV as gastric emptying
   improved (decreased residuals)
   - follow up neuro recs
   - continue EEG for now
   - LP to evaluate for possible HSV encephalopathy
   - check nutrient levels (thiamine, niacin)
   - start thiamine, niacin and pyridoxine empirically as patient appears
   malnourished
   - hold reglan
   # Stroke:
   - continue clopidogrel, aspirin
   # Respiratory failure: Now trached. Doing well from a respiratory stand
   point.
   - continue trach mask
   # Goal of care: very minimal neurologic status.  Per neuro patient  is
   having occipital seizures- have started keppra.
   -family mtg given likelihood of meaningful recovery is low, will need
   to discuss prognosis with brother
   - plan to have meeting with family with neuro present to discuss
   prognosis
   # Leukocytosis:  resolved. No clear etiology. S/p courses of empiric
   GPC and GNR coverage abx
   #  Stage IV chronic kidney disease - undergoes HD at [**Location (un) 4465**] [**Location (un) 590**]
   T/Th/Sat as outpt.
   - dialysis per schedule
   # Ileus: resolved, having BMs
   - discontinue narcan and reglan
   # DM: - continue current insulin regimen  (BG 97-220)
   #  HTN: BP normal
   - continue metoprolol at 75mg po bid
   # FEN: IVFs / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ
   # ACCESS: PICC (1 lumen functional)
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:  ICU

2156-02-23 12:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43yo woman with debilitating CVA [**2-17**], admitted on [**2156-1-31**] with
   respiratory failure thought to be [**1-13**] sepsis. High suspicion for recurr
   CVA during this time as well. Failed extubation twice (on [**2-4**] and
   [**2-6**].) S/p trach / PEG on [**2156-2-16**]. Currently with persistent seizing
   episodes.
   24 Hour Events:
   no events. [**Name8 (MD) 54**] RN w/ diarrhea. No residuals today
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-22**] 10:00 PM
   Hydromorphone (Dilaudid) - [**2156-2-22**] 11:01 PM
   Other medications:
   famotidine, nephrocaps, Lipitor, RISS, Lantus, Lopressor, PO Narcan,
   reglan, Tylenol, Keppra, Dilantin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-23**] 12:28 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 87 (81 - 109) bpm
   BP: 148/49(73) {108/38(58) - 160/74(90)} mmHg
   RR: 29 (13 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  2,126 mL
                                                                  1,274 mL
   PO:
             TF:
                                                                    957 mL
                                                                    543 mL
   IVF:
                                                                    629 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,126 mL
                                                                  1,274 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   FiO2: 30%
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, Bowel sounds present, peg site c/d/i
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, LUe contracture
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Sedated, Tone: Not assessed, not following commands
   Labs / Radiology
   8.0 g/dL
   434 K/uL
   86 mg/dL
   4.3 mg/dL
   29 mEq/L
   4.8 mEq/L
   23 mg/dL
   107 mEq/L
   144 mEq/L
   27.3 %
   13.2 K/uL
        [image002.jpg]
                             [**2156-2-18**]  06:00 PM
                             [**2156-2-19**]  12:00 AM
                             [**2156-2-19**]  02:57 AM
                             [**2156-2-19**]  06:00 AM
                             [**2156-2-19**]  12:00 PM
                             [**2156-2-19**]  06:00 PM
                             [**2156-2-20**]  02:32 AM
                             [**2156-2-21**]  02:26 AM
                             [**2156-2-22**]  01:11 AM
                             [**2156-2-23**]  04:37 AM
   WBC
   12.0
   12.8
   12.3
   13.2
   Hct
   25.9
   26.1
   27.0
   27.3
   Plt
   378
   423
   391
   434
   Cr
   5.1
   2.8
   4.6
   2.7
   4.3
   Glucose
   97
   97
   109
   116
   220
   102
   101
   137
   134
   86
   Other labs: PT / PTT / INR:12.9/29.5/1.1, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   43yo woman with debilitating CVA [**2-17**], admitted on [**2156-1-31**] with
   respiratory failure thought to be [**1-13**] sepsis. High suspicion for recurr
   CVA during this time as well. Failed extubation twice (on [**2-4**] and
   [**2-6**].) S/p trach / PEG on [**2156-2-16**]. Currently with persistent seizing
   episodes.
   1. Altered mental status- underlying CVA, now w/ recurr seizures. Per
   Neuro no EEG activity of seizure since [**2-20**]
   -need to discuss w/ neuro what prognosis is regarding control of
   seizure and mental status
   -talk w/ Neuro about poss LP
   -cont Keppra --> check Keppra level
   -hold Reglan to minimize poss MS [**First Name (Titles) **] [**Last Name (Titles) 13971**]
   -check Nutritional profile (thiamine, folate, niacin) and replete
   -on Plavix and Lipitor for 2' prophylaxis
   2. Chronic resp failure- stable on trach collar
   3. ESRD on HD- cont int HD
   4. Leukocytosis- stable, no localizing signs; perhaps post-ictal
   -monitor
   5. Diarrhea- stop PO Narcan; hold Reglan as above
   6. Goals of care- re-schedule mtg w/ family to coincide w/ Neuro
   attendance. Will need to discuss w/ Neuro first
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-2-22**] 10:55 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, no seizures and none since Friday however mental status
   remains poor
   Tm: 98.6  Tc: 98  P: 90   BP: 148/49   RR: 20  Oxygen Sat:  100%  with
   Fio2 of  0.30
   General: Trach in place
 on t-piece
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: Muscle wasting, warm and perfused
   Neuro: Poorly responsive. Not clearly following commands
   Labs: reviewed and as above
   Assessment:
   1)      Mental Status Change: Has history of new infarcts on
   presentation to hospital but decline in mental status occurred
   subsequently so not exactly clear of etiology at present.  It is
   possible that there is just progression of infarctions in watershed
   territory.   However, one component that has not been considered is a
   nutritional one specifically she appears quite malnourished (diffuse
   muscle atrophy) and is at high-risk for Wernicke
s Encephalopathy,
   Acute Pellagra Encephalopathy, and even pyrdoxine deficiency (as a
   contributor to seizures).  We will check vitamin levels and then
   provide intravenous vitamin support and re-evaluate.
   2)      ESRD
   3)      Respiratory Failure
 on trach shield and off ventilator
   4)      Deconditioning
   Plan:
   1)      Lumbar Puncture, Nutritional repletion and review mental status
   after these interventions
   2)      Continue EEG and seizure control
   3)      Physical Therapy
   4)      Continue HD
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2156-2-23**] 19:25 ------

2156-02-24 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2156-2-23**] 02:13 PM
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2156-2-23**] 05:30 PM
   Heparin Sodium (Prophylaxis) - [**2156-2-23**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is [**Year (4 digits) 1085**] from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-24**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 97 (81 - 98) bpm
   BP: 159/55(82) {109/23(49) - 159/122(126)} mmHg
   RR: 28 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  2,719 mL
                                                                    527 mL
   PO:
             TF:
                                                                    989 mL
                                                                    358 mL
   IVF:
                                                                    875 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,719 mL
                                                                    527 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Gen: middle-aged woman on trach mask, significant muscle atrophy of
   extremities, not following commands
   NEURO: Pupils 3mm bilaterally minimally reactive to light
   CV: RR, nl S1/S2, heart sounds distant
   Lungs: CTAB anteriorly though difficult to assess given upper airway
   sounds
   Abd: soft, NT, ND, G tube site clean, dry, without evidence of
   infection
   Ext: no  pedal edema, dressing on L heal eschar c/d/i
   Labs / Radiology
   434 K/uL
   8.0 g/dL
   141 mg/dL
   5.3 mg/dL
   26 mEq/L
   5.2 mEq/L
   32 mg/dL
   103 mEq/L
   139 mEq/L
   27.3 %
   13.2 K/uL
        [image002.jpg]
                             [**2156-2-19**]  12:00 AM
                             [**2156-2-19**]  02:57 AM
                             [**2156-2-19**]  06:00 AM
                             [**2156-2-19**]  12:00 PM
                             [**2156-2-19**]  06:00 PM
                             [**2156-2-20**]  02:32 AM
                             [**2156-2-21**]  02:26 AM
                             [**2156-2-22**]  01:11 AM
                             [**2156-2-23**]  04:37 AM
                             [**2156-2-24**]  04:18 AM
   WBC
   12.0
   12.8
   12.3
   13.2
   Hct
   25.9
   26.1
   27.0
   27.3
   Plt
   378
   423
   391
   434
   Cr
   5.1
   2.8
   4.6
   2.7
   4.3
   5.3
   Glucose
   97
   109
   116
   220
   102
   101
   137
   134
   86
   141
   Other labs: PT / PTT / INR:12.9/29.5/1.1, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with new
   stroke, now s/p trach because of inability to protect airway after
   extubation.
   .
    # Seizures/altered mental status: MS [**First Name (Titles) 1084**] [**Last Name (Titles) 1085**]. LP CSF results
   benign.
   - continue levetiracetam
   - follow up neuro recs
   - continue EEG monitoring
   -f/u niacin and thiamin
   -further discuss pronosis with neuro, f/u final LP cultures / HSV / f/u
   CSF lactate
   # Stroke:
   - continue clopidogrel, aspirin
   #  Pain: occasional wincing, will start fentanyl patch at 12.5mcg /hr
    # Respiratory failure: Now trached. Doing well from a respiratory
   stand point.
   - continue trach mask
   -remove trach sutures
   # Diarrhea/leukocytosis: Send C diff
   # Goal of care: Plan for family mtg today
   #  Stage IV chronic kidney disease:
   # Ileus: resolved, having BMs
   - resovled, when starting fentanyl may need to start PO narcan
   #  DM: - continue current insulin regimen
   #  HTN: BP normal
   - continue metoprolol at 75mg po bid
   # FEN: IVFs / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ
   # ACCESS: PICC (1 lumen functional)
   # CODE:  Full, discussed
   # CONTACT:  Brother
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-2-22**] 10:55 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Overnight, no seizures since Friday, LP was performed and negative,
   increased secretions plus malodorous stool noted
   Tm: 98.4 P: 97   BP: 159/55   RR: 20  Oxygen Sat:  100%  with Fio2 of
   0.35
   General: Trach in place
 on t-piece; grimace
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: Muscle wasting, warm and perfused
   Neuro: Poorly responsive. Not clearly following commands
   Labs: reviewed and as above
 WBC increased to 14.9
   Assessment:
   1)      Mental Status Change: LP was normal, vitamin def pending and
   replenishing
   2)      Increased WBC
   3)      ESRD
   4)      Respiratory Failure
 on trach shield and off ventilator
   increased secretions
   5)      Deconditioning
   Plan:
   1)      Nutritional repletion
   2)      Continue to monitor neuro status
   3)      Checking sputum, stool, CXR
   4)      Physical Therapy
   5)      Continue HD
   6)      Discharge planning
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2156-2-24**] 05:52 PM ------

2156-02-25 06:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered Mental Status
   24 Hour Events:
   [**2-24**]:
   - Per neuro no seizure activity since Thursday [**2-19**], Keppra dose
   appropriate, AMS appears to be encephalopathy (unclear etiology)
   - Repeat CXR largely [**Month/Year (2) 1085**]
   - Meeting with brother was held to discuss goals of care; patient
   remains FULL CODE; brother understands uncertainty of prognosis and
   likely upcoming discharge to rehab if infectious work up remains
   negative
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2156-2-25**] 12:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is [**Year (4 digits) 1085**] from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-25**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 91 (80 - 107) bpm
   BP: 144/45(68) {91/23(38) - 164/80(101)} mmHg
   RR: 21 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,316 mL
                                                                    253 mL
   PO:
             TF:
                                                                    481 mL
                                                                    128 mL
   IVF:
                                                                    340 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  1,695 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    495 mL
   Stool:
   Drains:
   Balance:
                                                                   -379 mL
                                                                    253 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Gen: middle-aged woman on trach mask, significant muscle atrophy of
   extremities, opens eyes to voice, not following commands
   NEURO: Pupils 3mm bilaterally minimally reactive to light
   CV: RR, nl S1/S2
   Lungs: CTAB anteriorly though difficult to assess given loud
   respiratory sounds
   Abd: soft, NT, ND, G tube site clean, dry, without evidence of
   infection, minimal serosanguinous discharge
   Ext: trace bilat pedal edema, dressing on L heal eschar c/d/i
   Labs / Radiology
   493 K/uL
   7.9 g/dL
   96 mg/dL
   3.0 mg/dL
   27 mEq/L
   4.7 mEq/L
   15 mg/dL
   103 mEq/L
   140 mEq/L
   26.4 %
   14.9 K/uL
        [image002.jpg]
                             [**2156-2-19**]  06:00 AM
                             [**2156-2-19**]  12:00 PM
                             [**2156-2-19**]  06:00 PM
                             [**2156-2-20**]  02:32 AM
                             [**2156-2-21**]  02:26 AM
                             [**2156-2-22**]  01:11 AM
                             [**2156-2-23**]  04:37 AM
                             [**2156-2-24**]  04:18 AM
                             [**2156-2-24**]  09:10 AM
                             [**2156-2-25**]  05:01 AM
   WBC
   12.8
   12.3
   13.2
   14.9
   Hct
   26.1
   27.0
   27.3
   26.4
   Plt
   [**Telephone/Fax (3) 13991**]93
   Cr
   2.8
   4.6
   2.7
   4.3
   5.3
   3.0
   Glucose
   116
   220
   102
   101
   137
   134
   86
   141
   96
   Other labs: PT / PTT / INR:12.2/34.2/1.0, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with new
   stroke, now s/p trach because of inability to protect airway after
   extubation.
   .
   # Increased Resp Secretions/Leukocytosis: GNR in sputum. Faint crackles
   on left lower base.
   - start cefepime/cipro for empiric tx of HAP
   .
    # Seizures/altered mental status: MS [**First Name (Titles) 1084**] [**Last Name (Titles) 1085**]-opens eyes to
   voice, not following commands. No recent szs. Possible infection
   contributing.
   - continue levetiracetam
   - follow up neuro recs
   - continue EEG monitoring
   -f/u niacin and thiamin
   - f/u final LP cultures / HSV / f/u CSF lactate
   # Stroke:
   - continue clopidogrel, aspirin
   #  Pain: cont fentanyl patch at 12.5mcg /hr
   .
    # Respiratory failure: Now trached. Doing well from a respiratory
   stand point.
   - continue trach mask
   -remove trach sutures
   # Diarrhea/leukocytosis: CDiff neg x 1
   .
   #  Stage IV chronic kidney disease: cont HD three times per week
   .
   #  DM: - continue current insulin regimen
   #  HTN: BP stable
   - continue metoprolol at 75mg po bid
   # FEN: IVFs / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ
   # ACCESS: PICC (1 lumen functional)
   # CODE:  Full, confirmed with HCP
   # CONTACT:  Brother
   # DISPOSITION:  callout to floor
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, no seizures.  Had HD yesterday.  Having increased secretions
   Tm: 98.8 P: 91  BP: 144/45   RR: 21  Oxygen Sat:  100%  with Fio2 of
   0.35
   General: Trach in place
 on t-piece; grimace
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: Muscle wasting, warm and perfused
   Neuro: Poorly responsive. Not clearly following commands
   Labs: reviewed and as above
 WBC increased to 16.6, Sputum growing
   gram negative rods
   CXR:
   Assessment:
   1)      Mental Status Change: see previous notes for full discussion.
   No new changes and possible that infection (see #2) may have some
   slight contribution and will treat.
   2)      Pneumonia: CXR with retrocardiac infiltrate, increased thick
   secretions plus increased WBC and sputum positive
   3)      ESRD
   4)      Respiratory Failure
 on trach shield and off ventilator
   increased secretions
   5)      Deconditioning
   Plan:
   1)      Start antibiotics for pneumonia
   2)      Physical Therapy
   3)      Case Management for discharge planning
   4)      Continue HD
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2156-2-25**] 01:07 PM ------

2156-02-26 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Fever, Encephalopathy
   24 Hour Events:
 SPUTUM CULTURE - At [**2156-2-25**] 10:38 AM
   -Per case mgr bed at [**Hospital 328**] Rehab available for [**2-26**]
   -tube feeds suctioned from ET tube, TF stopped, no change in
   oxygenation
   -temp max 102F
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2156-2-25**] 10:38 AM
   Cefipime - [**2156-2-25**] 12:37 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2156-2-26**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is [**Year (4 digits) 1085**] from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-26**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 119 (85 - 119) bpm
   BP: 135/42(62) {125/37(61) - 188/87(102)} mmHg
   RR: 25 (11 - 40) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,285 mL
                                                                     99 mL
   PO:
             TF:
                                                                    480 mL
                                                                     20 mL
   IVF:
                                                                    490 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                     50 mL
   Urine:
   NG:
   50 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    735 mL
                                                                     49 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Gen: middle-aged woman on trach mask, significant muscle atrophy of
   extremities, opens eyes to voice, not following commands
   NEURO: Pupils 3mm bilaterally minimally reactive to light
   CV: RR, nl S1/S2
   Lungs: CTAB anteriorly though difficult to assess given loud
   respiratory sounds
   Abd: soft, NT, ND, G tube site clean, dry, without evidence of
   infection, minimal serosanguinous discharge
   Ext: trace bilat pedal edema, dressing on L heal eschar c/d/i
   Labs / Radiology
   550 K/uL
   8.4 g/dL
   83 mg/dL
   4.3 mg/dL
   23 mEq/L
   5.1 mEq/L
   25 mg/dL
   101 mEq/L
   138 mEq/L
   28.3 %
   22.2 K/uL
        [image002.jpg]
                             [**2156-2-19**]  12:00 PM
                             [**2156-2-19**]  06:00 PM
                             [**2156-2-20**]  02:32 AM
                             [**2156-2-21**]  02:26 AM
                             [**2156-2-22**]  01:11 AM
                             [**2156-2-23**]  04:37 AM
                             [**2156-2-24**]  04:18 AM
                             [**2156-2-24**]  09:10 AM
                             [**2156-2-25**]  05:01 AM
                             [**2156-2-26**]  06:05 AM
   WBC
   12.8
   12.3
   13.2
   14.9
   16.6
   22.2
   Hct
   26.1
   27.0
   27.3
   26.4
   27.6
   28.3
   Plt
   [**Telephone/Fax (3) 13991**]93
   473
   550
   Cr
   2.8
   4.6
   2.7
   4.3
   5.3
   3.0
   4.3
   Glucose
   220
   102
   101
   137
   134
   86
   141
   96
   83
   Other labs: PT / PTT / INR:12.2/34.2/1.0, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with new
   stroke, now s/p trach because of inability to protect airway after
   extubation.
   .
   # Increased Leukocytosis/fevers: In setting of increased respiratory
   secretions and GNR in sputum.  Lines show no sign of infection.  Heal
   wound appears stable.  No abdominal tenderness.  CSF HSV negative.
   -  resp culture [**2156-2-24**] positive for enterobacter; d/c cipro as
   resistent to cipro
   -  continue renally dosed cefepime 500 mg q24h
   -  start vancomycin this morning.
   -  follow up blood cx, urine cx, sputum cx, C. diff
   - f/u CXR
   - hold tube feeds given likely aspiration (adjust insulin accordingly)
   will restart at lower rate this evening
   - will start reglan when restarting tube feeds
   .
    # Seizures/altered mental status: MS [**First Name (Titles) 1084**] [**Last Name (Titles) 1085**]-opens eyes to
   voice, not following commands. No recent szs. Possible infection
   contributing.
   - continue levetiracetam
   - follow up neuro recs
   - continue EEG monitoring
   -f/u niacin and thiamin
   - f/u final LP cultures / HSV / f/u CSF lactate
   # Stroke:
   - continue clopidogrel, aspirin
   #  Pain: cont fentanyl patch at 12.5mcg /hr
   .
    # Respiratory failure: Now trached. Doing well from a respiratory
   stand point.
   - continue trach mask
   - remove trach sutures on [**2156-3-1**]
   # Diarrhea/leukocytosis: CDiff neg x 1; may be due to narcan
   .
   #  Stage IV chronic kidney disease: cont HD three times per week
   .
   #  DM: - continue current insulin regimen
   #  HTN: BP stable
   - continue metoprolol at 75mg po bid
   # FEN: IVFs / replete lytes prn / holding TF
   # PPX: H2 blocker, heparin SQ
   # ACCESS: PICC (1 lumen functional)
   # CODE:  Full, confirmed with HCP
   # CONTACT:  Brother
   # DISPOSITION:  to [**Hospital 328**] Rehab when fevers resolve and pending
   infectious work up
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, had tube feedings coming from ETT suggestive of an
   aspiration event
   Tm: 102.2 P: 119  BP: 108/38   RR: 21  Oxygen Sat:  100%  with Fio2 of
   0.35
   General: Poorly responsive, trach in place
 on t-piece; grimace
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: Muscle wasting, warm and perfused
   Neuro: Poorly responsive. Not clearly following commands
   Labs: reviewed and as above
 WBC increased to 22.2, Sputum growing
   enterobacter
   Assessment:
   1)      Mental Status Change: see previous notes for full discussion.
   No new changes and possible that infection (see #2) may have some
   slight contribution and will treat.
   2)      Fevers/sepsis: Given the tube feeds from sputum, aspiration is
   high likelihood for soruce
   3)      Hypotension -
   4)      ESRD
   5)      Respiratory Failure
 on trach shield and off ventilator
   increased secretions
   6)      Deconditioning
   Plan:
   1)      Add vancomycin for VAP, change Cefepime to Meropenum given
   fever and hypotension despite Cefepime and now looks like a gram
   negative rod as been
   2)      IVFs for hypotension
   3)      Contine to monitor neuro status and hemodynamics
   4)      Cannot be discharged today but perhaps tomorrow if improves
   significant.
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2156-2-26**] 11:36 PM ------

2156-02-27 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --Pressure dropped to systolics in mid 80's followed HD. They UF'd
   600cc
   --Gave her total 1L bolus and pressure came up to 90's
   --DC'd cefepime and started meropenem given e. cloacae acquires
   cephalosporin resistance quickly
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2156-2-25**] 10:38 AM
   Cefipime - [**2156-2-26**] 12:48 PM
   Vancomycin - [**2156-2-26**] 02:00 PM
   Meropenem - [**2156-2-26**] 06:23 PM
   Erythromycin - [**2156-2-27**] 12:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2156-2-26**] 06:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is [**Year (4 digits) 1085**] from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-27**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 39
C (102.2
   Tcurrent: 35.8
C (96.5
   HR: 86 (77 - 125) bpm
   BP: 107/36(52) {92/17(46) - 145/63(86)} mmHg
   RR: 16 (11 - 39) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  2,500 mL
                                                                    298 mL
   PO:
             TF:
                                                                     50 mL
                                                                     74 mL
   IVF:
                                                                  2,090 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    400 mL
   Urine:
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,850 mL
                                                                   -102 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Gen: opens eyes to voice, not following commands
   NEURO: Pupils 3mm bilaterally minimally reactive to light
   CV: RR, nl S1/S2
   Lungs: rhonchorous
   Abd: soft, NT, ND, G tube site clean, dry, without evidence of
   infection, minimal serosanguinous discharge
   Ext: trace bilat pedal edema, dressing on L heal eschar c/d/i
   Labs / Radiology
   510 K/uL
   7.2 g/dL
   101 mg/dL
   3.4 mg/dL
   22 mEq/L
   3.9 mEq/L
   18 mg/dL
   107 mEq/L
   140 mEq/L
   24.6 %
   22.4 K/uL
        [image002.jpg]
                             [**2156-2-19**]  06:00 PM
                             [**2156-2-20**]  02:32 AM
                             [**2156-2-21**]  02:26 AM
                             [**2156-2-22**]  01:11 AM
                             [**2156-2-23**]  04:37 AM
                             [**2156-2-24**]  04:18 AM
                             [**2156-2-24**]  09:10 AM
                             [**2156-2-25**]  05:01 AM
                             [**2156-2-26**]  06:05 AM
                             [**2156-2-27**]  04:16 AM
   WBC
   12.8
   12.3
   13.2
   14.9
   16.6
   22.2
   22.4
   Hct
   26.1
   27.0
   27.3
   26.4
   27.6
   28.3
   24.6
   Plt
   [**Telephone/Fax (3) 13991**]93
   473
   550
   510
   Cr
   2.8
   4.6
   2.7
   4.3
   5.3
   3.0
   4.3
   3.4
   Glucose
   102
   101
   137
   134
   86
   141
   96
   83
   101
   Other labs: PT / PTT / INR:12.2/34.2/1.0, ALT / AST:[**11-22**], Alk Phos / T
   Bili:88/0.3, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with new
   stroke, now s/p trach because of inability to protect airway after
   extubation.
   .
   # Hypotension: Pt hypotensive following HD. Likely [**1-13**] fluid removal.
   Improved with 1l fluid bolus
   .
   # Increased Leukocytosis/fevers: Last fever 24 hrs ago. WBC ct remains
   elevated at 22,000. Only known source of infection being E. Cloacae in
   sputum. Changed from Cepepime to Meropenem and Vancomycin yesterday.
   -Cont [**Last Name (un) **]/Vanc
   -F/U cxs
   -Cont monitor fever curve
   .
    # Seizures/altered mental status: MS [**First Name (Titles) 1084**] [**Last Name (Titles) 1085**]-opens eyes to
   voice, not following commands. No recent szs. Possible infection
   contributing.
   - continue levetiracetam
   - follow up neuro recs
   -f/u niacin and thiamin
   .
   # Tube Feeds: Started IV erythromycin yesterday prior to starting TF.
   Tolerating TF
   # Stroke: No active issues
   - continue clopidogrel, aspirin
   .
   #  Pain: fentanyl patch increased to 25mcg/hr as pt appeared to be in
   pain on 12mcg patch.
   -wait for increased dose to take effect
   .
    # Respiratory Status: Now trached. Stable from a respiratory stand
   point.
   - continue trach mask
   - remove trach sutures on [**2156-3-1**]
   .
   #  Stage IV chronic kidney disease: cont HD three times per week
   .
   #  DM: - continue current insulin regimen
   .
   # FEN: IVFs / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ
   # ACCESS: PICC (1 lumen functional)
   # CODE:  Full, confirmed with HCP
   # CONTACT:  Brother
   # DISPOSITION:  ICU for now, screen for rehab
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2156-2-26**] 09:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   I have seen and examined the patient with the resident and agree with
   the assessment and plan as above with the following
   modifications/emphasis:
   Overnight/yesterday, had episode of hypotension after dialysis and had
   fever earlier in the day.  No improvement in mental status
   Tm 39  Tc 35  P 86  BP 107/36  RR 16  SpO2: 100%
   Gen: Poorly responsive
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Neuro: poorly responsive
   Labs as above
   Assessment:
   1)       Mental Status Change
 persistent and likely new baseline from
   watershed infarctions
   2)       Pneumonia
   3)       Seizures
   4)       ESRD
   5)       DM
   6)       CVA
   Plan:
   1)       Continue antibiotics for pneumonia
 switched to Meropenum for
   better coverage of enterocloace that has grown from culture
   2)       Continue Keppra for seizures
   Time Spent: 30 minutes
   ------ Protected Section ------
   Addendum to my plan above: Will hold of on placement today given
   pneumonia is still active with episode of hypotension yesterday,
   persistent WBC, and change in antibiotics today.  If improved
   overnight, can go to rehab when available.  Also, note that in the late
   afternoon, we noted a firm discrete mass in the abdomen near incision
   site for PEG when nurse alerted us to some drainage from the area.  We
   will get an ultrasound to evaluate for hematoma or abscess and consult
   the surgery group that placed the PEG to evaluate.  This issue must
   also be addressed prior to movement to rehab.
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2156-2-27**] 08:09 PM ------

2156-02-28 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status; leukocytosis
   24 Hour Events:
   [**2156-2-27**]:
   --Patient remained afebrile with stable blood pressures on meropenem.
   --Laparoscopic incision site started draining serosanguinous fluid 11
   days after procedure.  Underlying induration.
   --Soft tissue ultrasound performed suggested abscess
   --Surgery called and believe induration was a small hematoma and not an
   abscess
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2156-2-25**] 10:38 AM
   Cefipime - [**2156-2-26**] 12:48 PM
   Vancomycin - [**2156-2-26**] 02:00 PM
   Meropenem - [**2156-2-27**] 05:05 PM
   Erythromycin - [**2156-2-28**] 06:15 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2156-2-27**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2156-2-27**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is [**Year (4 digits) 1085**] from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-28**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 95 (80 - 101) bpm
   BP: 146/39(68) {107/28(53) - 148/88(95)} mmHg
   RR: 24 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  2,176 mL
                                                                    811 mL
   PO:
             TF:
                                                                    436 mL
                                                                    290 mL
   IVF:
                                                                    990 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,776 mL
                                                                    811 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Gen: opens eyes to voice, not following commands
   NEURO: Pupils 3mm bilaterally minimally reactive to light
   CV: RR, nl S1/S2
   Lungs: rhonchorous
   Abd: soft, NT, ND, G tube site clean, dry, without evidence of
   infection, minimal serosanguinous discharge
   Ext: trace bilat pedal edema, dressing on L heal eschar c/d/i
   Labs / Radiology
   456 K/uL
   7.3 g/dL
   83 mg/dL
   4.4 mg/dL
   21 mEq/L
   4.3 mEq/L
   24 mg/dL
   106 mEq/L
   141 mEq/L
   25.0 %
   19.5 K/uL
        [image002.jpg]
                             [**2156-2-20**]  02:32 AM
                             [**2156-2-21**]  02:26 AM
                             [**2156-2-22**]  01:11 AM
                             [**2156-2-23**]  04:37 AM
                             [**2156-2-24**]  04:18 AM
                             [**2156-2-24**]  09:10 AM
                             [**2156-2-25**]  05:01 AM
                             [**2156-2-26**]  06:05 AM
                             [**2156-2-27**]  04:16 AM
                             [**2156-2-28**]  04:12 AM
   WBC
   12.8
   12.3
   13.2
   14.9
   16.6
   22.2
   22.4
   19.5
   Hct
   26.1
   27.0
   27.3
   26.4
   27.6
   28.3
   24.6
   25.0
   Plt
   [**Telephone/Fax (3) 13991**]93
   [**Telephone/Fax (2) 14068**]56
   Cr
   2.8
   4.6
   2.7
   4.3
   5.3
   3.0
   4.3
   3.4
   4.4
   Glucose
   101
   137
   134
   86
   141
   96
   83
   101
   83
   Other labs: PT / PTT / INR:12.2/34.2/1.0, ALT / AST:[**11-25**], Alk Phos / T
   Bili:115/0.2, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with new
   stroke, now s/p trach because of inability to protect airway after
   extubation.
   .
   # Hypotension: Pt hypotensive following HD. Likely [**1-13**] fluid removal.
   .
   #Persistent Leukocytosis: Last fever >48 hrs ago. WBC ct remains
   elevated at 19,000. Only known source of infection being E. Cloacae in
   sputum. Changed from Cefepime to Meropenem and Vancomycin [**2156-2-26**].
   Patient with slight induration around laparoscopic site underwent soft
   tissue ultrasound to assess for abscess vs hematoma.   Ultrasound
   concerning for small abscess. Surgery contact[**Name (NI) **].  They expored incision
   site and believed collection was a small hematoma and not contributing
   to leukocytosis.
   -Cont [**Last Name (un) **]/Vanc/Azithromycin
   -F/U cxs
   -Cont monitor fever curve
   .
    # Seizures/altered mental status: MS [**First Name (Titles) 1084**] [**Last Name (Titles) 1085**]-opens eyes to
   voice, not following commands. No recent szs. Possible infection
   contributing.
   - continue levetiracetam
   - follow up neuro recs
   -f/u niacin and thiamin
   .
   # Tube Feeds: Started IV erythromycin yesterday prior to starting TF.
   Tolerating TF
   # Stroke: No active issues
   - continue clopidogrel, aspirin
   .
   #  Pain: fentanyl patch increased to 25mcg/hr as pt appeared to be in
   pain on 12mcg patch.
   -wait for increased dose to take effect
   .
    # Respiratory Status: Now trached. Stable from a respiratory stand
   point.
   - continue trach mask
   - remove trach sutures on [**2156-3-1**]
   .
   #  Stage IV chronic kidney disease: cont HD three times per week
   .
   #  DM: - continue current insulin regimen
   .
   # FEN: IVFs / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ
   # ACCESS: PICC (1 lumen functional)
   # CODE:  Full, confirmed with HCP
   # CONTACT:  Brother
   # DISPOSITION:  screen for rehab

2156-02-28 12:20:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43F with ESRD, debilitating CVA [**2-17**], admitted on [**2156-1-31**] with
   respiratory failure thought to be [**1-13**] sepsis. High suspicion for recurr
   CVA during this time as well. Failed extubation twice (on [**2-4**] and
   [**2-6**].) S/p trach / PEG on [**2156-2-16**], awaiting rehab, although recent
   diagnosis of likely VAP now on meropenem:
   24 Hour Events:
   - concern for abscess at one of the lap insicion sites but surgery not
   concerned
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2156-2-26**] 12:48 PM
   Vancomycin - [**2156-2-26**] 02:00 PM
   Meropenem - [**2156-2-27**] 05:05 PM
   Erythromycin - [**2156-2-28**] 06:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-27**] 10:10 PM
   Other medications:
   famotidine, nephrocaps, chlorhex, lipitor, sqh, riss, tylenol standing,
   keppra, vanco with hd, fent td, erythro, [**Last Name (un) 614**]
   Changes to medical and family history:
   PMH, SH, FH and ROS are [**Last Name (un) 1085**] from Admission except where noted
   above and below
   Review of systems is [**Last Name (un) 1085**] from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Genitourinary: Foley
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2156-2-28**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 90 (80 - 115) bpm
   BP: 158/53(80) {111/28(53) - 169/120(129)} mmHg
   RR: 7 (7 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
             Total In:
                                                                  2,176 mL
                                                                  1,432 mL
   PO:
             TF:
                                                                    436 mL
                                                                    512 mL
   IVF:
                                                                    990 mL
                                                                    520 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,776 mL
                                                                  1,432 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.3 g/dL
   456 K/uL
   83 mg/dL
   4.4 mg/dL
   21 mEq/L
   4.3 mEq/L
   24 mg/dL
   106 mEq/L
   141 mEq/L
   25.0 %
   19.5 K/uL
        [image002.jpg]
                             [**2156-2-20**]  02:32 AM
                             [**2156-2-21**]  02:26 AM
                             [**2156-2-22**]  01:11 AM
                             [**2156-2-23**]  04:37 AM
                             [**2156-2-24**]  04:18 AM
                             [**2156-2-24**]  09:10 AM
                             [**2156-2-25**]  05:01 AM
                             [**2156-2-26**]  06:05 AM
                             [**2156-2-27**]  04:16 AM
                             [**2156-2-28**]  04:12 AM
   WBC
   12.8
   12.3
   13.2
   14.9
   16.6
   22.2
   22.4
   19.5
   Hct
   26.1
   27.0
   27.3
   26.4
   27.6
   28.3
   24.6
   25.0
   Plt
   [**Telephone/Fax (3) 13991**]93
   [**Telephone/Fax (2) 14068**]56
   Cr
   2.8
   4.6
   2.7
   4.3
   5.3
   3.0
   4.3
   3.4
   4.4
   Glucose
   101
   137
   134
   86
   141
   96
   83
   101
   83
   Other labs: PT / PTT / INR:12.2/34.2/1.0, ALT / AST:[**11-25**], Alk Phos / T
   Bili:115/0.2, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Imaging: abd us: IMPRESSIONS: 1.3 x 1 x 0.7 cm hypoechoic collection at
   the infraumbilical
   laparoscopy site, concerning for abscess or seroma.
   Assessment and Plan
   43F with ESRD, debilitating CVA [**2-17**], admitted on [**2156-1-31**] with
   respiratory failure thought to be [**1-13**] sepsis. High suspicion for recurr
   CVA during this time as well. Failed extubation twice (on [**2-4**] and
   [**2-6**].) S/p trach / PEG on [**2156-2-16**], awaiting rehab, although recent
   diagnosis of likely VAP, now on meropenem.
   Her leukocytosis remains without a clear source, though decreasing
   today. The abdominal collection is quite small, but it is concerning
   for an abscess. Will continue discussion with surgery about any
   additional studies such as ct scan.
   Needs new access
 will discuss with venous access team.
   Will recheck TFTs given very low TSH in the past.
   ICU Care
   Nutrition: NovaSource Renal (Full) - [**2156-2-28**] 07:49 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2156-2-3**] 02:37 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2156-02-29 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2156-2-28**] 12:58 PM
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2156-2-26**] 12:48 PM
   Erythromycin - [**2156-2-28**] 06:15 AM
   Vancomycin - [**2156-2-28**] 01:02 PM
   Meropenem - [**2156-2-28**] 02:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-28**] 10:25 PM
   Hydromorphone (Dilaudid) - [**2156-2-29**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is [**Year (4 digits) 1085**] from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-29**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 111 (90 - 112) bpm
   BP: 148/73(91) {116/40(55) - 194/120(129)} mmHg
   RR: 21 (7 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
                  Total In:
                                                                  2,743 mL
                                                                    536 mL
   PO:
                  TF:
                                                                  1,052 mL
                                                                    326 mL
   IVF:
                                                                    831 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,943 mL
                                                                    536 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   554 K/uL
   7.4 g/dL
   81 mg/dL
   2.9 mg/dL
   32 mEq/L
   3.9 mEq/L
   16 mg/dL
   97 mEq/L
   138 mEq/L
   24.5 %
   18.0 K/uL
        [image002.jpg]
                             [**2156-2-21**]  02:26 AM
                             [**2156-2-22**]  01:11 AM
                             [**2156-2-23**]  04:37 AM
                             [**2156-2-24**]  04:18 AM
                             [**2156-2-24**]  09:10 AM
                             [**2156-2-25**]  05:01 AM
                             [**2156-2-26**]  06:05 AM
                             [**2156-2-27**]  04:16 AM
                             [**2156-2-28**]  04:12 AM
                             [**2156-2-29**]  03:10 AM
   WBC
   12.3
   13.2
   14.9
   16.6
   22.2
   22.4
   19.5
   18.0
   Hct
   27.0
   27.3
   26.4
   27.6
   28.3
   24.6
   25.0
   24.5
   Plt
   391
   434
   493
   [**Telephone/Fax (3) **]
   456
   554
   Cr
   4.6
   2.7
   4.3
   5.3
   3.0
   4.3
   3.4
   4.4
   2.9
   Glucose
   137
   134
   86
   141
   96
   83
   101
   83
   81
   Other labs: PT / PTT / INR:12.2/34.2/1.0, ALT / AST:[**11-25**], Alk Phos / T
   Bili:115/0.2, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with new
   stroke, now s/p trach because of inability to protect airway after
   extubation.
   # Hypotension: Pt hypotensive following HD. Likely [**1-13**] fluid removal.
   #Persistent Leukocytosis: Last fever >48 hrs ago. WBC ct remains
   elevated at 19,000. Only known source of infection being E. Cloacae in
   sputum. Changed from Cefepime to Meropenem and Vancomycin [**2156-2-26**].
   Patient with slight induration around laparoscopic site underwent soft
   tissue ultrasound to assess for abscess vs hematoma.   Ultrasound
   concerning for small abscess. Surgery contact[**Name (NI) **].  They expored incision
   site and believed collection was a small hematoma and not contributing
   to leukocytosis.
   -Cont [**Last Name (un) **]/Vanc/Azithromycin
   -F/U cxs
   -Cont monitor fever curve
    # Seizures/altered mental status: MS [**First Name (Titles) 1084**] [**Last Name (Titles) 1085**]-opens eyes to
   voice, not following commands. No recent szs. Possible infection
   contributing.
   - continue levetiracetam
   - follow up neuro recs
   -f/u niacin and thiamin
   # Tube Feeds: Started IV erythromycin yesterday prior to starting TF.
   Tolerating TF
   # Stroke: No active issues
   - continue clopidogrel, aspirin
   #  Pain: fentanyl patch increased to 25mcg/hr as pt appeared to be in
   pain on 12mcg patch.
   -wait for increased dose to take effect
    # Respiratory Status: Now trached. Stable from a respiratory stand
   point.
   - continue trach mask
   - remove trach sutures on [**2156-3-1**]
   #  Stage IV chronic kidney disease: cont HD three times per week
   #  DM: - continue current insulin regimen
   # FEN: IVFs / replete lytes prn / TF
   # PPX: H2 blocker, heparin SQ
   # ACCESS: PIV
   # CODE:  Full, confirmed with HCP
   # CONTACT:  Brother
   # DISPOSITION:  screen for rehab
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2156-2-29**] 05:52 AM 45 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2156-2-28**] 12:59 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2156-02-29 11:46:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, change in mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43F with ESRD on HD, DM2, with debilitating CVA [**2-17**], admitted on
   [**2156-1-31**] with respiratory failure thought to be [**1-13**] sepsis, high
   suspicion for recurr CVA, multiple failed extubations, s/p trach / PEG
   on [**2156-2-16**]. Had seziures last week now on Keppra but Mental status is
   still depressed. LP neg.
   24 Hour Events:
 PICC LINE - STOP [**2156-2-28**] 12:58 PM
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2156-2-26**] 12:48 PM
   Erythromycin - [**2156-2-28**] 06:15 AM
   Vancomycin - [**2156-2-28**] 01:02 PM
   Meropenem - [**2156-2-28**] 02:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-28**] 10:25 PM
   Hydromorphone (Dilaudid) - [**2156-2-29**] 12:25 AM
   Other medications:
   [**Last Name (un) 614**], vanco, erythro, fent td, pepscid, sqh, lipitor, plavix, keppra
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube, trach
   Nutritional Support: Tube feeds
   Respiratory: No(t) Dyspnea
   Neurologic: No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2156-2-29**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 105 (98 - 112) bpm
   BP: 188/81(100) {116/40(55) - 194/88(106)} mmHg
   RR: 26 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
                  Total In:
                                                                  2,743 mL
                                                                  1,103 mL
   PO:
                  TF:
                                                                  1,052 mL
                                                                    513 mL
   IVF:
                                                                    831 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,943 mL
                                                                  1,103 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : [**Last Name (un) 1023**] and bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   554 K/uL
   81 mg/dL
   2.9 mg/dL
   32 mEq/L
   3.9 mEq/L
   16 mg/dL
   97 mEq/L
   138 mEq/L
   24.5 %
   18.0 K/uL
        [image002.jpg]
                             [**2156-2-21**]  02:26 AM
                             [**2156-2-22**]  01:11 AM
                             [**2156-2-23**]  04:37 AM
                             [**2156-2-24**]  04:18 AM
                             [**2156-2-24**]  09:10 AM
                             [**2156-2-25**]  05:01 AM
                             [**2156-2-26**]  06:05 AM
                             [**2156-2-27**]  04:16 AM
                             [**2156-2-28**]  04:12 AM
                             [**2156-2-29**]  03:10 AM
   WBC
   12.3
   13.2
   14.9
   16.6
   22.2
   22.4
   19.5
   18.0
   Hct
   27.0
   27.3
   26.4
   27.6
   28.3
   24.6
   25.0
   24.5
   Plt
   391
   434
   493
   [**Telephone/Fax (3) **]
   456
   554
   Cr
   4.6
   2.7
   4.3
   5.3
   3.0
   4.3
   3.4
   4.4
   2.9
   Glucose
   137
   134
   86
   141
   96
   83
   101
   83
   81
   Other labs: PT / PTT / INR:12.2/34.2/1.0, ALT / AST:[**11-25**], Alk Phos / T
   Bili:115/0.2, Amylase / Lipase:94/35, Differential-Neuts:78.0 %,
   Lymph:16.4 %, Mono:3.7 %, Eos:1.5 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Microbiology: no new pos cx
   Assessment and Plan
   43F with ESRD on HD, DM2, with debilitating CVA [**2-17**], admitted on
   [**2156-1-31**] with respiratory failure thought to be [**1-13**] sepsis, high
   suspicion for recurr CVA, multiple failed extubations, s/p trach / PEG
   on [**2156-2-16**]. Had seziures last week now on Keppra but Mental status is
   still depressed. LP neg.
   Overall she is doing well and remains stable. Leukocytosis persists
   though she is afebrile now off tylenol and now without PICC line. If
   spikes again, will likely need to obtain chest and abdomen CT.
   Will continue 8-day course of abx for HAP. She will need a new picc
   line prior to transfer to rehab.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2156-2-29**] 05:52 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2156-2-28**] 12:59 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2156-03-01 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --hypertensive to 178 systolic, restarted lisinopril
   Allergies:
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Erythromycin - [**2156-2-28**] 06:15 AM
   Vancomycin - [**2156-2-28**] 01:02 PM
   Meropenem - [**2156-2-29**] 02:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-29**] 10:13 PM
   Hydromorphone (Dilaudid) - [**2156-3-1**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is [**Year (4 digits) 1085**] from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-3-1**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**57**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.4
   HR: 95 (87 - 111) bpm
   BP: 128/70(85) {113/57(72) - 188/86(106)} mmHg
   RR: 17 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.3 kg
   Height: 65 Inch
                  Total In:
                                                                  2,115 mL
                                                                    329 mL
   PO:
                  TF:
                                                                  1,085 mL
                                                                    269 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,965 mL
                                                                    329 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   Gen: eyes closed, not following commands
   Lungs: ant lung fields clear
   Heart: s1.s2 present, -mrg
   Abd: +bs, soft, no erythema around G-tube, small abd hematoma around
   laparoscopoy site
   Ext: no peripheral edema
   Labs / Radiology
   504 K/uL
   7.8 g/dL
   115 mg/dL
   3.9 mg/dL
   32 mEq/L
   4.7 mEq/L
   25 mg/dL
   97 mEq/L
   136 mEq/L
   26.0 %
   17.0 K/uL
        [image002.jpg]
                             [**2156-2-22**]  01:11 AM
                             [**2156-2-23**]  04:37 AM
                             [**2156-2-24**]  04:18 AM
                             [**2156-2-24**]  09:10 AM
                             [**2156-2-25**]  05:01 AM
                             [**2156-2-26**]  06:05 AM
                             [**2156-2-27**]  04:16 AM
                             [**2156-2-28**]  04:12 AM
                             [**2156-2-29**]  03:10 AM
                             [**2156-3-1**]  04:28 AM
   WBC
   13.2
   14.9
   16.6
   22.2
   22.4
   19.5
   18.0
   17.0
   Hct
   27.3
   26.4
   27.6
   28.3
   24.6
   25.0
   24.5
   26.0
   Plt
   [**Telephone/Fax (3) 14091**]50
   [**Telephone/Fax (2) 14092**]04
   Cr
   2.7
   4.3
   5.3
   3.0
   4.3
   3.4
   4.4
   2.9
   3.9
   Glucose
   134
   86
   141
   96
   83
   101
   83
   81
   115
   Other labs: PT / PTT / INR:12.2/34.2/1.0, ALT / AST:[**11-25**], Alk Phos / T
   Bili:115/0.2, Amylase / Lipase:94/35, Differential-Neuts:75.0 %,
   Lymph:17.6 %, Mono:4.8 %, Eos:1.9 %, Fibrinogen:880 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:152 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   43-year-old woman with history of ESRD [**1-13**] DM, CVA, presented with new
   stroke, now s/p trach because of inability to protect airway after
   extubation.
   # Hypertension: Restarted lisinopril
   .
   #Persistent Leukocytosis: Trending down. Remains afebrile. Treating VAP
   with meropenem and vancomycin.  (day 6 of 14)
   -placing PICC today
   -continue abx, f/u cultures, culture if spikes, continue to hold
   standing Tylenol
   -low threshold for CT torso
   .
   # Seizures/altered mental status: MS [**First Name (Titles) 1084**] [**Last Name (Titles) 1085**]-opens eyes to
   voice, not following commands. No recent szs..
   - continue levetiracetam
   -f/u pending keppra level
   -f/u niacin and thiamine as well as CSF lactate
   -neuro recs
needs outpt neurologist
   .
   # Stroke: No active issues
   - continue clopidogrel, aspirin
   .
   # Tube Feeds: continue TF w/ PO erythromycin. No residuals
   -stop  erythromycin.
   .
   #  Pain: improved control with higher dose patch.
   -fentanyl patch
 continue at 25mcg / hr
   .
    # Respiratory Status: trach.
   - continue trach mask
   - remove trach sutures today
   .
   #  ESRD: hemodialysis
   .
   # Bruxism: Call dentist and ask about getting fitted for mouth guard
   .
   #  DM: - continue current insulin regimen
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2156-3-1**] 03:57 AM 45 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2156-2-28**] 12:59 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU for now
   .
   ------ Protected Section ------
   Overnight, no new changes
   Tm: 98  P: 103  BP: 164/63   RR: 20  Oxygen Sat:  100%  with Fio2 of
   0.35
   General: Poorly responsive, trach in place
 on t-piece; grimace
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: Muscle wasting, warm and perfused
   Neuro: Poorly responsive. Not clearly following commands
   Labs: reviewed and as above
 WBC decreasing
   Assessment:
   1)      Mental Status Change: Continues to be poorly responsive and not
   significant improvement
   2)      Pneumonia
 resolving and WBC now finally decreasing
   3)      ESRD
   4)      Respiratory Failure
 on trach shield and off ventilator
   5)      Deconditioning
   Plan:
   1)      Continue antibiotics for pneumonia
   2)      Placement today
   3)      Discuss follow-up plan with neurology
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2156-3-1**] 02:59 PM ------